2131-07-21 06:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2131-7-20**] 10:29 AM
 STOOL CULTURE - At [**2131-7-20**] 10:29 AM
 BRONCHOSCOPY - At [**2131-7-20**] 11:15 AM
 ULTRASOUND - At [**2131-7-20**] 01:05 PM
   LLE
 MAGNETIC RESONANCE IMAGING - At [**2131-7-20**] 03:00 PM
   - admitted to MICU after PEA arrest on the floor
   - transiently required neosynephrine but this was quickly weaned off
   - seen by neurology who recommended standing ativan, MRI brain and CT
   head as well as EEG
   - MRI brain preliminary read is unchanged
   - CT head is unchanged
   - standing insulin discontinued, now on low dose sliding scale
   - bronchoscopy with edematous airways, mucous in RLL
   - clonopin discontinued
   - heparin gtt discontinued pending final read of MRI
   - seen by endocrine consult service who recommended treating
   hypercalcemia with calcitonin
   - started on linezolid, aztreonam and ciprofloxacin for VAP
   - had LLE ultrasound which was negative for DVT
   - positive blood culture growing gram positive postive cocci in
   clusters
   - rate increased on ventilator secondary to discomfort and diaphoresis
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Ciprofloxacin - [**2131-7-20**] 12:09 PM
   Linezolid - [**2131-7-20**] 02:00 PM
   Vancomycin - [**2131-7-20**] 02:00 PM
   Aztreonam - [**2131-7-21**] 04:07 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2131-7-20**] 08:39 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-7-21**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37
C (98.6
   HR: 121 (104 - 121) bpm
   BP: 115/53(68) {78/24(40) - 122/87(94)} mmHg
   RR: 23 (14 - 33) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
             Total In:
                                                                  7,036 mL
                                                                  1,381 mL
   PO:
             TF:
   IVF:
                                                                  6,826 mL
                                                                  1,381 mL
   Blood products:
   Total out:
                                                                  2,685 mL
                                                                    630 mL
   Urine:
                                                                  2,685 mL
                                                                    630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,351 mL
                                                                    751 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (400 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 105
   PIP: 21 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: ///17/
   Ve: 11.7 L/min
   Physical Examination
   General: Not responsive to voice or painful stimuli
   HEENT: MMM, oropharynx clear, right gaze preference
   Neck: +trach, supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation b/l anteriorly, no wheezes, rales, rhonchi
   CV: Tachycardic, regular, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: Soft, bowel sounds present, no organomegaly
   GU: Foley
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Skin: Bullae, mostly resolved
   Neuro: Not responsive to voice or painful stimuli. Diffuse clonus most
   pronounced in RUE.  PERRL, right gaze peference.
   Labs / Radiology
   556 K/uL
   7.5 g/dL
   180 mg/dL
   1.0 mg/dL
   17 mEq/L
   4.2 mEq/L
   17 mg/dL
   110 mEq/L
   134 mEq/L
   24.9 %
   14.1 K/uL
        [image002.jpg]
                             [**2131-7-20**]  03:41 AM
                             [**2131-7-20**]  03:50 AM
                             [**2131-7-20**]  02:31 PM
                             [**2131-7-21**]  03:18 AM
   WBC
   25.7
   14.1
   Hct
   28.8
   24.9
   Plt
   595
   556
   Cr
   1.0
   1.0
   1.0
   TropT
   0.10
   Glucose
   74
   70
   131
   180
   Other labs: PT / PTT / INR:16.8/31.0/1.5, CK / CKMB /
   Troponin-T:33//0.10, ALT / AST:30/64, Alk Phos / T Bili:126/1.1,
   Amylase / Lipase:208/414, Lactic Acid:1.4 mmol/L, Albumin:2.2 g/dL,
   Ca++:10.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.9 mg/dL
   Imaging: CXR [**2131-7-20**]: Tracheostomy tip is at the midline, approximately
   8.5 cm above the carina.  The NG tube tip passes below the diaphragm
   with its tip below the field of view most likely in the stomach. There
   is right lower lobe atelectasis that is slightly worse than on the
   prior study. The left basal opacity is patchy in appearance and might
   represent either area of atelectasis or infection, the
   differentiation based on this radiograph cannot be done but the finding
   is more significant than on the prior radiograph. There is no
   appreciablepulmonary edema. There is no pneumothorax. Pleural effusion,
   if present, is difficult to detect on the current supine radiograph in
   the presence of atelectasis at the right lung base.
   CT Head [**2131-7-20**]: No hemorrhage, mass, or fracture. Atrophy likely
   secondary to global anoxic brain injury. Would recommend MRI.
   MRI Head [**2131-7-20**]: There is no significant interval change compared to
   MRI [**2131-7-16**]. There is diffuse volume loss for age with prominence
   of ventricles and sulci. No significant change in ventricular size has
   occurred. There is no significant hyperintensity in the cortical region
   bilaterally as before. There
   is no evidence for acute ischemia. There is stable increased signal
   within the pons and mid brain. There is mildly increased signal in the
   basal ganglia,
   which could also be related to osmotic demyelination.
   Left Lower Extremity Ultrasound [**2131-7-20**]: No DVT in the left leg.
   Microbiology: [**2131-7-20**] 3:48 am BLOOD CULTURE      FROM RIGHT GROIN PICC
   LINE.
      Blood Culture, Routine (Preliminary):
         GRAM POSITIVE COCCUS(COCCI).    IN CLUSTERS.
   Urine culture [**2131-7-20**]: pending
   [**2131-7-20**] 10:08 am SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2131-7-20**]):
         >25 PMNs and <10 epithelial cells/100X field.
         4+   (>10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS.
   [**2131-7-20**] 11:15 am BRONCHOALVEOLAR LAVAGE
      GRAM STAIN (Final [**2131-7-20**]):
         3+  (5-10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS.
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 LEUKOCYTOSIS
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ANOXIC BRAIN DAMAGE (ANOXIC ENCEPHALOPATHY, HYPOXIC ISCHEMIC)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 HYPERTENSION, MALIGNANT (HYPERTENSIVE CRISIS, HYPERTENSIVE EMERGENCY)
 HYPOGLYCEMIA
 HYPOTENSION (NOT SHOCK)
   28 yo man with h/o recent admission with complicated hospital course
   readmitted for seizures, c/b SMV thrombus, UTI, and increasing
   WBC/lipase, now transferred to MICU s/p PEA arrest.
   PEA arrest:  Most likely related to mucous plugging and associated
   hypoxia.  [**Month (only) 8**] also have been exacerbated by hypoglycemia.  Post-arrest
   he had copious secretions.  Bronchoscopy with edematous airways,
   cultures pending.  CXR post-arrest also concerning for new infiltrate
   in RLL.
   - monitor on telemetry and continuous oxygen monitoring
   - Frequent suctioning prn
   - linezolid, aztrenoman and ciprofloxacin day [**2-11**] for VAP
   - Cont bactrim for UTI and po vanc for empiric C. diff coverage for now
   - f/u cultures
   - F/u Neuro and ID recs
   - wlll discontinue standing D51/2 NS and closely monitor finger sticks
   - plan for EEG today to assess for seizure activity, for now will
   continue standing ativan and keppra
   Anoxic Brain Injury/Seizures:  Neurologic exam worsening since arrest.
   Initially concerned for herniation but CT head and MRI showed no
   significant progression since prior studies.  Given right gaze
   preference and hyperreflexia on the right there is continued concern
   for seizures.  He is receiving standing ativan and keppra with plans
   for EEG today.
   - continue keppra [**2122**] mg [**Hospital1 **] change to IV
   - standing ativan 2 mg Q4H change to IV
   - maintain SBP < 180
   - EEG today
   - appreciate neurologic consult
   Hypertension: Patient was significantly hypertensive in the setting of
   receiving epinephrine in the code setting.  Now blooid pressures in the
   low 100s systolic.
   - Standing ativan for possible seizure
   - Hydral prn for SBP >180
   Hypoglycemia:  During PEA arrest patinet was noted to have a blood
   glucose in the 20s in the setting of holding tube feeds and receiving
   regular dose standing lantus.  Standing lantus now discontinued and on
   a cautious sliding scale.
   - Hold glargine for now with liberal ISS
   - will discontinue D51/2 NS
   - QID finger sticks
   - treat infection
   - trend lactate
   Hypercalcemia: Unclear etiology, but most likely secondary to bone
   turnover.  Labs notable for elevated serum calcium and low PTH.  Seen
   by endocrine consult service who recommended starting calcitonin.
   - will transition to normal saline today @ 150 cc/hr
   - [**Hospital1 **] electrolytes
   - continue calcitonin
   - holding lasix for fluctuating blood pressure
   - if no improvement in calcium will consider pamidronate
   - SPEP pending
   Low grade fever/leukocytosis: Unclear etiology.  Leukocytosis with
   significant improvement over past 24 hours. Patient with
 positive
   blood cultures from code with gram positive cocci in clusters,
   speciation pending.  Also has exam concerning for new pneumonia.
   Pancreatitis has been of concern but his imaging has shown stable
   pseudocyts.  Although patient is c. diff negative x 3, he continues on
   empiric treatment pending B-toxin assay.  Also on treatmnet for UTI.
   - linezolid, aztreonam, cipro day [**2-11**] for VAP
   - follow blood cultures
   - bactrim for UTI started day [**4-10**]
   - continue empiric treatment fo clostridium difficile pending B-toxin
   assay
   - plans for pancreatic fluid collection drainage on hold for now
   - will trend amylase and lipase
   - follow ID recs
   - d/c femoral line today
   - consider repeat CT scan for reassessment
   Diarrhea/Bowel thickening: CT showed stable bowel thickening; C diff
   was negative multiple times but recommendation per ID to treat
   empirically for C. diff
   - monitor and keep hydrated
   - C. diff stool cytotoxicity assay pending
   - f/u ID, GI recs
   Pancreatitis:  Patient with severe pancreatitis earlier in course of
   critical illness with pseudocyst formation.  On admission patient with
   mild elevation of his transaminases.
   - trending pancreatic enzymes
   - currently receiving feeds via [**Last Name (LF) 1939**], [**First Name3 (LF) **] need to consider
   repositioning
   UTI: Bactrim sensitive Sternotrophomonas
   - continue bactrim for now although likely sensitive to aztreonam as
   well day [**4-10**]
   - f/u ID recs
   SMV thrombus: Thrombus may be related to pancreatitis and inflamation
   in area. LENIs negative.  Heparin gtt held yesterday given concern for
   worsening neurologic exam.
   - restart heparin gtt
   ICU Care
   Nutrition:
   Comments: IVF as above, replete electrolytes, d/c tube feeds for high
   residuals
   Glycemic Control: Regular insulin sliding scale
   Lines:
   PICC Line - [**2131-7-20**] 04:06 AM
   Multi Lumen - [**2131-7-20**] 04:07 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: HCP is brother [**Name (NI) **] ([**Telephone/Fax (1) 7771**] C).
   Code status: Full code
   Disposition: ICU

2131-07-21 13:36:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   28 m w/ h/o hepatitis and pancreatitis c/b pseudocyst , hypoxic
   encephalopathy c/b seizures, and recent prolonged hospitialization,
   readmitted for recalcitrant seizures, s/p PEA arrest 36 hours ago on
   the medical floor.
   24 Hour Events:
 SPUTUM CULTURE - At [**2131-7-20**] 10:29 AM
 STOOL CULTURE - At [**2131-7-20**] 10:29 AM
 BRONCHOSCOPY - At [**2131-7-20**] 11:15 AM
 ULTRASOUND - At [**2131-7-20**] 01:05 PM
   LLE - negative for DVT
 MAGNETIC RESONANCE IMAGING - At [**2131-7-20**] 03:00 PM
   Hypotensive yesterday, 7L.
   Seen by neurology
   Bronchoscopy w/ thick secretions and boggy airways.
   Heparin gtt held awaiting MRI read, now re-started
   Endocrine consulted for hypercalcemia
   Started on linezolid, aztreonam, and cipro
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Ciprofloxacin - [**2131-7-20**] 12:09 PM
   Linezolid - [**2131-7-20**] 02:00 PM
   Vancomycin - [**2131-7-20**] 02:00 PM
   Aztreonam - [**2131-7-21**] 04:07 AM
   Bactrim (SMX/TMP) - [**2131-7-21**] 08:00 AM
   Infusions:
   Heparin Sodium - 1,800 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2131-7-21**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-7-21**] 11:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.6
C (99.7
   HR: 123 (104 - 125) bpm
   BP: 126/55(72) {79/34(45) - 126/87(94)} mmHg
   RR: 21 (14 - 31) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
             Total In:
                                                                  7,036 mL
                                                                  2,446 mL
   PO:
             TF:
   IVF:
                                                                  6,826 mL
                                                                  2,356 mL
   Blood products:
   Total out:
                                                                  2,685 mL
                                                                  1,245 mL
   Urine:
                                                                  2,685 mL
                                                                  1,115 mL
   NG:
   130 mL
   Stool:
   Drains:
   Balance:
                                                                  4,351 mL
                                                                  1,201 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (400 - 550) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 105
   PIP: 19 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: ///17/
   Ve: 12.5 L/min
   Physical Examination
   General: Does not follow commands.
   HEENT: PERRL, random nystagmus, does not track.  Trach site clean.
   Cardiac: Regular S1,S2. No m/r/g
   Lungs: Anteriorly CTA
   Abd: +BS. Soft, NT. ND.
   R femoral line site, PICC site c/d/i.
   Ext: 2+ distal pulses.
   Skin: Multiple skin tears, of medial upper LE b/l, currently dressed
   3+ LE edema, diffuse anasarca.
   Labs / Radiology
   7.5 g/dL
   556 K/uL
   180 mg/dL
   1.0 mg/dL
   17 mEq/L
   4.2 mEq/L
   17 mg/dL
   110 mEq/L
   134 mEq/L
   24.9 %
   14.1 K/uL
        [image002.jpg] MRI head
 significant vol loss
   GPC in clusters
   BAL: 4+ GPC
                             [**2131-7-20**]  03:41 AM
                             [**2131-7-20**]  03:50 AM
                             [**2131-7-20**]  02:31 PM
                             [**2131-7-21**]  03:18 AM
   WBC
   25.7
   14.1
   Hct
   28.8
   24.9
   Plt
   595
   556
   Cr
   1.0
   1.0
   1.0
   TropT
   0.10
   Glucose
   74
   70
   131
   180
   Other labs: PT / PTT / INR:16.8/31.0/1.5, CK / CKMB /
   Troponin-T:33//0.10, ALT / AST:30/64, Alk Phos / T Bili:126/1.1,
   Amylase / Lipase:208/414, Lactic Acid:2.4 mmol/L, Albumin:2.2 g/dL,
   Ca++:10.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   PEA arrest - ? mucus plugging and acute hypoxia.   Telemetry without
   events when occurred.  Given rapid improvement and secretions on
   bronch, seems less likely PE (now on anticoagulation for SMV
   thrombus).
   HCAP
 linezolid/aztreonam/cipro for 8 days.  WBCC dramatically
   reduced.
   UTI
 Stenotrophomonas, 7 days bactrim for complicated UTI.
   Bacteremia
 GPC, will need minimum of 14 d depending on source.
   awaiting speciation.
   C.diff
 on p.o. vanc, diagnosed based on CT findings.
   Mental status
 MS has been poor post-anoxic, but slight improvement
   this afternoon with pt squeezing hands.  EEG results pending.
   Neurology continues to follow.  CT/MRI unchanged.
   Keppra increased.   Klonopin dc
   Hypotension?
 intermittently requiring fluid resuscitation yesterday
   with concerns for either early sepsis vs recovery from PEA (acidosis).-
   now improving. Will continue to fluid resuscitate as required
   Hypercalcemia- likely [**2-5**] bone turnover. Would prefer holding further
   IVF at this time given stable BP.  Plan to d/w endocrine, re:
   pamidronate in addition to.sq calcitonin.
   Pancreatitis c/b pseudocyst
 somewhat enlarged are last CT, will need
   further consideration for definitive therapy when more stable.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2131-7-20**] 04:06 AM
   Multi Lumen - [**2131-7-20**] 04:07 AM
   Prophylaxis:
   DVT: anticoag
   Stress ulcer:  PPI
   VAP: Bundle
   Comments:
   Communication:  Comments:  with father at bedside
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Pt is critically ill

2131-07-22 06:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EEG - At [**2131-7-21**] 10:12 AM
   continuous monitoring.
 MULTI LUMEN - STOP [**2131-7-21**] 06:00 PM
 BLOOD CULTURED - At [**2131-7-21**] 06:00 PM
   from R ant PICC.
 BLOOD CULTURED - At [**2131-7-21**] 06:00 PM
   from R fem TLC. Also  removed TLC and sent tip for cx.
   - Hypercalcemia corrected with calcitonin
   - Keppra and ativan changed to IV as his residuals from NG meds were
   250cc and he has minimal bowel sounds
   - 2/4 bottles positive for GPCs in clusters, both drawn from femoral
   line.  PICC cx still pending.
   - Drew 2 more cx from fem and PICC, pulled fem line, and sent it for
   cx.
   - Will wait for speciation of blood cx prior to re-siting access.
   - MRI final read without change from prior
   - Neurology did not leave recs
   - ID: d/c PO Vanc as c. diff negative multiple times.  Favor pulling
   both PICC and Fem line.
   - Non-gap acidosis worsened in the setting of IV NS -> d/c'ed when
   calcium normalized.
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Vancomycin - [**2131-7-21**] 12:00 PM
   Bactrim (SMX/TMP) - [**2131-7-21**] 08:12 PM
   Ciprofloxacin - [**2131-7-22**] 12:12 AM
   Linezolid - [**2131-7-22**] 02:11 AM
   Aztreonam - [**2131-7-22**] 04:00 AM
   Infusions:
   Heparin Sodium - 1,800 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2131-7-21**] 08:13 PM
   Lorazepam (Ativan) - [**2131-7-22**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-7-22**] 06:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.5
C (99.5
   HR: 120 (120 - 133) bpm
   BP: 130/63(80) {107/46(62) - 132/91(100)} mmHg
   RR: 21 (17 - 30) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
             Total In:
                                                                  4,035 mL
                                                                    520 mL
   PO:
             TF:
   IVF:
                                                                  3,825 mL
                                                                    460 mL
   Blood products:
   Total out:
                                                                  2,435 mL
                                                                    850 mL
   Urine:
                                                                  2,035 mL
                                                                    800 mL
   NG:
                                                                    400 mL
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  1,600 mL
                                                                   -330 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 558 (468 - 638) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 87
   PIP: 17 cmH2O
   Plateau: 14 cmH2O
   SpO2: 99%
   ABG: ///13/
   Ve: 15.8 L/min
   Physical Examination
   General: Not responsive to voice or painful stimuli
   HEENT: MMM, oropharynx clear, no gaze preference
   Neck: +trach, supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation b/l anteriorly, no wheezes, rales, rhonchi
   CV: Tachycardic, regular, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: Soft, bowel sounds present, no organomegaly
   GU: Foley
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Skin: Bullae, mostly resolved
   Neuro: Not responsive to voice or painful stimuli. Diffuse clonus most
   pronounced in RUE.  PERRL.
   Labs / Radiology
   536 K/uL
   7.5 g/dL
   131 mg/dL
   0.8 mg/dL
   13 mEq/L
   4.6 mEq/L
   16 mg/dL
   109 mEq/L
   133 mEq/L
   24.6 %
   17.5 K/uL
        [image002.jpg]
                             [**2131-7-20**]  03:41 AM
                             [**2131-7-20**]  03:50 AM
                             [**2131-7-20**]  02:31 PM
                             [**2131-7-21**]  03:18 AM
                             [**2131-7-21**]  03:02 PM
                             [**2131-7-22**]  03:17 AM
   WBC
   25.7
   14.1
   15.7
   17.5
   Hct
   28.8
   24.9
   23.5
   24.6
   Plt
   595
   556
   534
   536
   Cr
   1.0
   1.0
   1.0
   0.9
   0.8
   TropT
   0.10
   Glucose
   74
   70
   131
   180
   172
   131
   Other labs: PT / PTT / INR:19.8/118.1/1.8, CK / CKMB /
   Troponin-T:33//0.10, ALT / AST:33/41, Alk Phos / T Bili:113/0.9,
   Amylase / Lipase:85/141, Lactic Acid:2.0 mmol/L, Albumin:2.2 g/dL,
   Ca++:9.8 mg/dL, Mg++:1.5 mg/dL, PO4:4.4 mg/dL
   Type:[**Last Name (un) **]
   freeCa:1.39
   Lactate:2.0
   pH:7.39
   [**7-21**] Blood and cath tip cx pending
[**2131-7-20**] 3:48 am BLOOD CULTURE      FROM RIGHT GROIN PICC LINE.
   Blood Culture, Routine (Preliminary):
      GRAM POSITIVE COCCUS(COCCI).    IN CLUSTERS.
   Aerobic Bottle Gram Stain (Final [**2131-7-21**]):
      REPORTED BY PHONE TO DR. [**Last Name (STitle) **] [**Last Name (NamePattern4) **] ON [**2131-7-21**] AT 0030.
      GRAM POSITIVE COCCI IN CLUSTERS.
[**2131-7-20**] 11:15 am BRONCHOALVEOLAR LAVAGE
   GRAM STAIN (Final [**2131-7-20**]):
      3+  (5-10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                   IN PAIRS AND CLUSTERS.
   RESPIRATORY CULTURE (Preliminary):
      ? OROPHARYNGEAL FLORA.
      GRAM NEGATIVE ROD(S).    >100,000 ORGANISMS/ML..
         GRAM NEGATIVE ROD #2.    >100,000 ORGANISMS/ML..
[**2131-7-20**] 10:08 am SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2131-7-20**]):
      >25 PMNs and <10 epithelial cells/100X field.
      4+   (>10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                   IN PAIRS.
   RESPIRATORY CULTURE (Preliminary):
      ? OROPHARYNGEAL FLORA.
         GRAM NEGATIVE ROD(S).    SPARSE GROWTH.
   .
   MRI HEAD: Final read:
   IMPRESSION: No significant interval change compared to [**2131-7-16**]
   MRI. No
   new focus of ischemia
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 LEUKOCYTOSIS
 ANOXIC BRAIN DAMAGE (ANOXIC ENCEPHALOPATHY, HYPOXIC ISCHEMIC)
 PANCREATITIS, ACUTE
   Necrotizing Pancreatitis
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 HYPOTENSION (NOT SHOCK)
   28 yo man with h/o recent admission with complicated hospital course
   readmitted for seizures, c/b SMV thrombus, UTI, and increasing
   WBC/lipase, now transferred to MICU s/p PEA arrest.
   PEA arrest:  Most likely related to mucous plugging and associated
   hypoxia.  [**Month (only) 8**] also have been exacerbated by hypoglycemia.  Post-arrest
   he had copious secretions.  Bronchoscopy with edematous airways,
   cultures pending.  CXR post-arrest also concerning for new infiltrate
   in RLL.
   - monitor on telemetry and continuous oxygen monitoring
   - Frequent suctioning prn
   - linezolid, aztrenoman and ciprofloxacin day [**3-11**] for VAP
   - Cont bactrim for UTI
   - d/c
ed po vanc as no evidence for C diff
   - f/u cultures
   - F/u Neuro and ID recs
   - wlll discontinue standing D51/2 NS and closely monitor finger sticks
   - plan for EEG today to assess for seizure activity, for now will
   continue standing ativan and keppra
   Anoxic Brain Injury/Seizures:  Neurologic exam worsening since arrest.
   Initially concerned for herniation but CT head and MRI showed no
   significant progression since prior studies.  Given right gaze
   preference and hyperreflexia on the right there is continued concern
   for seizures.  He is receiving standing ativan and keppra with plans
   for EEG today.
   - continue keppra [**2122**] mg [**Hospital1 **] change to IV
   - standing ativan 2 mg Q4H change to IV
   - maintain SBP < 180
   - EEG today
   - appreciate neurologic consult
   Hypertension: Patient was significantly hypertensive in the setting of
   receiving epinephrine in the code setting.  Now blooid pressures in the
   low 100s systolic.
   - Standing ativan for possible seizure
   - Hydral prn for SBP >180
   Hypoglycemia:  During PEA arrest patinet was noted to have a blood
   glucose in the 20s in the setting of holding tube feeds and receiving
   regular dose standing lantus.  Standing lantus now discontinued and on
   a cautious sliding scale.
   - Hold glargine for now with liberal ISS
   - will discontinue D51/2 NS
   - QID finger sticks
   - treat infection
   - trend lactate
   Hypercalcemia: Unclear etiology, but most likely secondary to bone
   turnover.  Labs notable for elevated serum calcium and low PTH.  Seen
   by endocrine consult service who recommended starting calcitonin.
   - no IVF for now
   - [**Hospital1 **] electrolytes
   - continue calcitonin
   - holding lasix for fluctuating blood pressure
   - if no improvement in calcium will consider pamidronate
   - SPEP pending
   Low grade fever/leukocytosis: Unclear etiology.  Leukocytosis with
   significant improvement over past 24 hours. Patient with
 positive
   blood cultures from code with gram positive cocci in clusters,
   speciation pending.  Also has exam concerning for new pneumonia.
   Pancreatitis has been of concern but his imaging has shown stable
   pseudocyts.  Although patient is c. diff negative x 3, he continues on
   empiric treatment pending B-toxin assay.  Also on treatmnet for UTI.
   - linezolid, aztreonam, cipro day [**2-11**] for VAP
   - follow blood cultures
   - bactrim for UTI started to end on [**2131-7-25**]
   - continue empiric treatment fo clostridium difficile pending B-toxin
   assay
   - plans for pancreatic fluid collection drainage on hold for now
   - will trend amylase and lipase
   - follow ID recs
   - d/c femoral line today
   - consider repeat CT scan for reassessment
   Diarrhea/Bowel thickening: CT showed stable bowel thickening; C diff
   was negative multiple times so stopped PO vanc per ID
   - monitor and keep hydrated
   - C. diff stool cytotoxicity assay pending
   - f/u ID, GI recs
   Pancreatitis:  Patient with severe pancreatitis earlier in course of
   critical illness with pseudocyst formation.  On admission patient with
   mild elevation of his transaminases.
   - trending pancreatic enzymes
   - currently receiving feeds via [**Last Name (LF) 1939**], [**First Name3 (LF) **] need to consider
   repositioning
   UTI: Bactrim sensitive Sternotrophomonas
   - continue bactrim for now although likely sensitive to aztreonam as
   well to end on [**2131-7-25**]
   - f/u ID recs
   SMV thrombus: Thrombus may be related to pancreatitis and inflamation
   in area. LENIs negative.  Heparin gtt held intiallygiven concern for
   worsening neurologic exam.
   - continue heparin gtt
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2131-7-20**] 04:06 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2131-07-22 09:48:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   28 yo man with h/o recent admission with complicated hospital course
   readmitted for seizures, c/b SMV thrombus, UTI, and increasing [**Hospital 7830**]
   transferred to MICU s/p PEA arrest.
   24 Hour Events:
 EEG - At [**2131-7-21**] 10:12 AM
   continuous monitoring.
 MULTI LUMEN - STOP [**2131-7-21**] 06:00 PM
 BLOOD CULTURED - At [**2131-7-21**] 06:00 PM
   from R ant PICC.
 BLOOD CULTURED - At [**2131-7-21**] 06:00 PM
   from R fem TLC. Also  removed TLC and sent tip for cx.
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Vancomycin - [**2131-7-21**] 12:00 PM
   Ciprofloxacin - [**2131-7-22**] 12:12 AM
   Linezolid - [**2131-7-22**] 02:11 AM
   Aztreonam - [**2131-7-22**] 04:00 AM
   Bactrim (SMX/TMP) - [**2131-7-22**] 08:00 AM
   Infusions:
   Heparin Sodium - 1,650 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2131-7-22**] 08:00 AM
   Lorazepam (Ativan) - [**2131-7-22**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-7-22**] 09:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.4
C (99.4
   HR: 124 (120 - 133) bpm
   BP: 125/65(79) {107/48(64) - 132/91(100)} mmHg
   RR: 19 (17 - 30) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
             Total In:
                                                                  4,035 mL
                                                                    790 mL
   PO:
             TF:
   IVF:
                                                                  3,825 mL
                                                                    670 mL
   Blood products:
   Total out:
                                                                  2,435 mL
                                                                  1,170 mL
   Urine:
                                                                  2,035 mL
                                                                  1,120 mL
   NG:
                                                                    400 mL
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  1,600 mL
                                                                   -380 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 512 (468 - 638) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 87
   PIP: 18 cmH2O
   Plateau: 17 cmH2O
   SpO2: 99%
   ABG: ///13/
   Ve: 11.3 L/min
   Physical Examination
   General: Able to squeeze hands to command.
   HEENT: PERRL, random nystagmus, does not track.  OP w/o oral lesions.
   Trach site clean.
   Cardiac: Regular S1,S2. No m/r/g
   Lungs: Anteriorly CTA
   Abd: +BS. Soft, NT. ND.
   R femoral line site, PICC site c/d/i.
   Ext: 2+ distal pulses.
   Skin: Multiple skin tears, of medial upper LE b/l, currently dressed.
   [**Doctor Last Name **] erythematous blanching rash of b/l upper ext.
   3+ LE edema, diffuse anasarca.
   Neurologic: Alert, interactive.
   Labs / Radiology
   7.5 g/dL
   536 K/uL
   131 mg/dL
   0.8 mg/dL
   13 mEq/L
   4.6 mEq/L
   16 mg/dL
   109 mEq/L
   133 mEq/L
   24.6 %
   17.5 K/uL
        [image002.jpg]
                             [**2131-7-20**]  03:41 AM
                             [**2131-7-20**]  03:50 AM
                             [**2131-7-20**]  02:31 PM
                             [**2131-7-21**]  03:18 AM
                             [**2131-7-21**]  03:02 PM
                             [**2131-7-22**]  03:17 AM
   WBC
   25.7
   14.1
   15.7
   17.5
   Hct
   28.8
   24.9
   23.5
   24.6
   Plt
   595
   556
   534
   536
   Cr
   1.0
   1.0
   1.0
   0.9
   0.8
   TropT
   0.10
   Glucose
   74
   70
   131
   180
   172
   131
   Other labs: PT / PTT / INR:19.8/118.1/1.8, CK / CKMB /
   Troponin-T:33//0.10, ALT / AST:33/41, Alk Phos / T Bili:113/0.9,
   Amylase / Lipase:85/141, Lactic Acid:2.0 mmol/L, Albumin:2.2 g/dL,
   Ca++:9.8 mg/dL, Mg++:1.5 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   28 yo man with h/o recent admission with complicated hospital course
   (admitted [**5-17**] w/ pancreatitis c/b pseudocyst, ARDS and resp failure,
   w/ PEA arrest on [**6-11**], subsequent hypoxic encepholpathy and sz d/o),
   readmitted for seizures on [**7-9**] , c/b SMV thrombus, UTI, and increasing
   WBC/lipase, now transferred to MICU s/p PEA arrest on [**7-19**].
   1. HCAP
 linezolid/aztreonam/cipro for 8 days.  WBCC dramatically
   reduced.  Pseudomonas growing from BAL.  Given two separate colonies,
   seems reasonable to continue both aztreonam and cipro.
   2. Bacteremia
 GPC, will need minimum of 14 d depending on source.
   awaiting speciation.  Plan to continue linezolid x 48h after
   surveillance cx
s neg.
   3. Rash
 concerning for drug eruption.  No evidence of SJS.   Seems
   less likely anticonvulsant hypersensitivity but keppra dose was
   recently changes.  We have stopped the bactrim (after 5 days).
   4.  UTI
 Stenotrophomonas, now growing from second urine culture.
   Will need to discuss further therapy w/ ID. .
   5.  PEA arrest - ? mucus plugging and acute hypoxia.   Telemetry
   without events when occurred.  Given rapid improvement and secretions
   on bronch, seems less likely PE (now on anticoagulation for SMV
   thrombus).
   6.  Mental status
 Mild improvement follows commands, tracks.  EEG
   results pending. Neurology continues to follow.  CT/MRI unchanged.
   Keppra increased.   Klonopin dc
   7.  Hypercalcemia- likely [**2-5**] bone turnover.  IVF held.  Plan to d/w
   endocrine, re: pamidronate in addition to.sq calcitonin if Ca
   increases.
   8.  Pancreatitis c/b pseudocyst
 somewhat enlarged on last CT.
   Discussed w/ Dr. [**Last Name (STitle) 6237**], no intervention currently indicated Pancreatic
   enzymes trending down.
   ICU Care
   Nutrition: Plan to re-start TFs today.
   FEN: has been autodiuresing, goal -500cc TBB.
   Glycemic Control:  ISS, watch sugars.
   Lines:
   PICC Line - [**2131-7-20**] 04:06 AM
   Prophylaxis:
   DVT:  Heparin PPx
   Stress ulcer:  H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:
   ------ Protected Section ------
   I was physically present with the resident team for discussion of the
   above findings and independently examined the patient.  I would agree
   with the findings as described above and would add the following
   comments.
   Patient with prolonged hospital course with initial presentation with
   pancreatitis and now with recurrent PEA arrest and ICU admission.
   -Current active issues to be managed as follows
   1)Respiratory Failure-Continue Linezolid/Aztreonam/Cipro
                                     -Move to wean ventilatory support
                                     -Will move to negative fluid balance
   as possible
   2)Altered Mental Status-Patient able to move all extremities, not
   following commands to my exam
                                     -Follow neuro exam and minimize
   sedation as possible.
   3)Seizure Disorder-Continue with EEG and Keppra/Ativan
   4)Rash
Patient with new rash
macular without blistering/bullae
   formation and no mucosal lesions.
   Critical Care Time-35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2131-7-22**] 16:11 ------

2131-07-23 07:07:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2131-7-23**] 04:08 AM
   - Discontinued bactrim given rash. Diff with 8% eos. Added levoflox to
   Sternotrophomonas sensitivities.
   - Sputum growing pseudomonas. Aztreonam added to sensitivities.
   - Bcx still unspeciated.
   - Placed on PS.
   - Endo: Cont calcitonin.
   - Neuro: No specific findings on EEG yet, cont current meds and
   monitoring.
   - Na decreasing from 133 -> 130. Free water flushes stopped.
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Vancomycin - [**2131-7-21**] 12:00 PM
   Bactrim (SMX/TMP) - [**2131-7-22**] 08:00 AM
   Ciprofloxacin - [**2131-7-23**] 12:01 AM
   Linezolid - [**2131-7-23**] 01:48 AM
   Aztreonam - [**2131-7-23**] 04:03 AM
   Infusions:
   Heparin Sodium - 1,400 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2131-7-22**] 08:14 PM
   Lorazepam (Ativan) - [**2131-7-23**] 04:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-7-23**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.4
C (97.5
   HR: 111 (110 - 128) bpm
   BP: 130/71(85) {105/50(63) - 143/87(93)} mmHg
   RR: 19 (19 - 27) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
             Total In:
                                                                  1,915 mL
                                                                    541 mL
   PO:
             TF:
                                                                    151 mL
                                                                     93 mL
   IVF:
                                                                  1,454 mL
                                                                    449 mL
   Blood products:
   Total out:
                                                                  3,060 mL
                                                                  1,040 mL
   Urine:
                                                                  2,690 mL
                                                                    940 mL
   NG:
                                                                    370 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,145 mL
                                                                   -499 mL
   Respiratory support
   O2 Delivery Device: Trach mask , Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 787 (472 - 787) mL
   PS : 12 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 59
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: ///13/
   Ve: 12.8 L/min
   Physical Examination
   General: Not responsive to voice or painful stimuli
   HEENT: MMM, oropharynx clear, no gaze preference
   Neck: +trach, supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation b/l anteriorly, no wheezes, rales, rhonchi
   CV: Tachycardic, regular, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: Soft, bowel sounds present, no organomegaly
   GU: Foley
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Skin: Macular erythematous rash now b/l UE; Bullae, mostly resolved
   Neuro: Not responsive to voice or painful stimuli. Diffuse clonus most
   pronounced in RUE.  PERRL.
   Labs / Radiology
   513 K/uL
   7.4 g/dL
   134 mg/dL
   0.7 mg/dL
   13 mEq/L
   4.5 mEq/L
   15 mg/dL
   109 mEq/L
   132 mEq/L
   24.8 %
   15.1 K/uL
        [image002.jpg]
                             [**2131-7-20**]  03:41 AM
                             [**2131-7-20**]  03:50 AM
                             [**2131-7-20**]  02:31 PM
                             [**2131-7-21**]  03:18 AM
                             [**2131-7-21**]  03:02 PM
                             [**2131-7-22**]  03:17 AM
                             [**2131-7-22**]  04:00 PM
                             [**2131-7-23**]  03:34 AM
   WBC
   25.7
   14.1
   15.7
   17.5
   15.1
   Hct
   28.8
   24.9
   23.5
   24.6
   24.8
   Plt
   595
   556
   534
   536
   513
   Cr
   1.0
   1.0
   1.0
   0.9
   0.8
   0.8
   0.7
   TropT
   0.10
   Glucose
   74
   70
   131
   180
   172
   131
   174
   134
   Other labs: PT / PTT / INR:19.0/75.4/1.7, CK / CKMB /
   Troponin-T:33//0.10, ALT / AST:33/41, Alk Phos / T Bili:113/0.9,
   Amylase / Lipase:85/149, Differential-Neuts:68.3 %, Band:0.0 %,
   Lymph:17.1 %, Mono:5.6 %, Eos:8.4 %, Lactic Acid:2.0 mmol/L,
   Albumin:2.2 g/dL, Ca++:10.3 mg/dL, Mg++:1.8 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   28 yo man with h/o recent admission with complicated hospital course
   readmitted for seizures, c/b SMV thrombus, UTI, and increasing
   WBC/lipase, now transferred to MICU s/p PEA arrest.
   PEA arrest: Most likely related to mucous plugging and associated
   hypoxia from pneumonia given copious secretions and RLL infiltrate on
   post-arrest CXR. [**Month (only) 8**] have been exacerbated by worsened mental status
   from hypoglycemia. Bronchoscopy with edematous airways; BAL cx growing
   GNR. GPC in [**2-7**] bottles from fem line likely contaminant; Femoral line
   removed.
   - monitor on telemetry and continuous oxygen monitoring
   - frequent suctioning prn
   - switching aztreonam to tobramycin; cont cipro for [**Last Name (LF) 3005**], [**First Name3 (LF) 124**] complete
   8 d course
   - cont linezolid until GPCs speciated
   - stopped bactrim for UTI
   - off po vanc as no evidence for C diff although cytotoxicity assay
   still pending
   - f/u cultures
   - f/u ID recs
   - closely monitor finger sticks
   - cont standing ativan and keppra while EEG pending, although widened
   interval btw ativan to q6hrs from q4hrs
   Anoxic Brain Injury/Seizures:  Neurologic exam worsening since arrest.
   Initially concerned for herniation but CT head and MRI showed no
   significant progression since prior studies.  Given right gaze
   preference and hyperreflexia on the right there is continued concern
   for seizures.  He is receiving standing ativan and keppra pending EEG
   results.
   - no evidence of seizures yet
   - cont keppra [**2122**] mg [**Hospital1 **] IV
   - change ativan to q 6hrs, consider change to clonazepam in future per
   neuro recs
   - maintain SBP < 180
   - f/u EEG
   - f/u neuro recs
   Hypoglycemia:  During PEA arrest, patient was noted to have a blood
   glucose in the 20s in the setting of holding tube feeds and receiving
   regular dose standing lantus.  Standing lantus now discontinued and on
   a cautious sliding scale.
   - Hold glargine for now with liberal ISS
   - QID finger sticks
   - treat infection
   Hypercalcemia: Unclear etiology, but most likely secondary to bone
   turnover from being immobile and poor kidney excretion.  Labs notable
   for elevated serum calcium and low PTH.  Started on calcitonin per Endo
   recs.
   - appreciate Endo recs
   - [**Hospital1 **] electrolytes
   - increased dose of calcitonin and started pamidronate today, expect
   pamidronate to take about 4 days to work and can try to taper off the
   calcitonin during this time frame
   - f/u SPEP
   Low grade fever/leukocytosis: Leukocytosis stable. Likely [**2-5**] [**Month/Day (2) 3005**] with
   BAL cx growing GNR.  Also with 2 of 4 bcx growing GPC, which may
   represent contamination. Continuing tx for Sternotrophomonas UTI.  C.
   diff tx discontinued as assay neg x 3; B-toxin assay pending.
   Pancreatitis has been of concern but his imaging has shown pseudocysts
   but not felt to be infected; LFTs and pancreatic enzymes now improving.
   - 8-day course tobra and cipro for [**Month/Day (2) 3005**]
   - cont linezolid pending speciation of blood cx
   - stopped bactrim
   - off vanc as C. diff neg x 3; f/u cytotoxicity assay
   - no plan for pancreatic fluid collection drainage at this time
   - trend amylase and lipase
   - follow ID recs
   - consider repeat CT scan for reassessment
   Rash: concerning for drug rash
   - d/c bactrim
   GI Residuals: Concern for ileus although pt having BM
   - restart tubefeeds and check residual
   - will start reglan today if there is no interaction with seizure meds
   Diarrhea/Bowel thickening: CT showed stable bowel thickening; C diff
   was negative multiple times so stopped PO vanc per ID
   - monitor and keep hydrated
   - C. diff stool cytotoxicity assay pending
   - f/u ID, GI recs
   Hypertension: Patient was significantly hypertensive in the setting of
   receiving epinephrine in the code setting as well as pronounced clonus,
   ?seizure activity. Now normotensive.
   - Cont keppra with standing ativan for now
   - Hydral prn for SBP >180
   Pancreatitis:  Patient with severe pancreatitis earlier in course of
   critical illness with pseudocyst formation.  On admission patient with
   mild elevation of his transaminases. LFTs and pancreatitic enzymes now
   improving.
   - trending pancreatic enzymes
   - TFs being held in setting of  high residuals
   UTI: Bactrim sensitive Sternotrophomonas
   - continue bactrim for now although likely sensitive to the tobra that
   is being started as well
   SMV thrombus: Thrombus may be related to pancreatitis and inflamation
   in area. LENIs negative.  Heparin gtt held initially given concern for
   worsening neurologic exam but restarted
   - continue heparin gtt
   - changed to lower goal of 50-70 for PTT
   Non gap metabolic acidosis: pH now improving although still
   hyperchloremic
   - Off NS IVF
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2131-7-20**] 04:06 AM
   Prophylaxis:
   DVT: hep gtt
   Stress ulcer: famotidine
   [**Year (4 digits) 3005**]:  being treated
   Comments:
   Communication:  Comments: mom, brother is dermatologist and HCP
   [**Name (NI) 156**] status: Full code
   Disposition: ICU for now

2131-07-23 11:06:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2131-7-23**] 04:08 AM
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Vancomycin - [**2131-7-21**] 12:00 PM
   Bactrim (SMX/TMP) - [**2131-7-22**] 08:00 AM
   Ciprofloxacin - [**2131-7-23**] 12:01 AM
   Linezolid - [**2131-7-23**] 01:48 AM
   Aztreonam - [**2131-7-23**] 04:03 AM
   Infusions:
   Heparin Sodium - 1,400 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2131-7-22**] 08:14 PM
   Lorazepam (Ativan) - [**2131-7-23**] 04:03 AM
   Other medications:
   RISS, folate, MVI, Cipro, Aztreonam, albuterol, ipratropium,
   calcitonin, linezolid, heparin gtt, Keppra, lorazepam,
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-7-23**] 11:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.4
C (97.5
   HR: 112 (108 - 128) bpm
   BP: 133/69(85) {105/50(63) - 143/87(93)} mmHg
   RR: 23 (17 - 27) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
             Total In:
                                                                  1,915 mL
                                                                    592 mL
   PO:
             TF:
                                                                    151 mL
                                                                     93 mL
   IVF:
                                                                  1,454 mL
                                                                    499 mL
   Blood products:
   Total out:
                                                                  3,060 mL
                                                                  1,480 mL
   Urine:
                                                                  2,690 mL
                                                                  1,380 mL
   NG:
                                                                    370 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,145 mL
                                                                   -888 mL
   Respiratory support
   O2 Delivery Device: Trach mask , Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 630 (472 - 787) mL
   PS : 12 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 59
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: ///13/
   Ve: 13.2 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: trach site c/d/i
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.4 g/dL
   513 K/uL
   134 mg/dL
   0.7 mg/dL
   13 mEq/L
   4.5 mEq/L
   15 mg/dL
   109 mEq/L
   132 mEq/L
   24.8 %
   15.1 K/uL
        [image002.jpg]
                             [**2131-7-20**]  03:41 AM
                             [**2131-7-20**]  03:50 AM
                             [**2131-7-20**]  02:31 PM
                             [**2131-7-21**]  03:18 AM
                             [**2131-7-21**]  03:02 PM
                             [**2131-7-22**]  03:17 AM
                             [**2131-7-22**]  04:00 PM
                             [**2131-7-23**]  03:34 AM
   WBC
   25.7
   14.1
   15.7
   17.5
   15.1
   Hct
   28.8
   24.9
   23.5
   24.6
   24.8
   Plt
   595
   556
   534
   536
   513
   Cr
   1.0
   1.0
   1.0
   0.9
   0.8
   0.8
   0.7
   TropT
   0.10
   Glucose
   74
   70
   131
   180
   172
   131
   174
   134
   Other labs: PT / PTT / INR:19.0/80.2/1.7, CK / CKMB /
   Troponin-T:33//0.10, ALT / AST:33/41, Alk Phos / T Bili:113/0.9,
   Amylase / Lipase:85/149, Differential-Neuts:68.3 %, Band:0.0 %,
   Lymph:17.1 %, Mono:5.6 %, Eos:8.4 %, Lactic Acid:2.0 mmol/L,
   Albumin:2.2 g/dL, Ca++:10.3 mg/dL, Mg++:1.8 mg/dL, PO4:4.8 mg/dL
   Imaging: [**7-23**] CXR- low lung volumes, no clear infiltrate
   [**7-23**] KUB- no obstruction
   Microbiology: [**7-20**] Blood- GPCs, cx pending
   [**7-21**], [**7-23**] Blood cx- pending
   [**7-20**] Bronch- pan [**Last Name (un) 46**] Pseudomonas
   [**7-20**] Urine- Stenotrophomonas
   [**7-18**] Urine- Stenotrophomonas
   Assessment and Plan
   28 yo w/ prior heavy EtOH abuse and complications of portal HTN.
   Hypoxic encephalopathy due to PEA arrest in [**6-12**]. Readmitted from rehab
   on [**7-9**] for seizure, found to have SMV thrombus and UTI. Transferred to
   ICU on [**7-19**] for PEA arrest.
   1. s/p PEA arrest- ? mucus plugging and acute hypoxia.   Telemetry
   without events when occurred.  Given rapid improvement and secretions
   on bronch, seems less likely PE (now on anticoagulation for SMV
   thrombus).  cont to monitor.
   2. VAP- linezolid/aztreonam/cipro for 8 days.  Pseudomonas growing from
   BAL.  Given two separate colonies, seems reasonable to continue both
   aztreonam and cipro.
   2. Bacteremia
 GPC, awaiting speciation.  Plan to continue linezolid x
   48h after surveillance cx
s neg.
   3. Rash
 concerning for drug eruption.  No evidence of SJS.   Seems
   less likely anticonvulsant hypersensitivity but keppra dose was
   recently changes.  We have stopped the bactrim (after 5 days).
   4.  UTI
 Stenotrophomonas, now growing from second urine culture.
   Will need to discuss further therapy w/ ID. .
   6.  Mental status
 Mild improvement follows commands, tracks.  EEG
   results pending. Neurology continues to follow.  CT/MRI unchanged.
   Keppra increased.   Klonopin dc
   7.  Hypercalcemia- likely [**2-5**] bone turnover.  IVF held.  Plan to d/w
   endocrine, re: pamidronate in addition to.sq calcitonin if Ca
   increases.
   8.  Pancreatitis c/b pseudocyst
 somewhat enlarged on last CT.
   Discussed w/ Dr. [**Last Name (STitle) 6237**], no intervention currently indicated Pancreatic
   enzymes trending down.
   9. SMV thrombus- heparin gtt for now, eventual coumadin
   ICU Care
   Nutrition:
   Comments: follow residual and resume tube feeds; possible Reglan for
   motility
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2131-7-20**] 04:06 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   ------ Protected Section ------
   I was physically present with the resident team on this date for
   discussion of the above history, exam and assessment and plan with
   which I agree.  I independently examined the patient and would add the
   following comments 28 yo male with pancreatitis, pseudocyst, anoxic
   injury, seizures, hypercalcemia, SMV thrombosis. He was recently
   readmitted to MICU s/p PEA arrest. Active issues have included:
   1. Acute respiratory failure- remains mechanically ventilated but
   tolerating PS ventilation, continue to decrease venitilator support as
   tolerated
   Pan-sensitive Pseudomonas recovered from sputum,
   2. Leukocytosis: followed by ID consult team with Pseudomonas VAP,
   stenotrophomonas UTI. Coag-negative staph recovered  from [**7-20**] blood
   cultures, though no growth yet from surveillance cultures. On
   linezolid/aztreonam/ciprofloxacin. Will continue to adjust abx as
   needed.
   3. Altered mental status- mild improvement over weekend. Spoke with
   neurology consult team with recommendations for resuming Klonipin due
   to EEG abnormalities.
   Pt is critically ill. Total time spent: 40 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 1174**] [**Last Name (NamePattern1) **], MD
   on:[**2131-7-23**] 17:31 ------

2131-07-24 07:48:00 Physician Resident Progress Note
Chief Complaint:
   S/p PEA arrest with anoxic brain injury, s/p trach and peg
   24 Hour Events:
   - changed aztreonam to tobramycin per ID recs
   - cont linezolid, [**7-20**] blood cx with GPCs, [**Last Name (un) 46**] still pending
   - PS weaned from PEEP 12 to 8
   - changed PTT goal for hep gtt to 50-70
   - changed ativan dosing from q4hr to q6hrs per neuro recs, still no
   activity seen on EEG
   - increased calcitonin to 320 mg [**Hospital1 **], added pamidronate x1 with hope to
   wean off calcitonin in next 4 days
   - TFs still being held due to high residuals, added reglan
   - tachy to 120s, up from 110s - given 500 cc bolus
   - had increased secretions
   - bicarb up from 13 to 15 then 13 again in AM
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Vancomycin - [**2131-7-21**] 12:00 PM
   Bactrim (SMX/TMP) - [**2131-7-22**] 08:00 AM
   Ciprofloxacin - [**2131-7-23**] 12:01 AM
   Aztreonam - [**2131-7-23**] 12:41 PM
   Tobramycin - [**2131-7-23**] 05:06 PM
   Linezolid - [**2131-7-24**] 02:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2131-7-23**] 08:40 PM
   Lorazepam (Ativan) - [**2131-7-24**] 06:09 AM
   Other medications:
   Reglan
   Ativan 1mg IVq6
   Calcitonin 320 [**Hospital1 **]
   Heparin Drip
   Tobracyin d1=[**7-23**]
   Keppra 2 g [**Hospital1 **]
   Albuterol/Atrovent
   Linezolid d1+[**2131-7-20**]
   Ciprol 500 [**Hospital1 **] d1 = [**7-20**]
   Albuterol
   ISS
   Famotidine 20 IV q 12
   MVI
   Folate
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-7-24**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 120 (108 - 124) bpm
   BP: 120/59(73) {100/51(56) - 150/86(96)} mmHg
   RR: 24 (19 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 98.8 kg (admission): 99.5 kg
   Height: 71 Inch
             Total In:
                                                                  2,120 mL
                                                                    561 mL
   PO:
             TF:
                                                                     93 mL
   IVF:
                                                                  2,027 mL
                                                                    461 mL
   Blood products:
   Total out:
                                                                  3,800 mL
                                                                    740 mL
   Urine:
                                                                  3,100 mL
                                                                    740 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,680 mL
                                                                   -179 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 591 (21 - 630) mL
   PS : 8 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 87
   PIP: 14 cmH2O
   SpO2: 100%
   ABG: ///13/
   Ve: 11.6 L/min
   Physical Examination
   Labs / Radiology
   516 K/uL
   7.3 g/dL
   180 mg/dL
   0.6 mg/dL
   13 mEq/L
   4.4 mEq/L
   11 mg/dL
   109 mEq/L
   132 mEq/L
   24.3 %
   15.6 K/uL
        [image002.jpg]
                             [**2131-7-20**]  03:41 AM
                             [**2131-7-20**]  03:50 AM
                             [**2131-7-20**]  02:31 PM
                             [**2131-7-21**]  03:18 AM
                             [**2131-7-21**]  03:02 PM
                             [**2131-7-22**]  03:17 AM
                             [**2131-7-22**]  04:00 PM
                             [**2131-7-23**]  03:34 AM
                             [**2131-7-23**]  10:32 PM
                             [**2131-7-24**]  04:20 AM
   WBC
   25.7
   14.1
   15.7
   17.5
   15.1
   15.6
   Hct
   28.8
   24.9
   23.5
   24.6
   24.8
   24.3
   Plt
   595
   556
   534
   536
   513
   516
   Cr
   1.0
   1.0
   1.0
   0.9
   0.8
   0.8
   0.7
   0.6
   0.6
   TropT
   0.10
   Glucose
   74
   70
   131
   180
   172
   131
   174
   134
   120
   180
   Other labs: PT / PTT / INR:19.7/64.1/1.8, CK / CKMB /
   Troponin-T:33//0.10, ALT / AST:23/33, Alk Phos / T Bili:107/0.9,
   Amylase / Lipase:85/272, Differential-Neuts:64.0 %, Band:1.0 %,
   Lymph:18.0 %, Mono:3.0 %, Eos:13.0 %, Lactic Acid:2.0 mmol/L,
   Albumin:2.2 g/dL, LDH:292 IU/L, Ca++:11.4 mg/dL, Mg++:1.5 mg/dL,
   PO4:3.8 mg/dL
   Assessment and Plan
   28 yo man with h/o recent admission with complicated hospital course
   readmitted for seizures, c/b SMV thrombus, UTI, and increasing
   WBC/lipase, now transferred to MICU s/p PEA arrest.
   PEA arrest: Most likely related to mucous plugging and associated
   hypoxia from pneumonia given copious secretions and RLL infiltrate on
   post-arrest CXR. [**Month (only) 8**] have been exacerbated by worsened mental status
   from hypoglycemia. Bronchoscopy with edematous airways; BAL cx growing
   GNR. GPC in [**2-7**] bottles from fem line likely contaminant; Femoral line
   removed.
   - monitor on telemetry and continuous oxygen monitoring
   - frequent suctioning prn
   - switching aztreonam to tobramycin; cont cipro for [**Last Name (LF) 3005**], [**First Name3 (LF) 124**] complete
   8 d course.  D1 = [**7-23**].
   - cont linezolid until GPCs speciated
   - stopped bactrim for UTI
   - off po vanc as no evidence for C diff although cytotoxicity assay
   still pending
   - f/u cultures
   - f/u ID recs
   - closely monitor finger sticks
   - cont standing ativan and keppra while EEG pending, although widened
   interval btw ativan to q6hrs from q4hrs
   Anoxic Brain Injury/Seizures:  Neurologic exam worsening since arrest.
   Initially concerned for herniation but CT head and MRI showed no
   significant progression since prior studies.  Given right gaze
   preference and hyperreflexia on the right there is continued concern
   for seizures.  He is receiving standing ativan and keppra pending EEG
   results.
   - no evidence of seizures yet
   - cont keppra [**2122**] mg [**Hospital1 **] IV
   - change ativan to q 6hrs, consider change to clonazepam in future per
   neuro recs
   - maintain SBP < 180
   - f/u EEG
   - f/u neuro recs
   Hypoglycemia:  During PEA arrest, patient was noted to have a blood
   glucose in the 20s in the setting of holding tube feeds and receiving
   regular dose standing lantus.  Standing lantus now discontinued and on
   a cautious sliding scale.
   - Hold glargine for now with liberal ISS
   - QID finger sticks
   - treat infection
   Hypercalcemia: Unclear etiology, but most likely secondary to bone
   turnover from being immobile and poor kidney excretion.  Labs notable
   for elevated serum calcium and low PTH.  Started on calcitonin per Endo
   recs.
   - appreciate Endo recs
   - [**Hospital1 **] electrolytes
   - increased dose of calcitonin and started pamidronate today, expect
   pamidronate to take about 4 days to work and can try to taper off the
   calcitonin during this time frame
   - f/u SPEP
   Low grade fever/leukocytosis: Leukocytosis stable. Likely [**2-5**] [**Month/Day (2) 3005**] with
   BAL cx growing GNR.  Also with 2 of 4 bcx growing GPC, which may
   represent contamination. Continuing tx for Sternotrophomonas UTI.  C.
   diff tx discontinued as assay neg x 3; B-toxin assay pending.
   Pancreatitis has been of concern but his imaging has shown pseudocysts
   but not felt to be infected; LFTs and pancreatic enzymes now improving.
   - 8-day course tobra and cipro for [**Month/Day (2) 3005**]
   - cont linezolid pending speciation of blood cx
   - stopped bactrim
   - off vanc as C. diff neg x 3; f/u cytotoxicity assay
   - no plan for pancreatic fluid collection drainage at this time
   - trend amylase and lipase
   - follow ID recs
   - consider repeat CT scan for reassessment
   Rash: concerning for drug rash
   - d/c bactrim
   GI Residuals: Concern for ileus although pt having BM
   - restart tubefeeds and check residual
   - will start reglan today if there is no interaction with seizure meds
   Diarrhea/Bowel thickening: CT showed stable bowel thickening; C diff
   was negative multiple times so stopped PO vanc per ID
   - monitor and keep hydrated
   - C. diff stool cytotoxicity assay pending
   - f/u ID, GI recs
   Hypertension: Patient was significantly hypertensive in the setting of
   receiving epinephrine in the code setting as well as pronounced clonus,
   ?seizure activity. Now normotensive.
   - Cont keppra with standing ativan for now
   - Hydral prn for SBP >180
   Pancreatitis:  Patient with severe pancreatitis earlier in course of
   critical illness with pseudocyst formation.  On admission patient with
   mild elevation of his transaminases. LFTs and pancreatitic enzymes now
   improving.
   - trending pancreatic enzymes
   - TFs being held in setting of  high residuals
   UTI: Bactrim sensitive Sternotrophomonas
   - continue bactrim for now although likely sensitive to the tobra that
   is being started as well
   SMV thrombus: Thrombus may be related to pancreatitis and inflamation
   in area. LENIs negative.  Heparin gtt held initially given concern for
   worsening neurologic exam but restarted
   - continue heparin gtt
   - changed to lower goal of 50-70 for PTT
   Non gap metabolic acidosis: pH now improving although still
   hyperchloremic
   - Off NS IVF
   ICU Care
   Nutrition:
   Comments: Tube feeds are on hold due to high residuals
   Glycemic Control:
   Lines:
   PICC Line - [**2131-7-20**] 04:06 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   [**Year (4 digits) 3005**]:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2131-07-24 11:00:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   ABX adjusted per ID. PSV weaned. Ativan dosing adjusting per Neuro (per
   Neuro has evidence of ongoing seizure activity). IV pamidronate added
   yest per Endo. Reglan added for high residuals.
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Vancomycin - [**2131-7-21**] 12:00 PM
   Bactrim (SMX/TMP) - [**2131-7-22**] 08:00 AM
   Ciprofloxacin - [**2131-7-23**] 12:01 AM
   Aztreonam - [**2131-7-23**] 12:41 PM
   Tobramycin - [**2131-7-23**] 05:06 PM
   Linezolid - [**2131-7-24**] 02:00 AM
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2131-7-24**] 06:09 AM
   Famotidine (Pepcid) - [**2131-7-24**] 08:53 AM
   Other medications:
   MVI, folate, RISS, ciprofloxacin, albuterol, linezolid, Keppra, Ativan
   1 q6, Tobramycin, reglan
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-7-24**] 11:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 118 (113 - 124) bpm
   BP: 129/59(76) {120/51(56) - 150/86(96)} mmHg
   RR: 27 (19 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 98.8 kg (admission): 99.5 kg
   Height: 71 Inch
             Total In:
                                                                  2,119 mL
                                                                    827 mL
   PO:
             TF:
                                                                     93 mL
   IVF:
                                                                  2,026 mL
                                                                    727 mL
   Blood products:
   Total out:
                                                                  3,800 mL
                                                                  1,040 mL
   Urine:
                                                                  3,100 mL
                                                                    940 mL
   NG:
                                                                    300 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,681 mL
                                                                   -213 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 570 (21 - 591) mL
   PS : 8 cmH2O
   RR (Spontaneous): 33
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 87
   PIP: 14 cmH2O
   SpO2: 100%
   ABG: ///13/
   Ve: 14.9 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, R eye ptosis
   Head, Ears, Nose, Throat: Normocephalic, NG tube, trach site c/d/i
   Cardiovascular: (S1: Normal), (S2: Normal), tachy
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, hypoactive bowel sounds, ? upper abd guarding on
   palpation
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Tone: Not assessed
   Labs / Radiology
   7.3 g/dL
   516 K/uL
   180 mg/dL
   0.6 mg/dL
   13 mEq/L
   4.4 mEq/L
   11 mg/dL
   109 mEq/L
   132 mEq/L
   24.3 %
   15.6 K/uL
        [image002.jpg]
                             [**2131-7-20**]  03:41 AM
                             [**2131-7-20**]  03:50 AM
                             [**2131-7-20**]  02:31 PM
                             [**2131-7-21**]  03:18 AM
                             [**2131-7-21**]  03:02 PM
                             [**2131-7-22**]  03:17 AM
                             [**2131-7-22**]  04:00 PM
                             [**2131-7-23**]  03:34 AM
                             [**2131-7-23**]  10:32 PM
                             [**2131-7-24**]  04:20 AM
   WBC
   25.7
   14.1
   15.7
   17.5
   15.1
   15.6
   Hct
   28.8
   24.9
   23.5
   24.6
   24.8
   24.3
   Plt
   595
   556
   534
   536
   513
   516
   Cr
   1.0
   1.0
   1.0
   0.9
   0.8
   0.8
   0.7
   0.6
   0.6
   TropT
   0.10
   Glucose
   74
   70
   131
   180
   172
   131
   174
   134
   120
   180
   Other labs: PT / PTT / INR:19.7/64.1/1.8, CK / CKMB /
   Troponin-T:33//0.10, ALT / AST:23/33, Alk Phos / T Bili:107/0.9,
   Amylase / Lipase:85/272, Differential-Neuts:64.0 %, Band:1.0 %,
   Lymph:18.0 %, Mono:3.0 %, Eos:13.0 %, Lactic Acid:2.0 mmol/L,
   Albumin:2.2 g/dL, LDH:292 IU/L, Ca++:11.4 mg/dL, Mg++:1.5 mg/dL,
   PO4:3.8 mg/dL
   Imaging: [**7-24**] CXR- low lung volumes without clear infiltrate
   [**7-20**] MRI brain- No significant interval change compared to [**2131-7-16**] MRI. No new focus of ischemia.
   Microbiology: Sputum- Pseudomonas
   [**7-20**] Blood- coag neg Staph
   [**7-22**] Blood- neg to date
   Assessment and Plan
   28 yo w/ prior heavy EtOH abuse and complications of portal HTN.
   Hypoxic encephalopathy due to PEA arrest in [**6-12**]. Readmitted from rehab
   on [**7-9**] for seizure, found to have SMV thrombus and UTI. Transferred to
   ICU on [**7-19**] for PEA arrest.
   1. PEA [**Name (NI) 7871**] unclear etiology, poss mucous plugging, bradycardia
   preceding
   -tele monitoring
   2. Anoxic brain injury- c/b seizures. Repeat MRI following [**7-20**] PEA
   arrest without new evidence of injury. Possible additional
   hypoxic/anoxic insult w/ repeat arrest.
   -continuous EEG per Neuro suggesting continued activity
   -Keppra and Ativan, starting phosphenytoin today
   3. Pancreatitis/ Pancreatic psuedocyst- uptrending lipase today w/
   guarding onexam
   -monitor labs, trend lipase and LFTs
   -npo, NGT to suction, change meds to IV
   -re-involve Surgery
   4. Hypoxemic respiratory failure- related to PEA arrest, decreased
   mental status, poss HCAP
   -PSV wean today
   -ABX as below
   5. Pseudomonas HCAP- tx for 8d course w/ tobramycin per ID
   6. Stenotrophomonas UTI- ciprofloxacin pending sensitivities
   7. GPC bacteremia- prob related to groin line which was pulled, repeat
   surveillance cx neg
   -linezolid for now pending ID rec's, could dc after 7d if surveillance
   cx neg as this was a coag neg Staph
   8. Poss Bactrim reaction- eosinophilia and rash
   -monitor off meds, may need to consider additional meds if persistent
   eosinophilia
   9. Hypercalcemia- presumed to be due to immobilization
   -cont calcitonin and pamidronate per Endo
   10. SMV thrombus- heparin gtt for now, eventual coumadin
   remainder of plan as per housestaff note
   ICU Care
   Nutrition:
   Comments: regurgitating NGT contents this am
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2131-7-20**] 04:06 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: will organize a fam mtg w/ SW
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   ------ Protected Section ------
   I was physically present with the MICU housestaff  team on this date
   for discussion of the above history, exam and assessment and plan with
   which I agree.  I independently examined the patient and would add the
   following comments 28 yo male with pancreatitis, pseudocyst, anoxic
   injury, seizures, hypercalcemia, SMV thrombosis. Recent events over the
   past week include a 2nd PEA arrest (possibly due to mucous plug),
   stenotrophomonas UTI, Pseudomonas HCAP, slow neurological recovery.
   Current issues:
   1. Acute respiratory failure: continues mechanical ventilation,
   tolerating PS trials
   2. Fevers/infection: On linezolid, cipro, aztreonam for CoN Staph
   bacteremia (surveillance cx
s negative), Pseudomonas HCAP,
   Stenotrophomonas UTI. No further fevers, still with leukocytosis.
   3. Altered mental status: multifactorial, with recent arrest, fevers,
   seizures, hypercalcemia. Overnight EEG still showing continued
   epileptiform activity in the right occipital leads. Plan to start
   fosphenytoin, continue keppra and ativan. Neuro team continuing to
   follow.
   4. Pancreatitis/pseudocyst- Increasing lipase today with increasing
   tenderness, high residuals preventing adequate enteral nutrition- will
   check repeat CT and involve surgical consult team.
   Pt is critically ill. Total time spent on pt: 45 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1174**] [**Last Name (NamePattern1) **], MD
   on:[**2131-7-24**] 16:18 ------

2131-07-26 07:38:00 Physician Resident Progress Note
Chief Complaint: s/p PEA arrest, anixic brain injury
   24 Hour Events:
   -weaned vent to Trach-collar
   -per NEJM SMV thrombosis should be anticoag lifelong if no explainable
   cause or inherited thrombotic state vs. 6mo-1yr for known cause
   (?inflammation due to pancreatitis)
   -fosphenytoin additional load as per neuro. 500mg, 200mg then 100mg [**Hospital1 **]
   -abx weaned to tobra/cipro
   - patient is tolerating tube feeds
   History obtained from Medical records
   Allergies:
   History obtained from Medical recordsMeropenem
   skin blisters a
   Last dose of Antibiotics:
   Aztreonam - [**2131-7-23**] 12:41 PM
   Ciprofloxacin - [**2131-7-24**] 12:07 PM
   Tobramycin - [**2131-7-24**] 04:43 PM
   Linezolid - [**2131-7-25**] 01:56 AM
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2131-7-25**] 09:00 PM
   Lorazepam (Ativan) - [**2131-7-26**] 05:44 AM
   Other medications:
   Phenytoin 100 mg IV BID
   Tobra
   Reglan
   Ativan 1mg IV QID
   Calcitonin 320
   Heparin drip
   Keppra
   Albutero/atrovent
   Insulin SS
   Famoitidine
   MVI
   Folate
   Cipro
 7/1709 until [**8-3**]
   Tobra
 [**2131-7-23**]
 until [**8-3**]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-7-26**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.6
C (97.8
   HR: 117 (107 - 118) bpm
   BP: 111/56(69) {110/44(63) - 137/97(101)} mmHg
   RR: 24 (20 - 41) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 98.8 kg (admission): 99.5 kg
   Height: 71 Inch
             Total In:
                                                                  1,559 mL
                                                                    457 mL
   PO:
             TF:
                                                                    140 mL
                                                                    254 mL
   IVF:
                                                                  1,239 mL
                                                                    203 mL
   Blood products:
   Total out:
                                                                  2,755 mL
                                                                  1,240 mL
   Urine:
                                                                  2,455 mL
                                                                  1,240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,196 mL
                                                                   -783 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 548 (548 - 548) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///16/
   Ve: 10 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   497 K/uL
   8.0 g/dL
   155 mg/dL
   0.6 mg/dL
   16 mEq/L
   3.8 mEq/L
   9 mg/dL
   109 mEq/L
   132 mEq/L
   25.2 %
   17.9 K/uL
        [image002.jpg]
                             [**2131-7-21**]  03:02 PM
                             [**2131-7-22**]  03:17 AM
                             [**2131-7-22**]  04:00 PM
                             [**2131-7-23**]  03:34 AM
                             [**2131-7-23**]  10:32 PM
                             [**2131-7-24**]  04:20 AM
                             [**2131-7-24**]  06:45 PM
                             [**2131-7-25**]  04:21 AM
                             [**2131-7-25**]  08:42 PM
                             [**2131-7-26**]  02:42 AM
   WBC
   15.7
   17.5
   15.1
   15.6
   17.0
   17.9
   Hct
   23.5
   24.6
   24.8
   24.3
   24.0
   25.2
   Plt
   534
   536
   513
   [**Telephone/Fax (3) 7918**]
   Cr
   0.9
   0.8
   0.8
   0.7
   0.6
   0.6
   0.7
   0.7
   0.7
   0.6
   Glucose
   172
   131
   174
   134
   120
   180
   141
   147
   129
   155
   Other labs: PT / PTT / INR:19.5/57.9/1.8, CK / CKMB /
   Troponin-T:33//0.10, ALT / AST:17/25, Alk Phos / T Bili:109/0.8,
   Amylase / Lipase:85/233, Differential-Neuts:68.0 %, Band:1.0 %,
   Lymph:11.0 %, Mono:6.0 %, Eos:12.0 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.4 g/dL, LDH:209 IU/L, Ca++:10.2 mg/dL, Mg++:2.5 mg/dL,
   PO4:2.7 mg/dL
   Assessment and Plan
   28 yo man with h/o recent admission with complicated hospital course
   readmitted for seizures, c/b SMV thrombus, UTI, and increasing
   WBC/lipase, was transferred to MICU s/p PEA arrest.
   .
   Anoxic Brain Injury/Seizures:  Neurologic exam worsening, now
   persistent since arrest.  Initially concerned for herniation but CT
   head and MRI showed no significant progression since prior studies.
   Given right gaze preference and hyperreflexia on the right there is
   continued concern for seizures.  He is receiving standing ativan and
   keppra as EEG showing persisent seizure activity.
   - yesterday
s EEG showing evidence of likely status.
   - cont keppra [**2122**] mg [**Hospital1 **] IV
   - change ativan to q 6hrs, loaded with fosphenytoin yesterday, will
   continue to load today with 500mg then 200mg this PM.  Then 100mg [**Hospital1 **].
   - maintain SBP < 180
   - f/u EEG
   - f/u neuro recs
   .
   Eosinophilia.  Continues to trend up.
   .
   PEA arrest: Most likely related to mucous plugging and associated
   hypoxia from pneumonia given copious secretions and RLL infiltrate on
   post-arrest CXR. [**Month (only) 8**] have been exacerbated by worsened mental status
   from hypoglycemia. Bronchoscopy with edematous airways; BAL cx growing
   GNR. GPC in [**2-7**] bottles from fem line likely contaminant; Femoral line
   removed.
   - monitor on telemetry and continuous oxygen monitoring
   - frequent suctioning prn
   - switched aztreonam to tobramycin; cont cipro for [**Last Name (LF) 3005**], [**First Name3 (LF) 124**] complete 8
   d course.  D1 = [**7-23**].
   - cont linezolid until GPCs speciated, per ID will DC today.
   - stopped bactrim for UTI
   - off po vanc as no evidence for C diff although cytotoxicity assay
   still pending
   - f/u cultures
   - f/u ID recs
   - closely monitor finger sticks
   - cont standing ativan and keppra, loaded on fosphenytoin yesterday.
   Hypoglycemia:  During PEA arrest, patient was noted to have a blood
   glucose in the 20s in the setting of holding tube feeds and receiving
   regular dose standing lantus.  Standing lantus now discontinued and on
   a cautious sliding scale.
   - Hold glargine for now with liberal ISS
   - QID finger sticks
   - treat infection
   Hypercalcemia: Unclear etiology, but most likely secondary to bone
   turnover from being immobile and poor kidney excretion.  Labs notable
   for elevated serum calcium and low PTH.  Started on calcitonin per Endo
   recs.
   - appreciate Endo recs
   - [**Hospital1 **] electrolytes
   - increased dose of calcitonin and started pamidronate yesterday.,
   expect pamidronate to take about 4 days to work and can try to taper
   off the calcitonin during this time frame
   - f/u SPEP
   Low grade fever/leukocytosis: Leukocytosis stable. Likely [**2-5**] [**Month/Day (2) 3005**] with
   BAL cx growing GNR.  Also with 2 of 4 bcx growing GPC, which may
   represent contamination. Continuing tx for Sternotrophomonas UTI.  C.
   diff tx discontinued as assay neg x 3; B-toxin assay pending.
   Pancreatitis has been of concern but his imaging has shown pseudocysts
   but not felt to be infected; LFTs and pancreatic enzymes now improving.
   - 8-day course tobra and cipro for [**Month/Day (2) 3005**]
   - off vanc as C. diff neg x 3; f/u cytotoxicity assay
   -DC bactrim and linezolid.
   - no plan for pancreatic fluid collection drainage at this time
   - trend amylase and lipase
   - follow ID recs
   - consider repeat CT scan for reassessment
   Rash: concerning for drug rash
   - d/c bactrim
   GI Residuals: Concern for ileus although pt having BM
   - restart tubefeeds and check residual
   - reglan started.
   Diarrhea/Bowel thickening: CT showed stable bowel thickening; C diff
   was negative multiple times so stopped PO vanc per ID
   - monitor and keep hydrated
   - C. diff stool cytotoxicity assay pending
   - f/u ID, GI recs
   Hypertension: Patient was significantly hypertensive in the setting of
   receiving epinephrine in the code setting as well as pronounced clonus,
   ?seizure activity. Now normotensive.
   - Cont keppra with standing ativan for now
   - Hydral prn for SBP >180
   Pancreatitis:  Patient with severe pancreatitis earlier in course of
   critical illness with pseudocyst formation.  On admission patient with
   mild elevation of his transaminases. LFTs and pancreatitic enzymes now
   improving.
   - trending pancreatic enzymes
   - TFs being held in setting of  high residuals
   -underwent repeat CT scan yesterday showing continuation of
   pseudocysts. Gen [**Doctor First Name 91**] reconsulted yesterday. No plans for surgical
   intervention at this time. Will need repeat imaging and f/u in the
   future. Could benefit from post-pyloric feeding.
   UTI: Bactrim sensitive Sternotrophomonas
   - continue bactrim for now although likely sensitive to the tobra that
   is being started as well
   SMV thrombus: Thrombus may be related to pancreatitis and inflamation
   in area. LENIs negative.  Heparin gtt held initially given concern for
   worsening neurologic exam but restarted
   - continue heparin gtt
   - changed to lower goal of 50-70 for PTT
   -will curbside heme Re: anticoag for SMV thrombosis, that appears to be
   resolved.
   Non gap metabolic acidosis: pH now improving although still
   hyperchloremic, likely secondary to some GI loses and/or NS
   Anion gap acidosis-likely secondary to possible sepsis plus ketosis.
   - Off NS IVF
   ICU Care
   Nutrition:
   NovaSource Renal ([**3-7**]) - [**2131-7-25**] 05:00 PM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2131-7-20**] 04:06 AM
   20 Gauge - [**2131-7-24**] 04:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   [**Year (4 digits) 3005**]:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2131-07-26 11:08:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   weaned to trach collar yest successfully.
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Aztreonam - [**2131-7-23**] 12:41 PM
   Ciprofloxacin - [**2131-7-24**] 12:07 PM
   Linezolid - [**2131-7-25**] 01:56 AM
   Tobramycin - [**2131-7-26**] 10:25 AM
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2131-7-26**] 05:44 AM
   Dilantin - [**2131-7-26**] 08:00 AM
   Famotidine (Pepcid) - [**2131-7-26**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-7-26**] 11:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.4
   HR: 116 (108 - 118) bpm
   BP: 131/69(83) {110/44(63) - 137/97(101)} mmHg
   RR: 27 (20 - 41) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98.8 kg (admission): 99.5 kg
   Height: 71 Inch
             Total In:
                                                                  1,559 mL
                                                                    870 mL
   PO:
             TF:
                                                                    140 mL
                                                                    379 mL
   IVF:
                                                                  1,239 mL
                                                                    491 mL
   [**Year (4 digits) **] products:
   Total out:
                                                                  2,755 mL
                                                                  1,840 mL
   Urine:
                                                                  2,455 mL
                                                                  1,840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,196 mL
                                                                   -970 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///16/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   497 K/uL
   155 mg/dL
   0.6 mg/dL
   16 mEq/L
   3.8 mEq/L
   9 mg/dL
   109 mEq/L
   132 mEq/L
   25.2 %
   17.9 K/uL
        [image002.jpg]
                             [**2131-7-21**]  03:02 PM
                             [**2131-7-22**]  03:17 AM
                             [**2131-7-22**]  04:00 PM
                             [**2131-7-23**]  03:34 AM
                             [**2131-7-23**]  10:32 PM
                             [**2131-7-24**]  04:20 AM
                             [**2131-7-24**]  06:45 PM
                             [**2131-7-25**]  04:21 AM
                             [**2131-7-25**]  08:42 PM
                             [**2131-7-26**]  02:42 AM
   WBC
   15.7
   17.5
   15.1
   15.6
   17.0
   17.9
   Hct
   23.5
   24.6
   24.8
   24.3
   24.0
   25.2
   Plt
   534
   536
   513
   [**Telephone/Fax (3) 7918**]
   Cr
   0.9
   0.8
   0.8
   0.7
   0.6
   0.6
   0.7
   0.7
   0.7
   0.6
   Glucose
   172
   131
   174
   134
   120
   180
   141
   147
   129
   155
   Other labs: PT / PTT / INR:19.5/57.9/1.8, CK / CKMB /
   Troponin-T:33//0.10, ALT / AST:17/25, Alk Phos / T Bili:109/0.8,
   Amylase / Lipase:85/233, Differential-Neuts:68.0 %, Band:1.0 %,
   Lymph:11.0 %, Mono:6.0 %, Eos:12.0 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.4 g/dL, LDH:209 IU/L, Ca++:10.2 mg/dL, Mg++:2.5 mg/dL,
   PO4:2.7 mg/dL
   Imaging: [**7-26**] CXR- low lung volumes, ? LLL infiltrate
   Microbiology: all cx neg or pending
   Assessment and Plan
   28 yo male with prolonged hospitalization following pancreatitis, with
   pseudocyst, SMV thrombosis, acute respiratory failure, PEA arrest x 2,
   seizures, hypercalcemia
   1. Acute respiratory failure: resolved, back to trach collar and stable
   x 24h, pna tx as below
   2. Anoxic brain injury/AMS- No obvious neurological change  over the
   past day; however, multifactorial etiology behind his AMS  ( recent
   anoxia, continued seizure activity, hypercalcemia, medications) and
   would not necessarily anticipate a rapid improvement
   -loaded with fosphenytoin yesterday due to continued seizure activity
   -On Keppra and ativan
   -Ongoing EEG monitoring
   -Hypercalcemia has been treated with pamidronate and calcitonin,
   continue to monitor levels
   3. Hypercalcemia: preumably due to immobilization, levels still high,
   on calcitonin and s/p a dose of pamidronate.
   4. Leukocytosis:covering for Pseudomonas VAP and stenotrophomonas UTI
   -Continue tobramycin and ciprofloxacin (planning for 14d course so far)
   -Vanco dc
d due to Cdiff negative x 3, linezolid dc
d due to recovery
   of only CoNS from [**Month/Year (2) 1056**] cultures with negative surveillance cultures
   -No additional infectious process by abdominal imaging
   5. Eosinophilia: will trend today, probably related to some new med,
   ABX vs fosphenytoin?
   -will touch base w/ ID and Neuro re: poss med effect and adjustment
   6. Pancreatitis: abdominal imaging showed pseudocysts which have not
   changed appreciably, no evidence of super-infection
   -tolerating tube feeds
   7. SMV thrombus: per lit review requires 6 mos anticoag
   -heparin gtt for now, coumadin transition starting tonight
   8. Disposition: could be stable for floor in the next 24h but high
   likelihood for requiring ICU level for care for resp status
   (suctioning)
   Remainder of plan as per housestaff note
   ICU Care
   Nutrition:
   NovaSource Renal ([**3-7**]) - [**2131-7-25**] 05:00 PM 40 mL/hour
   Comments: tolerating without problems
   Glycemic Control:  [**Name (NI) **] sugar well controlled
   Lines:
   PICC Line - [**2131-7-20**] 04:06 AM
   20 Gauge - [**2131-7-24**] 04:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   ------ Protected Section ------
   On this day, I was with the ICU housestaff team for the key portions of
   services provided. I agree with the history, physical assessment and
   plan as outlined by Dr. [**Last Name (STitle) 4052**] above. I would add:
   28 yo male with pancreatitis/pseudocysts, anoxic injury, SMV
   thrombosis, acute respiratory failure, seizures, hypercalcemia,
   leukocytosis/. He has remained on TC today, but is intermittently
   coughing and requiring suctioning as frequently as every hour.
   Leukocytosis persists, now with eosinophilia. Is tolerating enteral
   feeds.
   Plan trach collar trials as tolerated, suctioning, nebs. Neurology team
   continuing to follow and adjust seizure medications. The eosinophilia
   raises concern for a drug reaction, with the most likely culprit
   including abx vs dilantin- will touch base with ID and Neurology
   consult teams. Current level of nursing care is too high for him to go
   to the floor.
   Pt critically ill. Total time spent: 35 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1174**] [**Last Name (NamePattern1) **], MD
   on:[**2131-7-26**] 16:22 ------

2131-07-27 06:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - started coumadin
   - lots of coughing fits, very little mucous suctioned out
   - tachycardic to 120s and then 130s in evening
   - trial of fluid, small dose fentyl, extra dose of ativan without help
   - switched back to PS vent overnight when coughing wouldn't stop, some
   reposition and an hour on vent improved both coughing and his
   tachycardia
   - low grade temp to 100.2, wbc stable
   - R leg is slightly more swollen, trach site with mild pus and erythema
   around the collar
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Linezolid - [**2131-7-25**] 01:56 AM
   Tobramycin - [**2131-7-26**] 10:25 AM
   Ciprofloxacin - [**2131-7-27**] 01:21 AM
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Other ICU medications:
   Dilantin - [**2131-7-26**] 08:00 AM
   Coumadin (Warfarin) - [**2131-7-26**] 03:54 PM
   Famotidine (Pepcid) - [**2131-7-26**] 08:50 PM
   Fentanyl - [**2131-7-26**] 10:57 PM
   Lorazepam (Ativan) - [**2131-7-27**] 06:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-7-27**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.7
C (99.8
   HR: 121 (114 - 132) bpm
   BP: 121/55(73) {117/51(67) - 208/134(154)} mmHg
   RR: 27 (21 - 45) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 98.8 kg (admission): 99.5 kg
   Height: 71 Inch
             Total In:
                                                                  3,847 mL
                                                                    245 mL
   PO:
             TF:
                                                                    904 mL
                                                                    126 mL
   IVF:
                                                                  2,893 mL
                                                                     80 mL
   Blood products:
   Total out:
                                                                  3,020 mL
                                                                  1,020 mL
   Urine:
                                                                  3,020 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    827 mL
                                                                   -775 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 570 (522 - 570) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///15/
   Ve: 11.5 L/min
   Physical Examination
   Gen: trached, not interactive
   HEENT: PERRL, does not track, opens sponatenously, trach site with
   erythema and skin erosion with some mild purulent discharge
   CV: RRR< no m/r/g
   Pulm: Coarse breath sounds diffusely
   Abd: soft, NT, ND, bowel sounds present
   Ext: peripheral edema, R leg slightly more edematous than L leg, skin
   tears throughout
   Labs / Radiology
   458 K/uL
   7.1 g/dL
   165 mg/dL
   0.6 mg/dL
   15 mEq/L
   4.1 mEq/L
   9 mg/dL
   108 mEq/L
   132 mEq/L
   22.6 %
   16.9 K/uL
        [image002.jpg]
                             [**2131-7-23**]  03:34 AM
                             [**2131-7-23**]  10:32 PM
                             [**2131-7-24**]  04:20 AM
                             [**2131-7-24**]  06:45 PM
                             [**2131-7-25**]  04:21 AM
                             [**2131-7-25**]  08:42 PM
                             [**2131-7-26**]  02:42 AM
                             [**2131-7-26**]  07:54 PM
                             [**2131-7-26**]  11:43 PM
                             [**2131-7-27**]  04:23 AM
   WBC
   15.1
   15.6
   17.0
   17.9
   16.9
   Hct
   24.8
   24.3
   24.0
   25.2
   22.9
   22.6
   Plt
   [**Telephone/Fax (3) 7930**]97
   469
   458
   Cr
   0.7
   0.6
   0.6
   0.7
   0.7
   0.7
   0.6
   0.7
   0.6
   Glucose
   134
   120
   180
   141
   147
   129
   155
   176
   165
   Other labs: PT / PTT / INR:18.4/62.2/1.7, CK / CKMB /
   Troponin-T:17//0.10, ALT / AST:21/30, Alk Phos / T Bili:116/0.7,
   Amylase / Lipase:85/279, Differential-Neuts:68.0 %, Band:1.0 %,
   Lymph:11.0 %, Mono:6.0 %, Eos:12.0 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.4 g/dL, LDH:262 IU/L, Ca++:9.5 mg/dL, Mg++:1.7 mg/dL, PO4:2.0
   mg/dL
   Assessment and Plan
   28 yo man with h/o recent admission with necrotizing pancreatitis c/b
   pseudocysts, s/p PEA arrest x2 with anoxic brain injury and seizure,
   being treated for VAP with tobra/cipro.
   .
   AMS secondary to Anoxic Brain Injury/Seizures.  Patient has suffered
   two PEA arrests and has anoxic brain injury with seizure activity.  Not
   interactive.  He was previously in has been loaded with phenytoin.  No
   longer receiving continue EEG monitor.  Prognosis regarding mental
   status is poor.
   - continue keppra 1 g [**Hospital1 **]
   - continue phenytoin 100 mg [**Hospital1 **]
   - continue standing ativan
   - neuro recommends to continue current therapy, may consider switching
   dilantin due to interaction with coumadin
   . .
   Respiratory failure/VAP.  Patient has been on TCM for 24 hours and
   tolerating it well.  Has a vigorous cough.  On tobra/cipro with plan
   for two week course to be completed [**8-3**].  Pt  coughing worsened
   overnight, oxygenating well but appeared uncomfortable especially with
   worsened tachycardia.  Switched to PS and improved.
   - continue tobra/cipro (end date [**8-3**]), and due to PO bioavailablility,
   switching from PO cipro to IV cipro; tobra level ok and will continue
   current dosing
   - continue nebs PRN
   - return to TCM today
   - consider bronch to look for irritation around trach site, start
   lidocaine IH treatment PRN
   .
   Tachycardia.  No clear etiology of tachycardia.  Patient is not
   withdrawing and is on standing ativan.  Did not respond to fentanyl
   boluses or extra ativan doses.  Did not respond it IVF boluses,
   either.  Seemed to worsen with coughing fits.
   - consider new infection if fever spikes, no cultures needed at this
   time
   - consider PE if respiratory sats drop
   .
   Pancreatitis:  Patient with severe necrotizing pancreatitis earlier in
   course of critical illness with pseudocyst formation.  No plans for
   surgical invention.  Lipase is trending down.  CT scan of the abdomen
   on [**7-25**] shows stable pancreatic pseudocysts.
   - trending pancreatic enzymes, up only mildly today
   - had high residuals again yesterday, continue tube feeds if possible
   Eosinophilia.  Continues to trend up in spite of being off bactrim for
   several days.  Has potentional to have waxing and [**Doctor Last Name 226**] eosinophilia
   for two weeks after offending [**Doctor Last Name **] removed.
   - continue tobra/cipro for now
   - continue dilantin for now
   - trend eos count
   .
   S/p PEA arrest.  This is felt to be secondary to mucous plugging from
   VAP, continue suctioning as needed.  Additionally, patient was
   hypoglycemic on the floor in setting of recently starting glargine.
   - monitor on tele
   Diabetes.  Had hypoglycemia during PEA arrest after initation of
   glargine.  Now that patient is finally tolerating tube feeds,
   anticipate patient will have hyperglycemia.
   - follow fingersticks and cover with HISS
   - if long acting insulin is needed will start low given recent
   hypoglycemia
   .
   Hypercalcemia: Unclear etiology, but most likely secondary to bone
   turnover from being immobile and poor kidney excretion.
   - appreciate Endo recs
   - s/p pamidronate
   - stop calcitonin today
   - follow ca and monitor for hypocalcemia
   .
   SMV thrombus.  Therapeutic on heparin drip for SMV thrombus likely
   secondary to severe pancreatitis.
   - continue heparin gtt with goal of 50-70 for PTT
   - initiate bridging with coumadin with plan for 6 month course
   .
   Metabolic acidosis.  Likely multifactorial secondary to prior NGT
   suctioning, seizures.
   - follow bicarb
   ICU Care
   Nutrition:
   NovaSource Renal ([**3-7**]) - [**2131-7-27**] 01:20 AM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2131-7-20**] 04:06 AM
   20 Gauge - [**2131-7-24**] 04:00 PM
   Prophylaxis:
   DVT: hep gtt
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU, being screened for rehab

2131-07-27 09:44:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   persistent coughing fits overnight, with persistent tachycardia.
   switched to PSV overnight with mild improvement in tachycardia. this am
   switched back to trach collar. low-grade fever overnight
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Linezolid - [**2131-7-25**] 01:56 AM
   Tobramycin - [**2131-7-26**] 10:25 AM
   Ciprofloxacin - [**2131-7-27**] 01:21 AM
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Other ICU medications:
   Coumadin (Warfarin) - [**2131-7-26**] 03:54 PM
   Fentanyl - [**2131-7-26**] 10:57 PM
   Lorazepam (Ativan) - [**2131-7-27**] 06:09 AM
   Famotidine (Pepcid) - [**2131-7-27**] 08:00 AM
   Other medications:
   folate, MVI, Peridex, famotidine, RISS, Cipro, albuterol, Keppra,
   heparin gtt, calcitonin, lorazepam, Reglan, tobramycin, dilantin,
   warfarin 3
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-7-27**] 09:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.5
C (99.5
   HR: 127 (116 - 132) bpm
   BP: 112/45(55) {112/45(55) - 208/134(154)} mmHg
   RR: 42 (21 - 45) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 98.8 kg (admission): 99.5 kg
   Height: 71 Inch
             Total In:
                                                                  3,847 mL
                                                                    623 mL
   PO:
             TF:
                                                                    904 mL
                                                                    215 mL
   IVF:
                                                                  2,893 mL
                                                                    308 mL
   Blood products:
   Total out:
                                                                  3,020 mL
                                                                  1,360 mL
   Urine:
                                                                  3,020 mL
                                                                  1,260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    827 mL
                                                                   -737 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Trach mask , Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 570 (522 - 570) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 15 cmH2O
   SpO2: 98%
   ABG: ///15/
   Ve: 11.5 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: trach site
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Tone: Not assessed
   Labs / Radiology
   7.1 g/dL
   458 K/uL
   165 mg/dL
   0.6 mg/dL
   15 mEq/L
   4.1 mEq/L
   9 mg/dL
   108 mEq/L
   132 mEq/L
   22.6 %
   15.1 K/uL
        [image002.jpg]
                             [**2131-7-23**]  03:34 AM
                             [**2131-7-23**]  10:32 PM
                             [**2131-7-24**]  04:20 AM
                             [**2131-7-24**]  06:45 PM
                             [**2131-7-25**]  04:21 AM
                             [**2131-7-25**]  08:42 PM
                             [**2131-7-26**]  02:42 AM
                             [**2131-7-26**]  07:54 PM
                             [**2131-7-26**]  11:43 PM
                             [**2131-7-27**]  04:23 AM
   WBC
   15.1
   15.6
   17.0
   17.9
   16.9
   15.1
   Hct
   24.8
   24.3
   24.0
   25.2
   22.9
   22.6
   Plt
   [**Telephone/Fax (3) 7930**]97
   469
   458
   Cr
   0.7
   0.6
   0.6
   0.7
   0.7
   0.7
   0.6
   0.7
   0.6
   Glucose
   134
   120
   180
   141
   147
   129
   155
   176
   165
   Other labs: PT / PTT / INR:18.4/62.2/1.7, CK / CKMB /
   Troponin-T:17//0.10, ALT / AST:21/30, Alk Phos / T Bili:116/0.7,
   Amylase / Lipase:85/279, Differential-Neuts:68.0 %, Band:2.0 %,
   Lymph:11.0 %, Mono:2.0 %, Eos:9.0 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.4 g/dL, LDH:262 IU/L, Ca++:9.5 mg/dL, Mg++:1.7 mg/dL, PO4:2.0
   mg/dL
   Imaging: [**7-26**] CXR- ? early LLL infiltrate
   Microbiology: all cx neg or pending (last set from [**7-23**])
   prior [**7-20**] Pseudomonas from sputum
   prior [**7-13**] Urine- Stenotrophomonas
   Assessment and Plan
   28 yo male with prolonged hospitalization following pancreatitis, with
   pseudocyst, SMV thrombosis, chronic respiratory failure, PEA arrest x
   2, seizures, hypercalcemia.
   1. Acute respiratory failure: resolving, back to trach collar and
   stable x 48h, pna tx as below.
   -pulm toilet
   2. Coughing fits: may be related to trach placement; not having
   purulent sputum production
   -will instill lidocaine 1-2% prn for comfort
   -will eval w/ bronch for trach placement
   3. Anoxic brain injury/AMS- No obvious neurological change  over the
   past day; however, multifactorial etiology behind his AMS  ( recent
   anoxia, continued seizure activity, hypercalcemia, medications) and
   would not necessarily anticipate a rapid improvement
   -loaded with fosphenytoin yesterday due to continued seizure activity
   -On Keppra and ativan
   -Hypercalcemia has been treated with pamidronate and calcitonin,
   continue to monitor levels
   3. Hypercalcemia: preumably due to immobilization, levels normalizing,
   -wil dc calcitonin and monitor levels
   4. Leukocytosis:covering for Pseudomonas VAP and stenotrophomonas UTI
   -Continue tobramycin and ciprofloxacin (planning for 14d course so far,
   end date [**8-2**])
   -Vanco dc
d due to Cdiff negative x 3, linezolid dc
d due to recovery
   of only CoNS from blood cultures with negative surveillance cultures
   -No additional infectious process by abdominal imaging
   5. Eosinophilia: will trend today, per Id, could still be related to
   prior bactrim exposure
   6. Pancreatitis: abdominal imaging showed pseudocysts which have not
   changed appreciably, no evidence of super-infection
   -tolerating tube feeds
   7. SMV thrombus: per lit review requires 6 mos anticoag
   -heparin gtt for now, coumadin transition
   Remainder of plan as per housestaff note
   ICU Care
   Nutrition:
   NovaSource Renal ([**3-7**]) - [**2131-7-27**] 01:20 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2131-7-20**] 04:06 AM
   20 Gauge - [**2131-7-24**] 04:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   ------ Protected Section ------
   I was physically present with the resident team on this date for
   discussion of the above history, exam and assessment and plan with
   which I agree.  I independently examined the patient and would add the
   following comments:
   28 yo male with severe alcoholic pancreatitis in [**5-12**] with complicated
   hospitalization notable for respiratory failure s/p trach, PEA arrest
   and anoxic encephalopathy, seizures. Readmitted from rehab in early
   [**Month (only) 280**] for further management of continued seizures, SMV thrombosis,
   hypercalcemia. MICU transfer [**7-20**] following another PEA arrest,
   possibly due to mucous plugging. Subsequently he was also found to have
   Pseudomonas HCAP and Stenotrophomonas UTI. Major issues include:
   1. Acute respiratory failure: improving, has been on TC yesterday
   though with continued coughing. Bronchoscopy this afternoon was
   relatively unrevealing, showing some irritation near the trach and a
   minor amount of purulent secretions in the lingula. Has been receiving
   lidocaine and will also try guiafenisen.
   2. Pseudomonas HCAP: on cipro/tobra until [**8-3**]
   3. Altered mental status: multifactorial, with recent PEA arrest,
   hypercalcemia, resolving infections, and seizures. No further
   epileptiform activity before continuous EEG monitors were pulled. Neuro
   continuing to follow.
   4. Pancreatitis/pseudocysts: Underwent CT [**7-25**] that showed continued
   maturation of his known pseudocysts, but no superinfections. If pt not
   tolerating enteral feeds, consider post-pyloric placement
   5. SMV thrombosis: decreased on [**7-25**] CT- plan 6 mo. course of
   anticoagulation.
   6. Hypercalcemia: seen by Endocrinology and thought most likely
   secondary to immobility with increased bone turnover. Appears to be
   responding to calcitonin/pamidronate.
   Pt is critically ill. Total time spent: 40 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1174**] [**Last Name (NamePattern1) **], MD
   on:[**2131-7-27**] 20:34 ------

2131-07-28 07:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2131-7-27**] 02:00 PM
 FEVER - 101.3
F - [**2131-7-28**] 12:00 AM
   .
   - Neuro recommended increasing dilantin from 100 [**Hospital1 **] to 100 TID
   - Bronch did not show any significant secretions or inflammation in the
   airways
   - patient continues to cough frequently but responds to lidocaine
   infusions.  Pt also started on robitussin.
   - persistnetly tachcyardic to 120s
   - calcitonin stopped as Ca trending down
   - febrile to 101.5, got cultured
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Tobramycin - [**2131-7-26**] 10:25 AM
   Ciprofloxacin - [**2131-7-27**] 08:58 PM
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2131-7-27**] 09:00 PM
   Fentanyl - [**2131-7-27**] 09:16 PM
   Lorazepam (Ativan) - [**2131-7-28**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to obtain
   Flowsheet Data as of  [**2131-7-28**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.4
C (99.4
   HR: 117 (115 - 135) bpm
   BP: 145/68(87) {96/34(49) - 201/175(180)} mmHg
   RR: 25 (23 - 42) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 98.8 kg (admission): 99.5 kg
   Height: 71 Inch
             Total In:
                                                                  3,430 mL
                                                                    571 mL
   PO:
             TF:
                                                                    972 mL
                                                                    348 mL
   IVF:
                                                                  2,178 mL
                                                                    193 mL
   Blood products:
   Total out:
                                                                  2,460 mL
                                                                    680 mL
   Urine:
                                                                  2,360 mL
                                                                    680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    970 mL
                                                                   -109 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 500 (432 - 500) mL
   PS : 10 cmH2O
   RR (Spontaneous): 33
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 89
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///15/
   Ve: 17.1 L/min
   Physical Examination
   Gen: trached, not interactive
   HEENT: PERRL, does not track, opens sponatenously, trach site with
   erythema and skin erosion with some mild purulent discharge
   CV: RRR< no m/r/g
   Pulm: Coarse breath sounds diffusely
   Abd: soft, NT, ND, bowel sounds present
   Ext: peripheral edema, R leg slightly more edematous than L leg, skin
   tears throughout
   Labs / Radiology
   437 K/uL
   7.2 g/dL
   231 mg/dL
   0.7 mg/dL
   15 mEq/L
   3.6 mEq/L
   9 mg/dL
   109 mEq/L
   131 mEq/L
   23.5 %
   17.3 K/uL
        [image002.jpg]
                             [**2131-7-23**]  10:32 PM
                             [**2131-7-24**]  04:20 AM
                             [**2131-7-24**]  06:45 PM
                             [**2131-7-25**]  04:21 AM
                             [**2131-7-25**]  08:42 PM
                             [**2131-7-26**]  02:42 AM
                             [**2131-7-26**]  07:54 PM
                             [**2131-7-26**]  11:43 PM
                             [**2131-7-27**]  04:23 AM
                             [**2131-7-28**]  03:28 AM
   WBC
   15.6
   17.0
   17.9
   16.9
   15.1
   17.3
   Hct
   24.3
   24.0
   25.2
   22.9
   22.6
   23.5
   Plt
   [**Telephone/Fax (3) 7949**]
   Cr
   0.6
   0.6
   0.7
   0.7
   0.7
   0.6
   0.7
   0.6
   0.7
   Glucose
   120
   180
   141
   147
   129
   155
   176
   165
   231
   Other labs: PT / PTT / INR:22.4/60.4/2.1, CK / CKMB /
   Troponin-T:17//0.10, ALT / AST:17/26, Alk Phos / T Bili:130/0.7,
   Amylase / Lipase:71/299, Differential-Neuts:63.8 %, Band:0.0 %,
   Lymph:21.0 %, Mono:3.9 %, Eos:10.7 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.4 g/dL, LDH:226 IU/L, Ca++:9.1 mg/dL, Mg++:1.5 mg/dL, PO4:2.3
   mg/dL
   Assessment and Plan
 LEUKOCYTOSIS
 ANOXIC BRAIN DAMAGE (ANOXIC ENCEPHALOPATHY, HYPOXIC ISCHEMIC)
 PANCREATITIS, ACUTE
   Necrotizing Pancreatitis
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   .
   28 yo man with h/o recent admission with necrotizing pancreatitis c/b
   pseudocysts, s/p PEA arrest x2 with anoxic brain injury and seizure,
   being treated for VAP with tobra/cipro.
   .
   AMS secondary to Anoxic Brain Injury/Seizures.  Patient has suffered
   two PEA arrests and has anoxic brain injury with seizure activity.  Not
   interactive.  He was previously in has been loaded with phenytoin.  No
   longer receiving continue EEG monitor.  Prognosis regarding mental
   status is poor.
   - continue keppra 1 g [**Hospital1 **]
   - continue phenytoin 100 mg TID
   - continue standing ativan
   - neuro recommends to continue current therapy, may consider switching
   dilantin due to interaction with coumadin
   . .
   Respiratory failure/VAP-due to stenotrophomonas.  Patient has been on
   TCM for 24 hours and tolerating it well.  Has a vigorous cough.  On
   tobra/cipro with plan for two week course to be completed [**8-3**].  Pt
   coughing worsened overnight, oxygenating well but appeared
   uncomfortable especially with worsened tachycardia.  Switched to AC
   from PSV with minimal improvement.
   - continue tobra/cipro (end date [**8-3**]), and due to PO bioavailablility,
   switching from PO cipro to IV cipro; tobra level ok and will continue
   current dosing
   - continue nebs PRN
   - return to TCM today
   - bronch performed yesterday.
   -will send CXR/sputum  today given spike o/n
   -will consider steroids.
   .
   #fever-pt with several possible sources. Being tx for VAP. Will pan cx
   and continue same abx for now.
   .
   Tachycardia.  No clear etiology of tachycardia.  Patient is not
   withdrawing and is on standing ativan.  Did not respond to fentanyl
   boluses or extra ativan doses.  Did not respond it IVF boluses,
   either.  Seemed to worsen with coughing fits.
   - consider new infection if fever spikes, no cultures needed at this
   time
   - consider PE if respiratory sats drop
   .
   Pancreatitis:  Patient with severe necrotizing pancreatitis earlier in
   course of critical illness with pseudocyst formation.  No plans for
   surgical invention.  Lipase is trending down.  CT scan of the abdomen
   on [**7-25**] shows stable pancreatic pseudocysts.
   - trending pancreatic enzymes, up only mildly today
   - had high residuals again yesterday, continue tube feeds if possible
   Eosinophilia.  Continues to trend up in spite of being off bactrim for
   several days.  Has potentional to have waxing and [**Doctor Last Name 226**] eosinophilia
   for two weeks after offending [**Doctor Last Name **] removed.
   - continue tobra/cipro for now
   - continue dilantin for now
   - trend eos count
   .
   Hyponatremia-likely secondary to SIADH from multiple neuro insults.
   -ulytes
   -continue to trend.
   .
   S/p PEA arrest.  This is felt to be secondary to mucous plugging from
   VAP, continue suctioning as needed.  Additionally, patient was
   hypoglycemic on the floor in setting of recently starting glargine.
   - monitor on tele
   Diabetes.  Had hypoglycemia during PEA arrest after initation of
   glargine.  Now that patient is finally tolerating tube feeds,
   anticipate patient will have hyperglycemia.
   - follow fingersticks and cover with HISS
   - if long acting insulin is needed will start low given recent
   hypoglycemia
   .
   Hypercalcemia: Unclear etiology, but most likely secondary to bone
   turnover from being immobile and poor kidney excretion.
   - appreciate Endo recs
   - s/p pamidronate
   - stop calcitonin today
   - follow ca and monitor for hypocalcemia
   .
   SMV thrombus.  Therapeutic on heparin drip for SMV thrombus likely
   secondary to severe pancreatitis.
   - continue heparin gtt with goal of 50-70 for PTT
   - initiate bridging with coumadin with plan for 6 month course
   .
   Metabolic acidosis.  Likely multifactorial secondary to prior NGT
   suctioning, seizures.
   - follow bicarb
   .
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:
   Lines:
   PICC Line - [**2131-7-20**] 04:06 AM
   Prophylaxis:
   DVT: heparin/coumadin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2131-07-28 08:26:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
 BRONCHOSCOPY - At [**2131-7-27**] 02:00 PM
 due to persistant coughing, ?
   trach irritation
 thought to be inflamed
 FEVER - 101.3
F - [**2131-7-28**] 12:00 AM
   Cultured.
   Dilantin increased per neurology
 thought to be in status
   Switched to AC this morning with mild effect on rate
   Allergies:
   Meropenem
   skin blisters
   Last dose of Antibiotics:
   Tobramycin - [**2131-7-26**] 10:25 AM
   Ciprofloxacin - [**2131-7-27**] 08:58 PM
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2131-7-27**] 09:00 PM
   Fentanyl - [**2131-7-27**] 09:16 PM
   Lorazepam (Ativan) - [**2131-7-28**] 01:00 AM
   Other medications:
   Folic acid
   MVI
   Chlorhex
   Pepcid
   Insulin
   Albuterol nebs
   Keppra
   Heparin IV sliding scale
   Lorazepam
   Reglan
   Coumadin
   Dilantin
   Dextromethorphan
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-7-28**] 08:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.4
C (99.4
   HR: 117 (115 - 135) bpm
   BP: 145/68(87) {96/34(49)} mmHg
   RR: 30
s (23 - 42) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 98.8 kg (admission): 99.5 kg
   Height: 71 Inch
             Total In:
                                                                  3,430 mL
                                                                    577 mL
   PO:
             TF:
                                                                    972 mL
                                                                    348 mL
   IVF:
                                                                  2,178 mL
                                                                    198 mL
   Blood products:
   Total out:
                                                                  2,460 mL
                                                                    680 mL
   Urine:
                                                                  2,360 mL
                                                                    680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    970 mL
                                                                   -103 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV -> currently on AC 500x12 peep5
   Vt (Spontaneous): 590 (432 - 590) mL
   PS : 10 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 89
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///15/
   Ve: 13.9 L/min
   Physical Examination
   General
 breathing in 30
s, hiccupping, vaguely responding to voice
   HEENT
  EOMI, PERRL anicteric
   Chest
 lungs clear, no wheeze or rhonchi
   Heart
 tachycardic
   Abd- soft +BS
   Skin
 no rashes
   Ext
 warm and well perfused
   Labs / Radiology
   7.2 g/dL
   437 K/uL
   231 mg/dL
   0.7 mg/dL
   15 mEq/L
   3.6 mEq/L
   9 mg/dL
   109 mEq/L
   131 mEq/L
   23.5 %
   17.3 K/uL
        [image002.jpg]
                             [**2131-7-23**]  10:32 PM
                             [**2131-7-24**]  04:20 AM
                             [**2131-7-24**]  06:45 PM
                             [**2131-7-25**]  04:21 AM
                             [**2131-7-25**]  08:42 PM
                             [**2131-7-26**]  02:42 AM
                             [**2131-7-26**]  07:54 PM
                             [**2131-7-26**]  11:43 PM
                             [**2131-7-27**]  04:23 AM
                             [**2131-7-28**]  03:28 AM
   WBC
   15.6
   17.0
   17.9
   16.9
   15.1
   17.3
   Hct
   24.3
   24.0
   25.2
   22.9
   22.6
   23.5
   Plt
   [**Telephone/Fax (2) 7949**]
   Cr
   0.6
   0.6
   0.7
   0.7
   0.7
   0.6
   0.7
   0.6
   0.7
   Glucose
   120
   180
   141
   147
   129
   155
   176
   165
   231
   Other labs: PT / PTT / INR:22.4/60.4/2.1, CK / CKMB /
   Troponin-T:17//0.10, ALT / AST:17/26, Alk Phos / T Bili:130/0.7,
   Amylase / Lipase:71/299, Differential-Neuts:63.8 %, Band:0.0 %,
   Lymph:21.0 %, Mono:3.9 %, Eos:10.7 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.4 g/dL, LDH:226 IU/L, Ca++:9.1 mg/dL, Mg++:1.5 mg/dL, PO4:2.3
   mg/dL
   No new films
   Assessment and Plan
   28 yo male with prolonged hospitalization following pancreatitis, with
   pseudocyst, SMV thrombosis, chronic respiratory failure, PEA arrest x
   2, seizures, hypercalcemia.
   1. Acute respiratory failure: resolving, back to trach collar and
   stable x 48h but still tachypneic, pna tx as below.
   -pulm toilet
 will recheck CXR and sputum culture
   - if bronch showed moderate inflammation would steroids be appropriate
   for cough too
   - tachypnea likely compensating for metabolic acidosis
 will send VBG
   today
   2. Coughing fits: may be related to trach placement; not having
   purulent sputum production. ?CNS triggered. Perhaps needs a longer
   trach
   -hold on lidocaine for now
   3. Anoxic brain injury/AMS- No obvious neurological change  over the
   past day; however, multifactorial etiology behind his AMS  ( recent
   anoxia, continued seizure activity, hypercalcemia, medications) and
   would not necessarily anticipate a rapid improvement
   -loaded with fosphenytoin [**7-26**] due to continued seizure activity
   -On Keppra and ativan
   -Hypercalcemia has been treated with pamidronate and calcitonin,
   continue to monitor levels
   3. Hypercalcemia: presumably due to immobilization, levels normalizing,
   - monitor levels
   4. Leukocytosis:covering for Pseudomonas VAP and stenotrophomonas UTI
   -Continue tobramycin and ciprofloxacin (planning for 14d course so far,
   end date [**8-2**])
   -Vanco dc
d due to Cdiff negative x 3, linezolid dc
d due to recovery
   of only CoNS from blood cultures with negative surveillance cultures
   -No additional infectious process by abdominal imaging
   5. Eosinophilia: will [**Last Name (LF) 1940**], [**First Name3 (LF) 77**] ID, could still be related to prior
   bactrim exposure- may remain elevated for days. ?dilantin as
   possibility
   6. Pancreatitis: abdominal imaging showed pseudocysts which have not
   changed appreciably, no evidence of super-infection
   -tolerating tube feeds
   7. SMV thrombus: per lit review requires 6 mos anticoag
   -heparin gtt for now, coumadin transition
   8. Hyponatremia
 send urine lytes to eval for SIADH
   Remainder of plan as per housestaff note
   ICU Care
   Nutrition:
   Glycemic Control:  sliding scale insulin
   Lines:
   PICC Line - [**2131-7-20**] 04:06 AM
   Prophylaxis:
   DVT: heparin gtt and coumadin
   Stress ulcer: H2 blocker
   VAP: being treated currently, oral care
   Comments:
   Communication:  Updated pt
s mother
   [**Name (NI) 156**] status: Full code
   Disposition : ICU
   Pt is critically ill.
   Total time spent: 40 minutes

2131-07-29 07:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: [**7-28**]
   -neuro recs-same, dilantin level in am
   -will need to ask neuro re: coughing? hiccups?
   -considered steroids after team discussion, but held off
   -CXR repeated given continued coughing fits vs.hiccups, without change.
   -no new endo recs.
   -ulytes ordered for eval of SIADH, osm 324, FENA 3.4%
   -am VBG 7.34/32/64
   -pts dad asking for KUB to eval for placement of feeding tube,
   ?relation to cough/aspiration.
   24 Hour Events:
 FEVER - 101.8
F - [**2131-7-28**] 08:00 PM
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Tobramycin - [**2131-7-28**] 10:00 AM
   Ciprofloxacin - [**2131-7-29**] 03:22 AM
   Infusions:
   Other ICU medications:
   Coumadin (Warfarin) - [**2131-7-28**] 04:30 PM
   Famotidine (Pepcid) - [**2131-7-28**] 08:57 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-7-29**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.1
C (98.7
   HR: 106 (106 - 139) bpm
   BP: 128/88(98) {119/49(66) - 179/99(108)} mmHg
   RR: 20 (20 - 42) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 98.8 kg (admission): 99.5 kg
   Height: 71 Inch
             Total In:
                                                                  3,021 mL
                                                                    785 mL
   PO:
             TF:
                                                                  1,320 mL
                                                                    346 mL
   IVF:
                                                                  1,331 mL
                                                                    379 mL
   Blood products:
   Total out:
                                                                  2,735 mL
                                                                    755 mL
   Urine:
                                                                  2,735 mL
                                                                    755 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    286 mL
                                                                     30 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 615 (345 - 615) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 45
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///16/
   Ve: 20.3 L/min
   Physical Examination
   Gen: trached, not interactive
   HEENT: PERRL, does not track, opens sponatenously, trach site with
   erythema and skin erosion with some mild purulent discharge
   CV: RRR< no m/r/g
   Pulm: Coarse breath sounds diffusely
   Abd: soft, NT, ND, bowel sounds present
   Ext: peripheral edema, R leg slightly more edematous than L leg, skin
   tears throughout
   Labs / Radiology
   405 K/uL
   7.4 g/dL
   262 mg/dL
   0.7 mg/dL
   16 mEq/L
   3.8 mEq/L
   9 mg/dL
   103 mEq/L
   125 mEq/L
   23.5 %
   20.1 K/uL
        [image002.jpg]
                             [**2131-7-24**]  04:20 AM
                             [**2131-7-24**]  06:45 PM
                             [**2131-7-25**]  04:21 AM
                             [**2131-7-25**]  08:42 PM
                             [**2131-7-26**]  02:42 AM
                             [**2131-7-26**]  07:54 PM
                             [**2131-7-26**]  11:43 PM
                             [**2131-7-27**]  04:23 AM
                             [**2131-7-28**]  03:28 AM
                             [**2131-7-29**]  05:28 AM
   WBC
   15.6
   17.0
   17.9
   16.9
   15.1
   17.3
   20.1
   Hct
   24.3
   24.0
   25.2
   22.9
   22.6
   23.5
   23.5
   Plt
   [**Telephone/Fax (3) 7949**]
   405
   Cr
   0.6
   0.7
   0.7
   0.7
   0.6
   0.7
   0.6
   0.7
   0.7
   Glucose
   180
   141
   147
   129
   155
   176
   165
   231
   262
   Other labs: PT / PTT / INR:27.8/150.0/2.7, CK / CKMB /
   Troponin-T:17//0.10, ALT / AST:15/24, Alk Phos / T Bili:125/0.7,
   Amylase / Lipase:71/232, Differential-Neuts:60.0 %, Band:4.0 %,
   Lymph:15.0 %, Mono:4.0 %, Eos:14.0 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.4 g/dL, LDH:199 IU/L, Ca++:9.7 mg/dL, Mg++:1.5 mg/dL, PO4:2.6
   mg/dL
   Assessment and Plan
   28 yo man with h/o recent admission with necrotizing pancreatitis c/b
   pseudocysts, s/p PEA arrest x2 with anoxic brain injury and seizure,
   being treated for VAP with tobra/cipro.
   .
   AMS secondary to Anoxic Brain Injury/Seizures.  Patient has suffered
   two PEA arrests and has anoxic brain injury with seizure activity.  Not
   interactive.  He was previously in has been loaded with phenytoin.  No
   longer receiving continue EEG monitor.  Prognosis regarding mental
   status is poor.
   - continue keppra 1 g [**Hospital1 **]
   - continue phenytoin 100 mg TID
   - continue standing ativan
   - neuro recommends to continue current therapy, may consider switching
   dilantin due to interaction with coumadin
   . .
   Respiratory failure/VAP-due to stenotrophomonas.  Patient was back on
   AC then weaned to PS overnight.  Has a vigorous cough.  On tobra/cipro
   with plan for two week course to be completed [**8-3**].
   - continue tobra/cipro (end date [**8-3**]), and due to PO bioavailablility,
   switching from PO cipro to IV cipro;
   - discussed tobra levels with ID, will check peak 20 minutes after dose
   tomorrow, for now continue current regimen
   - continue nebs PRN
   - return to TCM today if tolerated
   - bronch performed without anatomical cause for couging.
   -will consider steroids.
   .
   Fever and leukocytosis:  no clear source at this time, cultures are
   pending, GS on sputum showed 4+ GNRs, most likely source is pulmonary
   considering the cough.  [**Month (only) 8**] not be clearing known pseudomonas.
   - continue current abx
   - trend fever curve/ WBCs
   .
   Hyponatremia-likely secondary to SIADH from multiple neuro insults.
   - u lytes and osms consistent with SIADH
   - fluid restrict, will discuss with pharmacy and nutrition
   .
   Tachycardia.  No clear etiology of tachycardia.  Patient is not
   withdrawing and is on standing ativan.  Did not respond to fentanyl
   boluses or extra ativan doses.  Did not respond it IVF boluses,
   either.  Seemed to worsen with coughing fits.
   - likely secondary to fevers
   - consider PE if respiratory sats drop
   .
   Pancreatitis:  Patient with severe necrotizing pancreatitis earlier in
   course of critical illness with pseudocyst formation.  No plans for
   surgical invention.  Lipase is trending down.  CT scan of the abdomen
   on [**7-25**] shows stable pancreatic pseudocysts.
   - trending pancreatic enzymes, down slightly today
   - had high residuals again yesterday, continue tube feeds if possible
   Eosinophilia.  Continues to trend up in spite of being off bactrim for
   several days.  Has potentional to have waxing and [**Doctor Last Name 226**] eosinophilia
   for two weeks after offending [**Doctor Last Name **] removed.
   - continue tobra/cipro for now
   - continue dilantin for now, monitor for new drug rashes
   - trend eos count
   .
   S/p PEA arrest.  This is felt to be secondary to mucous plugging from
   VAP, continue suctioning as needed.  Additionally, patient was
   hypoglycemic on the floor in setting of recently starting glargine.
   - monitor on tele
   Diabetes.  Had hypoglycemia during PEA arrest after initation of
   glargine.  Now that patient is finally tolerating tube feeds,
   anticipate patient will have hyperglycemia.
   - follow fingersticks and cover with HISS
   - if long acting insulin is needed will start low given recent
   hypoglycemia
   .
   Hypercalcemia: Unclear etiology, but most likely secondary to bone
   turnover from being immobile and poor kidney excretion.
   - appreciate Endo recs
   - s/p pamidronate
   - stopped calcitonin
   - follow ca and monitor for hypocalcemia
   .
   SMV thrombus.  Therapeutic on heparin drip for SMV thrombus likely
   secondary to severe pancreatitis.
   - stopped hep gtt as therapeutic
   - initiate bridging with coumadin with plan for 6 month course
   .
   Metabolic acidosis.  Likely multifactorial secondary to prior NGT
   suctioning, seizures.
   - follow bicarb
   ICU Care
   Nutrition: NG tube feeds
   Glycemic Control:
   Lines:
   PICC Line - [**2131-7-20**] 04:06 AM
   Prophylaxis:
   DVT: coumadin
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments: family
   Code status: Full code
   Disposition: ICU for now

2131-07-29 08:21:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
 FEVER - 101.8
F - [**2131-7-28**] 08:00 PM
   Sodium continues to [**Year (4 digits) 1940**] down, white count continues to [**Year (4 digits) 1940**] up
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Tobramycin - [**2131-7-28**] 10:00 AM
   Ciprofloxacin - [**2131-7-29**] 03:22 AM
   Infusions:
   Other ICU medications:
   Coumadin (Warfarin) - [**2131-7-28**] 04:30 PM
   Famotidine (Pepcid) - [**2131-7-28**] 08:57 PM
   Other medications:
   Folic acid
   MVI
   Famotidine
   Insulin
   Combivent
   Keppra 2g q12
   Ativan
   Reglan
   Tobra 560 q48
   Coumadin
   Cipro
   Phenytoin
   Dextromethorphan
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-7-29**] 08:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.1
C (98.7
   HR: 106 (106 - 139) bpm
   BP: 128/88(98) {119/49(66) - 179/99(108)} mmHg
   RR: 20 (20 - 42) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 98.8 kg (admission): 99.5 kg
   Height: 71 Inch
             Total In:
                                                                  3,021 mL
                                                                    785 mL
   PO:
             TF:
                                                                  1,320 mL
                                                                    346 mL
   IVF:
                                                                  1,331 mL
                                                                    379 mL
   Blood products:
   Total out:
                                                                  2,735 mL
                                                                    755 mL
   Urine:
                                                                  2,735 mL
                                                                    755 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    286 mL
                                                                     30 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 650 (345 - 650) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 45
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///16/
   Ve: 16.1 L/min
   Physical Examination
   Eyes open to voice, but not tracking, not following commands
   PERRL
   Scattered rhonchi
   RRR
   Abdomen is NT (no grimacing)
   1+ edema
   Labs / Radiology
   7.4 g/dL
   405 K/uL
   262 mg/dL
   0.7 mg/dL
   16 mEq/L
   3.8 mEq/L
   9 mg/dL
   103 mEq/L
   125 mEq/L
   23.5 %
   20.1 K/uL
        [image002.jpg]
                             [**2131-7-24**]  04:20 AM
                             [**2131-7-24**]  06:45 PM
                             [**2131-7-25**]  04:21 AM
                             [**2131-7-25**]  08:42 PM
                             [**2131-7-26**]  02:42 AM
                             [**2131-7-26**]  07:54 PM
                             [**2131-7-26**]  11:43 PM
                             [**2131-7-27**]  04:23 AM
                             [**2131-7-28**]  03:28 AM
                             [**2131-7-29**]  05:28 AM
   WBC
   15.6
   17.0
   17.9
   16.9
   15.1
   17.3
   20.1
   Hct
   24.3
   24.0
   25.2
   22.9
   22.6
   23.5
   23.5
   Plt
   [**Telephone/Fax (2) 7949**]
   405
   Cr
   0.6
   0.7
   0.7
   0.7
   0.6
   0.7
   0.6
   0.7
   0.7
   Glucose
   180
   141
   147
   129
   155
   176
   165
   231
   262
   Other labs: PT / PTT / INR:27.8/150.0/2.7, CK / CKMB /
   Troponin-T:17//0.10, ALT / AST:15/24, Alk Phos / T Bili:125/0.7,
   Amylase / Lipase:71/232, Differential-Neuts:60.0 %, Band:4.0 %,
   Lymph:15.0 %, Mono:4.0 %, Eos:14.0 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.4 g/dL, LDH:199 IU/L, Ca++:9.7 mg/dL, Mg++:1.5 mg/dL, PO4:2.6
   mg/dL
   CXR
 no new cardiopulmonary process
   KUB
 NGT in stomach
   Assessment and Plan
   28 yo male with prolonged hospitalization following pancreatitis, with
   pseudocyst, SMV thrombosis, chronic respiratory failure, PEA arrest x
   2, seizures, hypercalcemia.
   1. Acute respiratory failure: on PSV (was on AC briefly yesterday),
   oxygenation continues to be good.
   - wean to [**5-8**] today
   - pulm toilet
 sputum cx from yesterday with 4+ GNR
s. ?[**Doctor First Name 3054**] levels
   low, ask ID re: increasing dosing
   - VBG looked good yesterday
   - neuro input re: coughing fits manifesting as seizure activity
   2. Coughing fits: may be related to trach placement; sputum is thick,
   possible that we are not treating his known pneumonia given low [**Doctor First Name **]
   levels. ?CNS triggered. Perhaps needs a longer trach
   -hold on lidocaine for now
   3. Anoxic brain injury/AMS- No obvious neurological change  over the
   past day; however, multifactorial etiology behind his AMS  ( recent
   anoxia, continued seizure activity, hypercalcemia, medications) and
   would not necessarily anticipate a rapid improvement
   -loaded with fosphenytoin [**7-26**] due to continued seizure activity
   -On Keppra and ativan
   -Hypercalcemia has been treated with pamidronate and calcitonin,
   continue to monitor levels
   3. Hyponatremia
 urine lytes suggest SIADH; will attempt to fluid
   restrict by pharmacy adjustment of IV meds and nutrition adjustment to
   TF
   4. Leukocytosis:covering for Pseudomonas VAP and stenotrophomonas UTI
   -Continue tobramycin and ciprofloxacin (planning for 14d course so far,
   end date [**8-2**])
 ?[**Doctor First Name **] levels inadequate
 ID asking for peak goal >8,
   will check it today
   -Vanco dc
d due to Cdiff negative x 3, linezolid dc
d due to recovery
   of only CoNS from blood cultures with negative surveillance cultures
   -No additional infectious process by abdominal imaging
   5. Eosinophilia: will [**Last Name (LF) 1940**], [**First Name3 (LF) 77**] ID, could still be related to prior
   bactrim exposure- may remain elevated for days. ?dilantin as
   possibility
   6. Pancreatitis: abdominal imaging showed pseudocysts which have not
   changed appreciably, no evidence of super-infection
   -tolerating tube feeds
   7. SMV thrombus: per lit review requires 6 mos anticoag
   -heparin gtt stopped, on coumadin, therapeutic
   8. Acidosis
 resend lactate
   Remainder of plan as per housestaff note
   ICU Care
   Nutrition: TF
   Glycemic Control:  sliding scale
   Lines:
   PICC Line - [**2131-7-20**] 04:06 AM
   Prophylaxis:
   DVT: coumadin/boots
   Stress ulcer: famotidine
   VAP: HOB>30 degrees
   Comments:
   Communication:  Updated pt
s father today on his progress
   Code status: Full code
   Disposition : ICU
   Pt is critically ill.
   Total time spent: 40 minutes

2131-07-30 07:46:00 Physician Resident Progress Note
Chief Complaint: s/p PEA arrest
   24 Hour Events:
   - leukocytosis rising
   - had less coughing fits
   - tobra peak to be done after dosing on [**7-30**]
   - lactate was normal
   - started fluid restriction with more concentrated tube feeds and more
   concentrated abx (both pharm and nutrition are aware)
   - endo recs cont to monitor Ca++, corrected level today at upper level
   of normal, might need to restart calcitonin tomorrow
   - decreased coumadin level for rising INR
   - vomitted once during mouth care, O2 sats did not change, had no
   residuals, probably was just a gag reflex
   History obtained from Patient
   Patient unable to provide history: Encephalopathy, Unresponsive
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Tobramycin - [**2131-7-28**] 10:00 AM
   Ciprofloxacin - [**2131-7-29**] 08:22 PM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2131-7-29**] 12:45 PM
   Famotidine (Pepcid) - [**2131-7-29**] 08:22 PM
   Fentanyl - [**2131-7-30**] 02:16 AM
   Other medications:
   Coumadin 2 g daily
   Lidocaine PRN
   Robitussin
   Phenytoin
   Cipro 400 IV q 8 hours
   Tobra 560 q 48 hours
   Fentanyl prn
   Reganl standing
   Ativan 1 mg q6 hours
   Keppra [**2122**] q 12 hours
   Combivent
   ISS
   Famotidine 20 mg IV q 12 hours
   MVI
   Folate
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-7-30**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.8
C (100.1
   HR: 122 (106 - 126) bpm
   BP: 129/57(74) {109/39(58) - 154/89(99)} mmHg
   RR: 20 (14 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 98.8 kg (admission): 99.5 kg
   Height: 71 Inch
             Total In:
                                                                  3,392 mL
                                                                    349 mL
   PO:
             TF:
                                                                  1,218 mL
                                                                    310 mL
   IVF:
                                                                  1,964 mL
                                                                     39 mL
   Blood products:
   Total out:
                                                                  2,955 mL
                                                                    650 mL
   Urine:
                                                                  2,955 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    437 mL
                                                                   -301 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 516 (500 - 650) mL
   PS : 10 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 75
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///17/
   Ve: 14.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   461 K/uL
   7.4 g/dL
   240 mg/dL
   0.7 mg/dL
   17 mEq/L
   4.3 mEq/L
   9 mg/dL
   103 mEq/L
   128 mEq/L
   23.7 %
   21.4 K/uL
        [image002.jpg]
                             [**2131-7-25**]  04:21 AM
                             [**2131-7-25**]  08:42 PM
                             [**2131-7-26**]  02:42 AM
                             [**2131-7-26**]  07:54 PM
                             [**2131-7-26**]  11:43 PM
                             [**2131-7-27**]  04:23 AM
                             [**2131-7-28**]  03:28 AM
                             [**2131-7-29**]  05:28 AM
                             [**2131-7-29**]  05:42 PM
                             [**2131-7-30**]  04:13 AM
   WBC
   17.0
   17.9
   16.9
   15.1
   17.3
   20.1
   21.4
   Hct
   24.0
   25.2
   22.9
   22.6
   23.5
   23.5
   23.7
   Plt
   [**Telephone/Fax (3) **]58
   437
   405
   461
   Cr
   0.7
   0.7
   0.6
   0.7
   0.6
   0.7
   0.7
   0.6
   0.7
   Glucose
   147
   129
   155
   176
   165
   231
   [**Telephone/Fax (3) 7963**]
   Other labs: PT / PTT / INR:22.1/34.6/2.1, CK / CKMB /
   Troponin-T:17//0.10, ALT / AST:14/23, Alk Phos / T Bili:136/0.7,
   Amylase / Lipase:71/210, Differential-Neuts:70.0 %, Band:1.0 %,
   Lymph:15.0 %, Mono:4.0 %, Eos:7.0 %, Lactic Acid:1.3 mmol/L,
   Albumin:2.4 g/dL, LDH:214 IU/L, Ca++:9.8 mg/dL, Mg++:1.6 mg/dL, PO4:3.9
   mg/dL
   Assessment and Plan
   28 yo man with h/o recent admission with necrotizing pancreatitis c/b
   pseudocysts, s/p PEA arrest x2 with anoxic brain injury and seizure,
   being treated for VAP with tobra/cipro.
   .
   AMS secondary to Anoxic Brain Injury/Seizures.  Patient has suffered
   two PEA arrests and has anoxic brain injury with seizure activity.  Not
   interactive.  He was previously in has been loaded with phenytoin.  No
   longer receiving continue EEG monitor.  Prognosis regarding mental
   status is poor.
   - continue keppra 1 g [**Hospital1 **]
   - continue phenytoin 100 mg TID
   - continue standing ativan
   - neuro recommends to continue current therapy, may consider switching
   dilantin due to interaction with coumadin
   . .
   Respiratory failure/VAP-due to stenotrophomonas.  Patient was back on
   AC then weaned to PS overnight.  Has a vigorous cough.  On tobra/cipro
   with plan for two week course to be completed [**8-3**].
   - continue tobra/cipro (end date [**8-3**]), and due to PO bioavailablility,
   switching from PO cipro to IV cipro;
   - discussed tobra levels with ID, will check peak 20 minutes after dose
   tomorrow, for now continue current regimen
   - continue nebs PRN
   - return to TCM today if tolerated
   - bronch performed without anatomical cause for couging.
   -will consider steroids.
   .
   Fever and leukocytosis:  no clear source at this time, cultures are
   pending, GS on sputum showed 4+ GNRs, most likely source is pulmonary
   considering the cough.  [**Month (only) 8**] not be clearing known pseudomonas.
   - continue current abx
   - trend fever curve/ WBCs
   .
   Hyponatremia-likely secondary to SIADH from multiple neuro insults.
   - u lytes and osms consistent with SIADH
   - fluid restrict, will discuss with pharmacy and nutrition
   .
   Tachycardia.  No clear etiology of tachycardia.  Patient is not
   withdrawing and is on standing ativan.  Did not respond to fentanyl
   boluses or extra ativan doses.  Did not respond it IVF boluses,
   either.  Seemed to worsen with coughing fits.
   - likely secondary to fevers
   - consider PE if respiratory sats drop
   .
   Pancreatitis:  Patient with severe necrotizing pancreatitis earlier in
   course of critical illness with pseudocyst formation.  No plans for
   surgical invention.  Lipase is trending down.  CT scan of the abdomen
   on [**7-25**] shows stable pancreatic pseudocysts.
   - trending pancreatic enzymes, down slightly today
   - had high residuals again yesterday, continue tube feeds if possible
   Eosinophilia.  Continues to trend up in spite of being off bactrim for
   several days.  Has potentional to have waxing and [**Doctor Last Name 226**] eosinophilia
   for two weeks after offending [**Doctor Last Name **] removed.
   - continue tobra/cipro for now
   - continue dilantin for now, monitor for new drug rashes
   - trend eos count
   .
   S/p PEA arrest.  This is felt to be secondary to mucous plugging from
   VAP, continue suctioning as needed.  Additionally, patient was
   hypoglycemic on the floor in setting of recently starting glargine.
   - monitor on tele
   Diabetes.  Had hypoglycemia during PEA arrest after initation of
   glargine.  Now that patient is finally tolerating tube feeds,
   anticipate patient will have hyperglycemia.
   - follow fingersticks and cover with HISS
   - if long acting insulin is needed will start low given recent
   hypoglycemia
   .
   Hypercalcemia: Unclear etiology, but most likely secondary to bone
   turnover from being immobile and poor kidney excretion.
   - appreciate Endo recs
   - s/p pamidronate
   - stopped calcitonin
   - follow ca and monitor for hypocalcemia
   .
   SMV thrombus.  Therapeutic on heparin drip for SMV thrombus likely
   secondary to severe pancreatitis.
   - stopped hep gtt as therapeutic
   - initiate bridging with coumadin with plan for 6 month course
   .
   Metabolic acidosis.  Likely multifactorial secondary to prior NGT
   suctioning, seizures.
   - follow bicarb
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2131-7-30**] 05:22 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2131-7-20**] 04:06 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2131-07-30 10:19:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   *Worsening leukocytosis over the weekend
   *Coughing slightly decreased, but briefly on mechanicla ventilation
   *resumption of calcitonin rec'd by Endocrine
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Tobramycin - [**2131-7-28**] 10:00 AM
   Ciprofloxacin - [**2131-7-29**] 08:22 PM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2131-7-29**] 12:45 PM
   Fentanyl - [**2131-7-30**] 02:16 AM
   Famotidine (Pepcid) - [**2131-7-30**] 08:25 AM
   Dilantin - [**2131-7-30**] 09:00 AM
   Other medications:
   chlorhexidine, SSI, alb, keppra 200 Q12, lorazepam, reglan QID,
   dilantin, warfarin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-7-30**] 10:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.3
C (99.2
   HR: 121 (111 - 126) bpm
   BP: 141/52(72) {109/39(58) - 154/92(99)} mmHg
   RR: 23 (14 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 98.8 kg (admission): 99.5 kg
   Height: 71 Inch
             Total In:
                                                                  3,392 mL
                                                                    643 mL
   PO:
             TF:
                                                                  1,218 mL
                                                                    354 mL
   IVF:
                                                                  1,964 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  2,955 mL
                                                                  1,120 mL
   Urine:
                                                                  2,955 mL
                                                                    970 mL
   NG:
   150 mL
   Stool:
   Drains:
   Balance:
                                                                    437 mL
                                                                   -477 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 484 (484 - 625) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 75
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///17/
   Ve: 11 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, NG
   tube, trach
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Responds to: Not assessed, Movement: Not
   assessed, No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   7.4 g/dL
   461 K/uL
   240 mg/dL
   0.7 mg/dL
   17 mEq/L
   4.3 mEq/L
   9 mg/dL
   103 mEq/L
   128 mEq/L
   23.7 %
   21.4 K/uL
        [image002.jpg]
                             [**2131-7-25**]  04:21 AM
                             [**2131-7-25**]  08:42 PM
                             [**2131-7-26**]  02:42 AM
                             [**2131-7-26**]  07:54 PM
                             [**2131-7-26**]  11:43 PM
                             [**2131-7-27**]  04:23 AM
                             [**2131-7-28**]  03:28 AM
                             [**2131-7-29**]  05:28 AM
                             [**2131-7-29**]  05:42 PM
                             [**2131-7-30**]  04:13 AM
   WBC
   17.0
   17.9
   16.9
   15.1
   17.3
   20.1
   21.4
   Hct
   24.0
   25.2
   22.9
   22.6
   23.5
   23.5
   23.7
   Plt
   [**Telephone/Fax (3) **]58
   437
   405
   461
   Cr
   0.7
   0.7
   0.6
   0.7
   0.6
   0.7
   0.7
   0.6
   0.7
   Glucose
   147
   129
   155
   176
   165
   231
   [**Telephone/Fax (3) 7963**]
   Other labs: PT / PTT / INR:22.1/34.6/2.1, CK / CKMB /
   Troponin-T:17//0.10, ALT / AST:14/23, Alk Phos / T Bili:136/0.7,
   Amylase / Lipase:71/210, Differential-Neuts:70.0 %, Band:1.0 %,
   Lymph:15.0 %, Mono:4.0 %, Eos:7.0 %, Lactic Acid:1.3 mmol/L,
   Albumin:2.4 g/dL, LDH:214 IU/L, Ca++:9.8 mg/dL, Mg++:1.6 mg/dL, PO4:3.9
   mg/dL
   Imaging: CXR: left base infiltrate vs linear atelectasis
   Microbiology: 4+ GNR's in sputum (GS_)
   Urine Culture- GNR + yeast
   Assessment and Plan
 LEUKOCYTOSIS
 ANOXIC BRAIN DAMAGE (ANOXIC ENCEPHALOPATHY, HYPOXIC ISCHEMIC)
 PANCREATITIS, ACUTE
   Necrotizing Pancreatitis
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   28 yo male with complicated hospital course following alcoholic
   pancreatitis [**5-12**] with pseudocysts, anoxic encephalopahty, seizure, VAP
   1. Acute respiratory failure
   *On cipro and tobra for Pseudomonas VAP
   *Back on PSV ventilation over the weekend which appears associated with
   a decrease in coughing
   2. Leukocytosis
   *Leukocytosis and persistent GNR's from cultures concerning for inadeq.
   treatment- check peak level
   *Will consult ID  re: abx regimen, given persistent GNR+ and hx of
   multiple drug resistances
   3. AMS: minimal change, though multifactorial (anoxic enceph.,
   infections, hypercalcemia, seizures). Continue keppra/dilantin for
   seizures.
   4. Hyponatremia: mildly improved with water restriction.
   5. Pancreatitis: Pancreatic enzymes decreasing. Had been tolerating
   TF's in past few days, so etiology for N/V unclear. [**Name2 (NI) **] resume enteral
   feeds at lower rate and see if he tolerates.
   6. Hypercalcemia: still elevated, follow daily, calcitonin if it
   conitnues to rise
   7. SMV thrombus: on coumadin anticoagulation
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2131-7-30**] 05:22 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2131-7-20**] 04:06 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2131-07-31 07:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2131-7-30**] 10:45 AM
   Blood x2 Venipuncture and RPICC
 URINE CULTURE - At [**2131-7-30**] 11:00 AM
 SPUTUM CULTURE - At [**2131-7-30**] 11:15 AM
 FEVER - 101.5
F - [**2131-7-30**] 06:00 PM
   - Tobra peak = 19 (greater than 8 suggesting appropriate trough)
   - continues to have fevers and rising wbc with GNRs in sputum; ID
   consulted and recommended increasing tobra frequency to 6 mg/kg q 24
   hours and reducing cipro dose to 400 q 12 hours.  They also suggested
   resuming linezolid for GPC coverage.  They recommend Colistin if he is
   decompensating.
   - Neuro did not leave any recs.
   - Endo recommended considering additional pamidronate dose tomorrow and
   consider resuming calcitonin.  Also, recommending 2units regular I q 6
   hours, but given that tube feeds are going off and on, we held off.  I
   tightened the ISS.
   - [**7-28**] - sputum cx shows 2 morphologies of pseudomonas.  [**7-30**] sputum
   cultures shows 4+ GNRs.
   - ongoing vomiting thoughout the day and night
   - continues to spike fevers
   - mother concerned because patient is not looking well
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Tobramycin - [**2131-7-30**] 10:00 AM
   Linezolid - [**2131-7-31**] 12:04 AM
   Ciprofloxacin - [**2131-7-31**] 05:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2131-7-30**] 08:44 PM
   Dilantin - [**2131-7-31**] 12:37 AM
   Lorazepam (Ativan) - [**2131-7-31**] 05:32 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-7-31**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.9
C (100.2
   HR: 116 (113 - 127) bpm
   BP: 115/50(66) {115/46(64) - 141/92(99)} mmHg
   RR: 30 (20 - 36) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 98.8 kg (admission): 99.5 kg
   Height: 71 Inch
             Total In:
                                                                  1,860 mL
                                                                    764 mL
   PO:
             TF:
                                                                    700 mL
                                                                    128 mL
   IVF:
                                                                    920 mL
                                                                    637 mL
   Blood products:
   Total out:
                                                                  2,310 mL
                                                                    620 mL
   Urine:
                                                                  2,160 mL
                                                                    520 mL
   NG:
                                                                    150 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                   -450 mL
                                                                    144 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 495 (458 - 567) mL
   PS : 10 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///15/
   Ve: 13.7 L/min
   Physical Examination
   Gen: trached, not interactive
   HEENT: PERRL, does not track, opens sponatenously, trach site with
   erythema and skin erosion with some mild purulent discharge
   CV: RRR< no m/r/g
   Pulm: Coarse breath sounds diffusely
   Abd: soft, NT, ND, bowel sounds present
   Ext: peripheral edema, R leg slightly more edematous than L leg, skin
   tears throughout
   Labs / Radiology
   541 K/uL
   7.5 g/dL
   183 mg/dL
   0.8 mg/dL
   15 mEq/L
   4.4 mEq/L
   11 mg/dL
   103 mEq/L
   128 mEq/L
   24.9 %
   31.0 K/uL
        [image002.jpg]
                             [**2131-7-26**]  02:42 AM
                             [**2131-7-26**]  07:54 PM
                             [**2131-7-26**]  11:43 PM
                             [**2131-7-27**]  04:23 AM
                             [**2131-7-28**]  03:28 AM
                             [**2131-7-29**]  05:28 AM
                             [**2131-7-29**]  05:42 PM
                             [**2131-7-30**]  04:13 AM
                             [**2131-7-30**]  04:43 PM
                             [**2131-7-31**]  03:19 AM
   WBC
   17.9
   16.9
   15.1
   17.3
   20.1
   21.4
   31.0
   Hct
   25.2
   22.9
   22.6
   23.5
   23.5
   23.7
   24.9
   Plt
   497
   469
   458
   437
   405
   461
   541
   Cr
   0.6
   0.7
   0.6
   0.7
   0.7
   0.6
   0.7
   0.5
   0.8
   Glucose
   155
   176
   165
   [**Telephone/Fax (2) 7981**]83
   Other labs: PT / PTT / INR:22.5/34.7/2.1, CK / CKMB /
   Troponin-T:17//0.10, ALT / AST:[**12-25**], Alk Phos / T Bili:123/0.8,
   Amylase / Lipase:71/169, Differential-Neuts:89.0 %, Band:0.0 %,
   Lymph:7.0 %, Mono:4.0 %, Eos:0.0 %, Lactic Acid:1.7 mmol/L, Albumin:2.4
   g/dL, LDH:216 IU/L, Ca++:9.2 mg/dL, Mg++:1.4 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   28 yo man with h/o recent admission with necrotizing pancreatitis c/b
   pseudocysts, s/p PEA arrest x2 with anoxic brain injury and seizure,
   being treated for VAP with tobra/cipro, though having rising WBC and
   fevers.
   Fever/Leukocytosis:  most likely secondary to pneumonia as sputum
   growing 2 colonies of pseudomonas.  The tobra and cipro seem
   appropriately dosed, but we did adjust timing per ID recs.  Could be
   other source, including c.diff as his abd exam is slightly tender and
   his stool output has increased.
   - send stool for c.diff culture, added PO flagyl for empiric treatment
   - tobra/cipro as dosed above per ID recs
   - allergy consult for meropenem desensitization and possible test of
   other cephalosporins
   - consider colistin if patient hemodynamics change
   - consider fluconazole for yeast in urine if it regrows after foley
   change
   - will try to obtain peripheral access, pull PICC and culture line
   .
   AMS secondary to Anoxic Brain Injury/Seizures.  Patient has suffered
   two PEA arrests and has anoxic brain injury with seizure activity.  Not
   interactive.  He was previously in has been loaded with phenytoin.  No
   longer receiving continue EEG monitor.  Prognosis regarding mental
   status is poor.
   - continue keppra 1 g [**Hospital1 **]
   - continue phenytoin 100 mg TID
   - continue standing ativan
   - neuro recommends to continue current therapy, checking dilantin level
   in AM
   . .
   Respiratory failure/VAP.  Patient has vigorous cough and tolerates PS
   better than TCM.  On tobra/cipro with plan for two week course to be
   completed [**8-3**].  However, rising WBC, new infiltrate is suggestive of
   ?new PNA versus inadequately treated VAP, vs other infection.  Sputum
   culture growing 4+ GNRs in spite of double GNR coverage with
   tobra-cipro.
   - continue tobra/cipro (end date [**8-3**]), see above for treatment plan
   - continue nebs PRN
   - continue to keep on PS for now
   .
   Hyponatremia-likely secondary to SIADH from multiple neuro insults.
   Urine lytes and osms consistent with SIADH.  Will give trial of
   diuresis if no improvement after fluid restriction given that patient
   is volume overloaded.
   - fluid restrict
   .
   Tachycardia.  No clear etiology of tachycardia.  Did not respond to
   fentanyl boluses or extra ativan doses.  Did not respond it IVF
   boluses, either.  Seemed to worsen with coughing fits.  Likely
   partially related to fevers, though tachycardia precedes fevers.
   - telemetry, has somewhat stabalized in 110s
   .
   Pancreatitis:  Patient with severe necrotizing pancreatitis earlier in
   course of critical illness with pseudocyst formation.  No plans for
   surgical invention.  Lipase is trending down.  CT scan of the abdomen
   on [**7-25**] shows stable pancreatic pseudocysts.  Lipase continues to trend
   downward.
   - trending pancreatic enzymes
   - continue tube feeds at reduce rates due to vomiting today
   - consider abd exam if persistent fevers
   Eosinophilia.  Persistent eosinophilia in spite of being off bactrim
   for several days.  Has potentional to have waxing and [**Doctor Last Name 226**]
   eosinophilia for two weeks after offending [**Doctor Last Name **] removed.  [**Month (only) 8**] be
   related to dilantin, but will continue to follow for now.
   - continue tobra/cipro for now
   - resolved because having stress reaction, cont to monitor diffs
   .
   S/p PEA arrest.  This is felt to be secondary to mucous plugging from
   VAP, continue suctioning as needed.  Additionally, patient was
   hypoglycemic on the floor in setting of recently starting glargine.
   - monitor on tele
   Diabetes.  Had hypoglycemia during PEA arrest after initation of
   glargine.  In setting of worsening infection, has had increasing
   hyperglycemia
   - follow fingersticks and cover with HISS, which has been titrated up
   - if long acting insulin is needed will start low given recent
   hypoglycemia
   .
   Hypercalcemia: Unclear etiology, but most likely secondary to bone
   turnover from being immobile and poor kidney excretion.
   - appreciate Endo recs
   - s/p pamidronate
   - consider restarting calcitonin as ca is on the upper limit of normal,
   but stable
   .
   SMV thrombus.  S/p heparin to coumadin bridging for SMV thrombus likely
   secondary to severe pancreatitis.
   - continue coumadin with plan for 6 month course
   - decrease from 2 mg to 1 mg given flagyl initiation
   .
   Metabolic acidosis.  Likely multifactorial secondary to prior NGT
   suctioning, seizures.
   - follow bicarb
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2131-7-31**] 06:12 AM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2131-7-20**] 04:06 AM
   Prophylaxis:
   DVT: coumadin
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2131-07-31 10:27:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   febrile yest- panculture sent. ID  re-consulted.
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Tobramycin - [**2131-7-30**] 10:00 AM
   Ciprofloxacin - [**2131-7-31**] 05:00 AM
   Linezolid - [**2131-7-31**] 10:03 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2131-7-31**] 05:32 AM
   Famotidine (Pepcid) - [**2131-7-31**] 08:26 AM
   Dilantin - [**2131-7-31**] 08:50 AM
   Other medications:
   folate, MVI, peridex, pepcid, heparin sc, reglan, dilantin,
   dextromethorphan, coumadin, ciproflox, linezolid, tobramycin, RISS
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-7-31**] 10:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.7
C (99.9
   HR: 112 (111 - 127) bpm
   BP: 106/42(58) {106/42(58) - 133/71(86)} mmHg
   RR: 22 (20 - 36) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 98.8 kg (admission): 99.5 kg
   Height: 71 Inch
             Total In:
                                                                  1,860 mL
                                                                  1,277 mL
   PO:
             TF:
                                                                    700 mL
                                                                    182 mL
   IVF:
                                                                    920 mL
                                                                  1,095 mL
   Blood products:
   Total out:
                                                                  2,310 mL
                                                                    910 mL
   Urine:
                                                                  2,160 mL
                                                                    810 mL
   NG:
                                                                    150 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                   -450 mL
                                                                    367 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 539 (458 - 567) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.30 / 34 / 69 (VBG)
   Ve: 13.2 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: trach site c/d/i
   Cardiovascular: (S1: Normal), (S2: Normal), tachy
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Tender:
   mid-abd w/ guarding on palp
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Tone: Not assessed
   Labs / Radiology
   7.5 g/dL
   541 K/uL
   183 mg/dL
   0.8 mg/dL
   15 mEq/L
   4.4 mEq/L
   11 mg/dL
   103 mEq/L
   128 mEq/L
   24.9 %
   31.0 K/uL
        [image002.jpg]
                             [**2131-7-26**]  02:42 AM
                             [**2131-7-26**]  07:54 PM
                             [**2131-7-26**]  11:43 PM
                             [**2131-7-27**]  04:23 AM
                             [**2131-7-28**]  03:28 AM
                             [**2131-7-29**]  05:28 AM
                             [**2131-7-29**]  05:42 PM
                             [**2131-7-30**]  04:13 AM
                             [**2131-7-30**]  04:43 PM
                             [**2131-7-31**]  03:19 AM
   WBC
   17.9
   16.9
   15.1
   17.3
   20.1
   21.4
   31.0
   Hct
   25.2
   22.9
   22.6
   23.5
   23.5
   23.7
   24.9
   Plt
   497
   469
   458
   437
   405
   461
   541
   Cr
   0.6
   0.7
   0.6
   0.7
   0.7
   0.6
   0.7
   0.5
   0.8
   Glucose
   155
   176
   165
   [**Telephone/Fax (2) 7981**]83
   Other labs: PT / PTT / INR:22.5/34.7/2.1, CK / CKMB /
   Troponin-T:17//0.10, ALT / AST:[**12-25**], Alk Phos / T Bili:123/0.8,
   Amylase / Lipase:71/169, Differential-Neuts:89.0 %, Band:0.0 %,
   Lymph:7.0 %, Mono:4.0 %, Eos:0.0 %, Lactic Acid:1.7 mmol/L, Albumin:2.4
   g/dL, LDH:216 IU/L, Ca++:9.2 mg/dL, Mg++:1.4 mg/dL, PO4:4.1 mg/dL
   Imaging: [**7-31**] CXR- LLL infiltrate vs atelectasis unchanged
   Microbiology:
   [**7-28**] Urine x2- yeast, Pseudomonas (pan-[**Last Name (un) 46**])
   [**7-28**] Sputum- Pseudomonas ([**Last Name (un) 46**] pending)
   [**7-30**] Sputum- GNRs
   Assessment and Plan
   28 yo male with complicated hospital course following alcoholic
   pancreatitis [**5-12**] with pseudocysts post-pacnreatitis, anoxic
   encephalopahty, seizure, VAP
   1. Acute on chronic respiratory failure- Pseudomonas VAP, persistent
   despite tobramycin and ciprofloxacin
   -on cipro and tobra for Pseudomonas VAP
   -asking Allergy to assist w/ meropenem desensitization per ID request
   -per ID, linezolid added yest for empiric GPC coverage
   -vent support for now
   2. Leukocytosis- persistent Pseudomonas growth in urine and sputum,
   also w/ diarrhea and abd discomfort
   -VAP coverage and ABX issues as above
   -empiric C.diff w/ metronidazole and poss po vanco; f/u C.diff toxin
   assay
   -may consider treating yeast in urine, but will check on urine
   post-foley change
   3. AMS: minimal change, though multifactorial (anoxic enceph.,
   infections, hypercalcemia, seizures). Continue keppra/dilantin for
   seizures.
   4. Hyponatremia: mildly improved with free water restriction.
   5. Pancreatitis: Pancreatic enzymes decreasing. Had been tolerating
   TF's in past few days, so etiology for N/V unclear, perhaps related to
   acute infxn. Lipase continuing to downtrend. tf at lower rate as
   tolerated
   -following LFTs and amylase/lipase
   -consider CT a/p if still no response to tx for infectious issues as
   above
   6. Hypercalcemia: stable, follow daily, calcitonin if it conitnues to
   rise
   7. SMV thrombus: on coumadin anticoagulation
   -down-dose coumadin today given addition of ABX, 1mg/d and follow INR
   Remainder of plan as per housestaff note.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2131-7-31**] 06:12 AM 20 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2131-7-20**] 04:06 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined the pt independently, and was present with the ICU
   team for the key portions of services provided. I would add: 28 yo male
   with prolonged course  following [**5-12**] admission for alcoholic
   pancreatitis including pseudocysts, acute respiratory failure, VAP, PEA
   arrest, anoxic encephalopathy, recurrent seizures, hypercalcemia, SMV
   thrombosis.  Transferred to MICU [**7-20**] following PEA arrest for ?mucous
   plugging, subseq. Course notable for Pseudomonas VAP, stenotrophomonas
   UTI, seizures. Slow improvement last wk, but most recent days
   characterized by worsening leukocytosis with WBC up to 30
s today with
   high concern for suboptimally treated sepsis. Major issues:
   1. Leukocytosis/sepsis: Pseudomonas growing out of recent sputum
   cultures; repeat sensitivities suggest he
s now resistant to
   ciprofloxacin. Linezolid/flagyl added for empiric VAP/Cdiff coverage.
   ID team re-consulted with potential for needing merepenem- allergy
   seeing for desensitization.
   2. Acute respiratory failure: Currently on PSV ventilation, slow wean
   given paroxysmal coughing on TC and evolving clinical picture
   concerning for worsening sepsis.
   3. Altered mental status: multifactorial, with anoxia, hypercalcemia,
   seizures, meds.
   4. Pancreatitis: CT scan last wk with known pseudocysts, no other acute
   issues. On TF
s as tolerated.
   Pt is critically ill. Total time spent: 45 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1174**] [**Last Name (NamePattern1) **], MD
   on:[**2131-7-31**] 16:12 ------

2131-08-01 07:46:00 Physician Resident Progress Note
Chief Complaint: anoxic brain injury, VAP
   24 Hour Events:
   [**7-31**]
   -ID, prefers to tx with meropenem with allergies recs re: desensit as
   30% of people develop irreversible renal failure with colistin. also
   prefer to await sensitivities. Would tx with fluconazole if persistent
   yeast despite foley change.
   -ID asked to start ceftaz while awaiting decision from allergy re:
   meropenem desensit
   -allergy consulted
   -asked neuro re: benzos, state 1mg q8h is ok, but do slowly
   -tx empirically for c.diff with po flagyl
   -PIVs attempted, keeping picc for today as may start meropenem and
   ?anaphylaxis etc.
   -allergy believes no value in meropenem desensit as delayed/cell
   mediated type rxn vs. IgE immediate/anaphylactoid rxn and advises
   avoiding this abx.
   -had generalized 2 TC seizures given 1mg ativan with good effect
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Tobramycin - [**2131-7-31**] 09:47 PM
   Linezolid - [**2131-7-31**] 10:15 PM
   Metronidazole - [**2131-7-31**] 11:19 PM
   Ciprofloxacin - [**2131-8-1**] 04:17 AM
   Ceftazidime - [**2131-8-1**] 04:23 AM
   Infusions:
   Other ICU medications:
   Coumadin (Warfarin) - [**2131-7-31**] 04:01 PM
   Famotidine (Pepcid) - [**2131-7-31**] 07:11 PM
   Dilantin - [**2131-7-31**] 11:19 PM
   Lorazepam (Ativan) - [**2131-8-1**] 05:35 AM
   Other medications:
   Ceftaz d 2
   Coumadin 1 mg daily
   Flagyl d2
   Linezolid d 3
   Tobramycin d ???? [**2131-7-23**]
   ISS
   Tylenol
   Phenytoin
   Cipro d1 [**7-27**]
   Albuterol
   Fentanyl prn
   Reglan
   Ativan
   Keppra
   Famotidine
   MVI
   Folate
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-8-1**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38.3
C (100.9
   HR: 116 (110 - 118) bpm
   BP: 99/47(59) {99/42(57) - 134/68(82)} mmHg
   RR: 23 (22 - 29) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 98.8 kg (admission): 99.5 kg
   Height: 71 Inch
             Total In:
                                                                  2,921 mL
                                                                    609 mL
   PO:
             TF:
                                                                    461 mL
                                                                    144 mL
   IVF:
                                                                  2,430 mL
                                                                    465 mL
   Blood products:
   Total out:
                                                                  1,870 mL
                                                                    660 mL
   Urine:
                                                                  1,720 mL
                                                                    660 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  1,051 mL
                                                                    -51 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 630 (512 - 630) mL
   PS : 12 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 109
   PIP: 17 cmH2O
   SpO2: 100%
   ABG: ///14/
   Ve: 15.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   515 K/uL
   6.6 g/dL
   138 mg/dL
   0.7 mg/dL
   14 mEq/L
   4.1 mEq/L
   11 mg/dL
   104 mEq/L
   126 mEq/L
   21.9 %
   19.2 K/uL
        [image002.jpg]
                             [**2131-7-26**]  07:54 PM
                             [**2131-7-26**]  11:43 PM
                             [**2131-7-27**]  04:23 AM
                             [**2131-7-28**]  03:28 AM
                             [**2131-7-29**]  05:28 AM
                             [**2131-7-29**]  05:42 PM
                             [**2131-7-30**]  04:13 AM
                             [**2131-7-30**]  04:43 PM
                             [**2131-7-31**]  03:19 AM
                             [**2131-8-1**]  04:00 AM
   WBC
   16.9
   15.1
   17.3
   20.1
   21.4
   31.0
   19.2
   Hct
   22.9
   22.6
   23.5
   23.5
   23.7
   24.9
   21.9
   Plt
   [**Telephone/Fax (2) 7987**]
   515
   Cr
   0.7
   0.6
   0.7
   0.7
   0.6
   0.7
   0.5
   0.8
   0.7
   Glucose
   176
   165
   231
   [**Telephone/Fax (3) 7963**]
   183
   138
   Other labs: PT / PTT / INR:23.2/35.9/2.2, CK / CKMB /
   Troponin-T:17//0.10, ALT / AST:[**12-23**], Alk Phos / T Bili:119/0.7,
   Amylase / Lipase:71/148, Differential-Neuts:76.0 %, Band:1.0 %,
   Lymph:11.0 %, Mono:8.0 %, Eos:3.0 %, Lactic Acid:1.7 mmol/L,
   Albumin:2.4 g/dL, LDH:240 IU/L, Ca++:8.6 mg/dL, Mg++:1.6 mg/dL, PO4:3.4
   mg/dL
   Assessment and Plan
   28 yo man with h/o recent admission with necrotizing pancreatitis c/b
   pseudocysts, s/p PEA arrest x2 with anoxic brain injury and seizure,
   being treated for VAP with tobra/cipro, though having rising WBC and
   fevers.
   Fever/Leukocytosis:  most likely secondary to pneumonia as sputum
   growing 2 colonies of pseudomonas.  The tobra and cipro seem
   appropriately dosed, but we did adjust timing per ID recs.  Could be
   other source, including c.diff as his abd exam is slightly tender and
   his stool output has increased.
   - send stool for c.diff culture, added PO flagyl for empiric treatment
   - tobra/cipro as dosed above per ID recs
   - allergy consult for meropenem desensitization and possible test of
   other cephalosporins
   - consider colistin if patient hemodynamics change
   - consider fluconazole for yeast in urine if it regrows after foley
   change
   - will try to obtain peripheral access, pull PICC and culture line
   .
   AMS secondary to Anoxic Brain Injury/Seizures.  Patient has suffered
   two PEA arrests and has anoxic brain injury with seizure activity.  Not
   interactive.  He was previously in has been loaded with phenytoin.  No
   longer receiving continue EEG monitor.  Prognosis regarding mental
   status is poor.
   - continue keppra 1 g [**Hospital1 **]
   - continue phenytoin 100 mg TID
   - continue standing ativan
   - neuro recommends to continue current therapy, checking dilantin level
   in AM
   . .
   Respiratory failure/VAP.  Patient has vigorous cough and tolerates PS
   better than TCM.  On tobra/cipro with plan for two week course to be
   completed [**8-3**].  However, rising WBC, new infiltrate is suggestive of
   ?new PNA versus inadequately treated VAP, vs other infection.  Sputum
   culture growing 4+ GNRs in spite of double GNR coverage with
   tobra-cipro.
   - continue tobra/cipro (end date [**8-3**]), see above for treatment plan
   - continue nebs PRN
   - continue to keep on PS for now
   .
   Hyponatremia-likely secondary to SIADH from multiple neuro insults.
   Urine lytes and osms consistent with SIADH.  Will give trial of
   diuresis if no improvement after fluid restriction given that patient
   is volume overloaded.
   - fluid restrict
   .
   Tachycardia.  No clear etiology of tachycardia.  Did not respond to
   fentanyl boluses or extra ativan doses.  Did not respond it IVF
   boluses, either.  Seemed to worsen with coughing fits.  Likely
   partially related to fevers, though tachycardia precedes fevers.
   - telemetry, has somewhat stabalized in 110s
   .
   Pancreatitis:  Patient with severe necrotizing pancreatitis earlier in
   course of critical illness with pseudocyst formation.  No plans for
   surgical invention.  Lipase is trending down.  CT scan of the abdomen
   on [**7-25**] shows stable pancreatic pseudocysts.  Lipase continues to trend
   downward.
   - trending pancreatic enzymes
   - continue tube feeds at reduce rates due to vomiting today
   - consider abd exam if persistent fevers
   Eosinophilia.  Persistent eosinophilia in spite of being off bactrim
   for several days.  Has potentional to have waxing and [**Doctor Last Name 226**]
   eosinophilia for two weeks after offending [**Doctor Last Name **] removed.  [**Month (only) 8**] be
   related to dilantin, but will continue to follow for now.
   - continue tobra/cipro for now
   - resolved because having stress reaction, cont to monitor diffs
   .
   S/p PEA arrest.  This is felt to be secondary to mucous plugging from
   VAP, continue suctioning as needed.  Additionally, patient was
   hypoglycemic on the floor in setting of recently starting glargine.
   - monitor on tele
   Diabetes.  Had hypoglycemia during PEA arrest after initation of
   glargine.  In setting of worsening infection, has had increasing
   hyperglycemia
   - follow fingersticks and cover with HISS, which has been titrated up
   - if long acting insulin is needed will start low given recent
   hypoglycemia
   .
   Hypercalcemia: Unclear etiology, but most likely secondary to bone
   turnover from being immobile and poor kidney excretion.
   - appreciate Endo recs
   - s/p pamidronate
   - consider restarting calcitonin as ca is on the upper limit of normal,
   but stable
   .
   SMV thrombus.  S/p heparin to coumadin bridging for SMV thrombus likely
   secondary to severe pancreatitis.
   - continue coumadin with plan for 6 month course
   - decrease from 2 mg to 1 mg given flagyl initiation
   .
   Metabolic acidosis.  Likely multifactorial secondary to prior NGT
   suctioning, seizures.
   - follow bicarb
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2131-7-20**] 04:06 AM
   18 Gauge - [**2131-7-31**] 12:15 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2131-08-01 14:24:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergy consult: felt that densensitization would not be helpful as
   pt's course suggested a delayed hypersensitivity reaction
   ID consult: continued to feel strongly abt merepenem given high MIC's
   to all other abx
   Linezolid, flagyl, ceftazidine added
   2 tonic-clonic seizures overnight
                   History obtained from Medical records
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Tobramycin - [**2131-7-31**] 09:47 PM
   Metronidazole - [**2131-7-31**] 11:19 PM
   Ciprofloxacin - [**2131-8-1**] 04:17 AM
   Linezolid - [**2131-8-1**] 10:00 AM
   Ceftazidime - [**2131-8-1**] 12:00 PM
   Infusions:
   Other ICU medications:
   Coumadin (Warfarin) - [**2131-7-31**] 04:01 PM
   Famotidine (Pepcid) - [**2131-8-1**] 08:29 AM
   Dilantin - [**2131-8-1**] 12:00 PM
   Lorazepam (Ativan) - [**2131-8-1**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-8-1**] 02:20 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.2
C (98.9
   HR: 99 (99 - 118) bpm
   BP: 103/45(59) {99/42(57) - 134/68(82)} mmHg
   RR: 25 (22 - 38) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 98.8 kg (admission): 99.5 kg
   Height: 71 Inch
             Total In:
                                                                  2,921 mL
                                                                  1,442 mL
   PO:
             TF:
                                                                    461 mL
                                                                    281 mL
   IVF:
                                                                  2,430 mL
                                                                  1,111 mL
   Blood products:
   Total out:
                                                                  1,870 mL
                                                                  1,110 mL
   Urine:
                                                                  1,720 mL
                                                                  1,110 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  1,051 mL
                                                                    332 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 429 (429 - 630) mL
   PS : 5 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 109
   PIP: 19 cmH2O
   SpO2: 100%
   ABG: ///14/
   Ve: 14.3 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, NG
   tube, No(t) OG tube, trach
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Skin:  Warm, No(t) Jaundice
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   6.6 g/dL
   515 K/uL
   138 mg/dL
   0.7 mg/dL
   14 mEq/L
   4.1 mEq/L
   11 mg/dL
   104 mEq/L
   126 mEq/L
   21.9 %
   19.2 K/uL
        [image002.jpg]
                             [**2131-7-26**]  07:54 PM
                             [**2131-7-26**]  11:43 PM
                             [**2131-7-27**]  04:23 AM
                             [**2131-7-28**]  03:28 AM
                             [**2131-7-29**]  05:28 AM
                             [**2131-7-29**]  05:42 PM
                             [**2131-7-30**]  04:13 AM
                             [**2131-7-30**]  04:43 PM
                             [**2131-7-31**]  03:19 AM
                             [**2131-8-1**]  04:00 AM
   WBC
   16.9
   15.1
   17.3
   20.1
   21.4
   31.0
   19.2
   Hct
   22.9
   22.6
   23.5
   23.5
   23.7
   24.9
   21.9
   Plt
   [**Telephone/Fax (2) 7987**]
   515
   Cr
   0.7
   0.6
   0.7
   0.7
   0.6
   0.7
   0.5
   0.8
   0.7
   Glucose
   176
   165
   231
   [**Telephone/Fax (3) 7963**]
   183
   138
   Other labs: PT / PTT / INR:23.2/35.9/2.2, CK / CKMB /
   Troponin-T:17//0.10, ALT / AST:[**12-23**], Alk Phos / T Bili:119/0.7,
   Amylase / Lipase:71/148, Differential-Neuts:76.0 %, Band:1.0 %,
   Lymph:11.0 %, Mono:8.0 %, Eos:3.0 %, Lactic Acid:1.7 mmol/L,
   Albumin:2.4 g/dL, LDH:240 IU/L, Ca++:8.6 mg/dL, Mg++:1.6 mg/dL, PO4:3.4
   mg/dL
   Assessment and Plan
 LEUKOCYTOSIS
 ANOXIC BRAIN DAMAGE (ANOXIC ENCEPHALOPATHY, HYPOXIC ISCHEMIC)
 PANCREATITIS, ACUTE
   Necrotizing Pancreatitis
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   28 yo male with complicated hospital course following alcoholic
   pancreatitis [**5-12**] with pseudocysts post-pacnreatitis, anoxic
   encephalopahty, seizure, VAP
   1. Acute on chronic respiratory failure- Pseudomonas VAP, persistent
   despite tobramycin and ciprofloxacin
   On PS ventilation and will continue to wean: decrease to PS 5 and if he
   tolerates, will consider TC this afternoon
   2. Leukocytosis- persistent Pseudomonas growth in urine and sputum. His
   leukocytosis is decreased today. Multiple abx added yesterday, so
   unclear which one caused the improvement. Given high MIC to Ceftazidine
   (8); ID remains concerned that his current abx coverage will be
   inadequate to treat his Pseudomonas VAP which is newly resistant to
   cipro
   *Ceftazidine and Tobramycin for Pseudomonas VAP
   *Cultures so far negative for GPC infection so will dc linezolid. Will
   also dc ciproflox given resistance to Pseudomonas. Continue flagyl for
   empiric Cdiff coverage
   *No benefit from desensitization per Allergy consult. Risks of
   re-administering Merepenem acknowledged; however, it appears there
   aren't any other adequate therpeutic options left. Will touch base with
   them regarding degree of systemic risk associated with giving Merepenem
   3. AMS: multifactorial (anoxic enceph., infections, hypercalcemia,
   seizures).Spoke with neuro consult team who attribute seizures
   yesterday to a known interaction between dilantin and coumadin
   resulting in subtherapeutic dosing.
   *Loaded with fosphenytoin this morning
   *Neuro will contact with recs in dilantin dosing based on post-loading
   level
   *No changes to current doses of keppra and lorazepam
    4. Hyponatremia: mildly decreased this morning, despite free water
   restriction. Could reflect recent seizure activity. Will re-check
   tomorrow. Consider diuresis if it remains low
   5. Pancreatitis: Pancreatic enzymes decreasing. Lipase continuing to
   downtrend. Continue TF as tolerated
   -following LFTs and amylase/lipase
   6. Hypercalcemia: stable, follow daily, calcitonin if it conitnues to
   rise
   7. SMV thrombus: on coumadin anticoagulation
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2131-8-1**] 07:12 AM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2131-7-20**] 04:06 AM
   18 Gauge - [**2131-7-31**] 12:15 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2131-08-02 06:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - patient with decreasing leukocytosis, decreasing fever curve; ID
   recommends staying course for pseudomonas treatment, although think we
   will likely have ceftaz resistance soon
   - continued ceftaz, tobra (changed dosing from q36 to q48hrs), and
   flagyl (although c.diff was negative)
   - stopped linezolid as no evidence of GPC
   - stopped cipro as pseudomonas cipro resistant
   - neuro recommended loading dose of dilantin and then changed daily
   dosing to 100 mg at 8am, 100 mg at 4pm, 200 mg at 12am, will check
   dilantin level tomorrow
   - no new recs from endo, cont to monitor calcium
   - did not tolerate trach mask in afternoon, was very tachypneic almost
   immediately after stopping pressure support
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Tobramycin - [**2131-7-31**] 09:47 PM
   Metronidazole - [**2131-7-31**] 11:19 PM
   Ciprofloxacin - [**2131-8-1**] 04:17 AM
   Linezolid - [**2131-8-1**] 10:00 AM
   Ceftazidime - [**2131-8-2**] 04:00 AM
   Infusions:
   Other ICU medications:
   Coumadin (Warfarin) - [**2131-8-1**] 04:13 PM
   Famotidine (Pepcid) - [**2131-8-1**] 08:00 PM
   Lorazepam (Ativan) - [**2131-8-2**] 12:00 AM
   Dilantin - [**2131-8-2**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-8-2**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.6
C (99.6
   HR: 112 (99 - 116) bpm
   BP: 115/56(70) {103/32(50) - 123/71(83)} mmHg
   RR: 36 (22 - 38) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 98.8 kg (admission): 99.5 kg
   Height: 71 Inch
             Total In:
                                                                  2,161 mL
                                                                    550 mL
   PO:
             TF:
                                                                    561 mL
                                                                    274 mL
   IVF:
                                                                  1,510 mL
                                                                    216 mL
   Blood products:
   Total out:
                                                                  2,060 mL
                                                                    970 mL
   Urine:
                                                                  2,060 mL
                                                                    970 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    101 mL
                                                                   -420 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 441 (429 - 629) mL
   PS : 5 cmH2O
   RR (Spontaneous): 33
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 108
   PIP: 12 cmH2O
   SpO2: 100%
   ABG: ///14/
   Ve: 15.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   572 K/uL
   6.3 g/dL
   179 mg/dL
   0.7 mg/dL
   14 mEq/L
   4.0 mEq/L
   11 mg/dL
   106 mEq/L
   127 mEq/L
   20.6 %
   13.8 K/uL
        [image002.jpg]
                             [**2131-7-27**]  04:23 AM
                             [**2131-7-28**]  03:28 AM
                             [**2131-7-29**]  05:28 AM
                             [**2131-7-29**]  05:42 PM
                             [**2131-7-30**]  04:13 AM
                             [**2131-7-30**]  04:43 PM
                             [**2131-7-31**]  03:19 AM
                             [**2131-8-1**]  04:00 AM
                             [**2131-8-1**]  04:46 PM
                             [**2131-8-2**]  02:53 AM
   WBC
   15.1
   17.3
   20.1
   21.4
   31.0
   19.2
   15.8
   13.8
   Hct
   22.6
   23.5
   23.5
   23.7
   24.9
   21.9
   22.0
   20.6
   Plt
   458
   437
   405
   461
   [**Telephone/Fax (2) 8006**]72
   Cr
   0.6
   0.7
   0.7
   0.6
   0.7
   0.5
   0.8
   0.7
   0.7
   0.7
   Glucose
   165
   231
   262
   197
   [**Telephone/Fax (2) 8007**]95
   179
   Other labs: PT / PTT / INR:20.8/33.7/1.9, CK / CKMB /
   Troponin-T:17//0.10, ALT / AST:[**7-17**], Alk Phos / T Bili:113/0.6, Amylase
   / Lipase:71/132, Differential-Neuts:73.0 %, Band:0.0 %, Lymph:15.3 %,
   Mono:4.2 %, Eos:4.7 %, Lactic Acid:1.7 mmol/L, Albumin:2.4 g/dL,
   LDH:166 IU/L, Ca++:8.5 mg/dL, Mg++:1.5 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   28 yo man with h/o recent admission with necrotizing pancreatitis c/b
   pseudocysts, s/p PEA arrest x2 with anoxic brain injury and seizures,
   with ongoing fevers likely secondary to resistant pseudomonas VAP.
   Fever/Leukocytosis:  Most likely secondary to pneumonia as sputum
   growing 2 colonies of pseudomonas, which is likely secondary to
   resistance.  Could be other source, including c.diff as his abd exam is
   slightly tender and his stool output has increased.  Overall, WBC with
   additional of linezolid, ceftaz and flagyl.  Allergy did not feel that
   desensitization for meropenem would be effective as this was a type 4
   rather than type 1 reaction.
   - d/c cipro as this is lowering seizure threshold and pseudomonas is
   resistant to cipro
   - continue tobra (d1 = [**7-23**]) , but reduce frequency to q 48 hours given
   that 36 hour trough was 1.6
   - continue ceftaz  (day 1 = [**7-31**]) as double coverage
   - continue flagyl (day 1 = [**7-31**]) for empiric c. diff treatment and send
   more stool samples for c. diff; consider d/c of flagyl tomorrow if c.
   diff neg again
   - d/c linezolid as no clear gram positive source
   - cosider meropenem if febrile or unstable; skin blistering occurred in
   the setting of anasarca and occurred predominantly on the legs which is
   atypical for a drug rash; nevertheless, we will reserve [**Last Name (un) **] unless
   absolutely necessary
   - f/u colisitin sensitivies for pseudomonas, though would prefer to
   avoid this as it can cause irreversible renal failure
   .
   AMS secondary to Anoxic Brain Injury/Seizures.  Patient has suffered
   two PEA arrests and has anoxic brain injury with seizure activity.  Not
   interactive.  He was previously in has been loaded with phenytoin.  Has
   two witnessed tonic clonic seizures last night.  Prognosis regarding
   mental status is poor.
   - continue keppra 1 g [**Hospital1 **]
   - continue phenytoin 100 mg TID
   - reload phenytoin per neuro
   - continue standing ativan
 no taper given recent seizures
   - d/c cipro as this lowers the seizure threshold
   . .
   Respiratory failure/VAP.  Patient had vigorous cough and has been
   tolerating PS better than TCM.  However, rising WBC and fevers is
   suggestive of ?new PNA versus inadequately treated VAP, vs other
   infection.  Sputum culture growing 4+ GNRs in spite of double GNR
   coverage with tobra-cipro. In light of cipro resistance, abx have been
   changed to tobra/ceftaz for double gram negative coverage.
   - continue tobra/ ceftaz; d/c cipro
   - continue nebs PRN
   - TCM trial today
   .
   Hyponatremia.  [**Month (only) 8**] be central SIADH due to anoxic brain injury and
   seizures.  Also may be hypovolemic.
   - fluid restrict
   - consider diuresis tomorrow if no improvement.
   .
   Tachycardia.  No clear etiology of tachycardia.  Did not respond to
   fentanyl boluses or extra ativan doses.  Did not respond it IVF
   boluses, either.  Seemed to worsen with coughing fits.  Likely
   partially related to fevers, though tachycardia precedes fevers.  It
   has somewhat stabalized in 100s to 110s.
   - telemetry
   .
   Pancreatitis:  Patient with severe necrotizing pancreatitis earlier in
   course of critical illness with pseudocyst formation.  No plans for
   surgical invention.  CT scan of the abdomen on [**7-25**] shows stable
   pancreatic pseudocysts.  Lipase continues to trend downward.
   - trending pancreatic enzymes
   - continue tube feeds
   Eosinophilia.  Improving; may have been secondary to bactrim exposure.
   .
   S/p PEA arrest.  This is felt to be secondary to mucous plugging from
   VAP, continue suctioning as needed.  Additionally, patient was
   hypoglycemic on the floor in setting of recently starting glargine.
   - monitor on tele
   Diabetes.  Had hypoglycemia during PEA arrest after initation of
   glargine.  In setting of worsening infection, has had increasing
   hyperglycemia
   - follow fingersticks and cover with HISS, which has been titrated up
   - if long acting insulin is needed will start low given recent
   hypoglycemia
   .
   Hypercalcemia: Unclear etiology, but most likely secondary to bone
   turnover from being immobile and poor kidney excretion.   S/p
   pamidronate and Calcitonin.
   - appreciate Endo recs
   .
   SMV thrombus.  S/p heparin to coumadin bridging for SMV thrombus likely
   secondary to severe pancreatitis.
   - continue coumadin with plan for 6 month course
   .
   Metabolic acidosis.  Likely multifactorial secondary to prior saline
   infusion and seizures.
   - follow bicarb
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2131-8-2**] 02:04 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2131-7-20**] 04:06 AM
   18 Gauge - [**2131-7-31**] 12:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-08-02 10:07:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   28 yo male with complicated hospital course following alcoholic
   pancreatitis [**5-12**] with pseudocysts post-pacnreatitis, anoxic
   encephalopahty, seizure, VAP.
   24 Hour Events:
   Did not tolerate trach collar yest
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Tobramycin - [**2131-7-31**] 09:47 PM
   Ciprofloxacin - [**2131-8-1**] 04:17 AM
   Linezolid - [**2131-8-1**] 10:00 AM
   Ceftazidime - [**2131-8-2**] 04:00 AM
   Metronidazole - [**2131-8-2**] 08:58 AM
   Infusions:
   Other ICU medications:
   Coumadin (Warfarin) - [**2131-8-1**] 04:13 PM
   Lorazepam (Ativan) - [**2131-8-2**] 12:00 AM
   Famotidine (Pepcid) - [**2131-8-2**] 08:58 AM
   Dilantin - [**2131-8-2**] 08:58 AM
   Other medications:
   MVI, folate, pepcid, albuterol, lorazepam, keppra, Reglan, coumdain,
   flagyl, ceftaz, tobramycin, Dilantin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-8-2**] 10:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.9
C (100.3
   HR: 114 (99 - 116) bpm
   BP: 121/57(73) {103/32(50) - 123/71(83)} mmHg
   RR: 31 (22 - 36) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 98.8 kg (admission): 99.5 kg
   Height: 71 Inch
             Total In:
                                                                  2,161 mL
                                                                    932 mL
   PO:
             TF:
                                                                    561 mL
                                                                    394 mL
   IVF:
                                                                  1,510 mL
                                                                    448 mL
   Blood products:
   Total out:
                                                                  2,060 mL
                                                                  1,350 mL
   Urine:
                                                                  2,060 mL
                                                                  1,350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    101 mL
                                                                   -418 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 471 (429 - 629) mL
   PS : 5 cmH2O
   RR (Spontaneous): 37
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 108
   PIP: 12 cmH2O
   SpO2: 100%
   ABG: ///14/
   Ve: 15.5 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: trach site c/d/i
   Cardiovascular: (S1: Normal), (S2: Normal), tachy
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Percussion: No(t) Resonant : ), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: No(t) Attentive, Responds to: Noxious stimuli, Movement:
   Non -purposeful, Tone: Not assessed
   Labs / Radiology
   6.3 g/dL
   572 K/uL
   179 mg/dL
   0.7 mg/dL
   14 mEq/L
   4.0 mEq/L
   11 mg/dL
   106 mEq/L
   127 mEq/L
   20.6 %
   13.8 K/uL
        [image002.jpg]
                             [**2131-7-27**]  04:23 AM
                             [**2131-7-28**]  03:28 AM
                             [**2131-7-29**]  05:28 AM
                             [**2131-7-29**]  05:42 PM
                             [**2131-7-30**]  04:13 AM
                             [**2131-7-30**]  04:43 PM
                             [**2131-7-31**]  03:19 AM
                             [**2131-8-1**]  04:00 AM
                             [**2131-8-1**]  04:46 PM
                             [**2131-8-2**]  02:53 AM
   WBC
   15.17/
   17.3
   20.1
   21.4
   31.0
   19.2
   15.8
   13.8
   Hct
   22.6
   23.5
   23.5
   23.7
   24.9
   21.9
   22.0
   20.6
   Plt
   458
   437
   405
   461
   [**Telephone/Fax (2) 8006**]72
   Cr
   0.6
   0.7
   0.7
   0.6
   0.7
   0.5
   0.8
   0.7
   0.7
   0.7
   Glucose
   165
   231
   262
   197
   [**Telephone/Fax (2) 8007**]95
   179
   Other labs: PT / PTT / INR:20.8/33.7/1.9, CK / CKMB /
   Troponin-T:17//0.10, ALT / AST:[**7-17**], Alk Phos / T Bili:113/0.6, Amylase
   / Lipase:71/132, Differential-Neuts:73.0 %, Band:0.0 %, Lymph:15.3 %,
   Mono:4.2 %, Eos:4.7 %, Lactic Acid:1.7 mmol/L, Albumin:2.4 g/dL,
   LDH:166 IU/L, Ca++:8.5 mg/dL, Mg++:1.5 mg/dL, PO4:3.3 mg/dL
   Imaging: [**8-2**] CXR- LL lung field infiltrate vs atelectasis stable
   Microbiology: [**7-28**], [**7-30**] Sputum- Pseudomonas
   [**7-30**] Urine- neg
   [**7-28**] Urine- Pseudomonas, yeast
   Assessment and Plan
   28 yo male with complicated hospital course following alcoholic
   pancreatitis [**5-12**] with pseudocysts post-pacnreatitis, anoxic
   encephalopahty, seizure, VAP
   1. Acute on chronic respiratory failure- Pseudomonas VAP, persistent
   despite tobramycin and ceftazidime
   -On PS ventilation and will continue to wean: decrease to PS 5 and if
   he tolerates, will consider TC this afternoon
   2. Leukocytosis- persistent Pseudomonas growth in urine and sputum. His
   leukocytosis is decreased today. Multiple abx added yesterday, so
   unclear which one caused the improvement. Given high MIC to Ceftazidine
   (8); ID remains concerned that his current abx coverage will be
   inadequate to treat his Pseudomonas VAP which is newly resistant to
   cipro
   -Ceftazidine and Tobramycin for Pseudomonas VAP
   -dc flagyl today
   -per discussion w/ pt's brother (a staff dermatologist at [**Hospital1 587**]), rash in
   [**5-12**] assoc w/ meropenem reaction was NOT a drug rash. therefore might
   consider this with close monitoring for inevitable MDR-Pseudomonas in
   the future
   3. AMS: multifactorial (anoxic enceph., infections, hypercalcemia,
   seizures).Spoke with neuro consult team who attribute seizures 2d ago
   to a known interaction between dilantin and coumadin resulting in
   subtherapeutic dosing.
   -touch base w/ Neuro re: poss change to fosphenytoin for better PICC
   line tolerance
   -cont Keppra and Dilantin
   4. Hyponatremia: mildly decreased this morning, despite free water
   restriction. Could reflect recent seizure activity. Will re-check
   tomorrow. Consider diuresis if it remains low
   -Lasix today
   5. Pancreatitis: Pancreatic enzymes decreasing. Lipase continuing to
   downtrend. Continue TF as tolerated
   -following LFTs and amylase/lipase
   6. Hypercalcemia: stable, follow daily, calcitonin if it conitnues to
   rise
   7. SMV thrombus: on coumadin anticoagulation
   8. Anemia- transfuse 1u prbc today
   -check for guaiac stools
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2131-8-2**] 02:04 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2131-7-20**] 04:06 AM
   18 Gauge - [**2131-7-31**] 12:15 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held  Comments: Long discussion w/
   patient's brother [**Doctor First Name **], dermatologist at [**Hospital1 587**])- he notes that the rash
   in [**5-12**] that was assoc w/ meropenem reaction was NOT a drug rash but
   rather a dependent blistering rash related to anasarca, skin breakdown
   and resultant blistering. he notes that it was NOT truncal.
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined this pt, and was present with the ICU team for the
   key portions of the services provided. I agree with Dr. [**Last Name (STitle) 4052**]
   note, and would add: 28 yo male with prolonged hospitalization
   following severe alcoholic pancreatitis/pseudocysts with acute
   respiratory failure, s/p PEA arrest x 2, VAP, seizures, SMV thrombosis,
   hypercalcemia. Current problems include acute respiratory failure,
   leukocytosis in the context of resistant Pseudomonas VAP,
   multifactorial AMS (hypercalcemia, seizures, infection, anoxic
   encephalopathy). Some improvement today, with dropping WBC and no
   further seizures. Based on discussion with pt
s brother, rash
   previously attributed to merepenem reaction not typical in appearance
   or distribution for drug rash. There is high risk for the Pseudomonas
   recovered from his sputum cultures for becoming more resistant in the
   future, so should he develop s/sx of sepsis, merepenem remains a
   potential treatment choice.
   Will continue to wean vent today, abx adjustment as above.
   Pt is critically ill. Total time spent on pt: 35 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1174**] [**Last Name (NamePattern1) **], MD
   on:[**2131-8-2**] 15:37 ------

2131-08-03 07:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2131-8-2**] 04:26 PM
   [**2131-8-2**]
   - dilantin switched to oral formulation
   - flagyl stopped
   - coumadin increased from 1 mg to 2 mg daily due to subtherapeutic inr;
   heparin bridge also started
   - transfused 1 unit of PRBCs; Hct 20.6 --> 1 unit prbcs --> 23.9 -->
   23.6 --> 19.2 (drawn off the PICC) -->
   - trial of diuresis with lasix
   - picc line is occluded, may need to be replaced in AM --> TPA
   successful in clearing only one of the lines
   - tolerated TCM for a few hours, but then put back on PS due to ongoing
   coughing fits and patient discomfort.  Due to lower tidal volumes than
   baseline (300s), his PS was increased to [**8-8**]
   - endo requesting that we recheck TFTs because his TSH was elevated
   during this visit (6.4, 6.1)
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Ciprofloxacin - [**2131-8-1**] 04:17 AM
   Linezolid - [**2131-8-1**] 10:00 AM
   Metronidazole - [**2131-8-2**] 08:58 AM
   Tobramycin - [**2131-8-2**] 10:00 PM
   Ceftazidime - [**2131-8-3**] 04:00 AM
   Infusions:
   Other ICU medications:
   Dilantin - [**2131-8-2**] 08:58 AM
   Famotidine (Pepcid) - [**2131-8-2**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-8-3**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.5
C (99.5
   HR: 103 (98 - 126) bpm
   BP: 122/64(78) {97/48(53) - 135/71(82)} mmHg
   RR: 25 (24 - 43) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 98.8 kg (admission): 99.5 kg
   Height: 71 Inch
           Total In:
                                                                  2,615 mL
                                                                    960 mL
   PO:
           TF:
                                                                    980 mL
                                                                    286 mL
   IVF:
                                                                  1,134 mL
                                                                    295 mL
   Blood products:
                                                                    350 mL
                                                                     80 mL
   Total out:
                                                                  4,010 mL
                                                                  1,185 mL
   Urine:
                                                                  3,710 mL
                                                                  1,185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,395 mL
                                                                   -225 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 512 (419 - 520) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 101
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///15/
   Ve: 8.9 L/min
   Physical Examination
   Gen: opens eyes as we walk in the room
   HEENT: trach present
   CV: tachycardic, no m/r/g
   Abd: soft,improved epigastric guarding, bowel sounds present
   Ext: b/l pitting edema
   Labs / Radiology
   698 K/uL
   7.0 g/dL
   153 mg/dL
   0.7 mg/dL
   15 mEq/L
   4.2 mEq/L
   9 mg/dL
   105 mEq/L
   129 mEq/L
   22.6 %
   12.3 K/uL
        [image002.jpg]
                             [**2131-7-30**]  04:13 AM
                             [**2131-7-30**]  04:43 PM
                             [**2131-7-31**]  03:19 AM
                             [**2131-8-1**]  04:00 AM
                             [**2131-8-1**]  04:46 PM
                             [**2131-8-2**]  02:53 AM
                             [**2131-8-2**]  04:45 PM
                             [**2131-8-2**]  10:14 PM
                             [**2131-8-3**]  04:15 AM
                             [**2131-8-3**]  05:14 AM
   WBC
   21.4
   31.0
   19.2
   15.8
   13.8
   14.3
   13.0
   12.3
   Hct
   23.7
   24.9
   21.9
   22.0
   20.6
   23.9
   23.6
   19.2
   22.6
   Plt
   461
   541
   515
   590
   572
   711
   695
   748
   698
   Cr
   0.7
   0.5
   0.8
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   Glucose
   [**Telephone/Fax (3) 8007**]95
   179
   157
   157
   153
   Other labs: PT / PTT / INR:18.9/49.6/1.7, CK / CKMB /
   Troponin-T:17//0.10, ALT / AST:[**8-17**], Alk Phos / T Bili:117/0.6, Amylase
   / Lipase:56/137, Differential-Neuts:60.0 %, Band:0.0 %, Lymph:21.0 %,
   Mono:4.0 %, Eos:13.0 %, Lactic Acid:1.7 mmol/L, Albumin:2.5 g/dL,
   LDH:163 IU/L, Ca++:8.7 mg/dL, Mg++:2.4 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   28 yo man with h/o recent admission with necrotizing pancreatitis c/b
   pseudocysts, s/p PEA arrest x2 with anoxic brain injury and seizures,
   with ongoing fevers likely secondary to resistant pseudomonas VAP.
   Fever/Leukocytosis:  Most likely secondary to pneumonia as sputum
   growing 2 colonies of pseudomonas.  Now on ceftaz and tobra.  WBC
   improving, and clinically improved.
   - continue tobra (d1 = [**7-23**]) , but reduce frequency to q 48 hours given
   that 36 hour trough was 1.6
   - continue ceftaz  (day 1 = [**7-31**]) as double coverage
   - cosider meropenem if febrile or unstable; skin blistering occurred in
   the setting of anasarca and occurred predominantly on the legs which is
   atypical for a drug rash; nevertheless, we will reserve [**Last Name (un) **] unless
   absolutely necessary
   - f/u colisitin sensitivies for pseudomonas, though would prefer to
   avoid this as it can cause irreversible renal failure
   - appreciate ID recs
   .
   AMS secondary to Anoxic Brain Injury/Seizures.  Patient has suffered
   two PEA arrests and has anoxic brain injury with seizure activity.  Not
   interactive.  He was previously in has been loaded with phenytoin.  Has
   two witnessed tonic clonic seizures last night.  Prognosis regarding
   mental status is poor.
   - continue keppra 1 g [**Hospital1 **]
   - reloaded dilantin [**8-1**] with one gram, changed dosing to 100mg at 8 am
   and 4 pm, and 200 mg at midnight, level 3.5 this morning; will follow
   up with neuro
   - continue standing ativan
    .
   Respiratory failure/VAP.  Patient had vigorous cough and has been
   tolerating PS better than TCM.  On coverage for resistant pseudomonas
   vap.  Coughing fits seem to be do to irritation as he is s/p bronch
   without obvious source.  Tolerated trach mask for a few hours yesterday
   and returned to PS due to increased coughing and discomfort.
   - continue tobra/ ceftaz
   - continue nebs PRN
   - continue to try trach mask as tolerated
   .
   Anemia.  Likely multifactorial, chronic disease, phlebotomy.  Is slow
   drop, s/p 2 u PRBCs yesterday with appropriate bump (although had one
   hct that was likely spuriously low).
   - cont to monitor hct
   - heparin turned off, but no obvious source of bleeding, will restart
   today and monitor  hct
   - if hct dropping, consider CT scan to look for source of bleeding
   - guiac stools
   .
   Hyponatremia.  [**Month (only) 8**] be central SIADH due to anoxic brain injury and
   seizures.  Also may be hypovolemic.
   - continued to have concentrated TFs and abx
   - Na slightly improved with trial of lasix yesterday, can continue
   lasix today
   .
   Tachycardia.  No clear etiology of tachycardia.  Did not respond to
   fentanyl boluses or extra ativan doses.  Did not respond it IVF
   boluses, either.  Seemed to worsen with coughing fits.  Likely
   partially related to fever, and is improving as fever curve is starting
   to decrease.
   - telemetry
   .
   Pancreatitis:  Patient with severe necrotizing pancreatitis earlier in
   course of critical illness with pseudocyst formation.  No plans for
   surgical invention.  CT scan of the abdomen on [**7-25**] shows stable
   pancreatic pseudocysts.  Lipase continues to trend downward.
   - trending pancreatic enzymes
   - continue tube feeds
   Eosinophilia.  Now PMNs have returned to [**Location 201**], eosinophilia has come
   back; may have been secondary to bactrim exposure.
   .
   S/p PEA arrest.  This is felt to be secondary to mucous plugging from
   VAP, continue suctioning as needed.  Additionally, patient was
   hypoglycemic on the floor in setting of recently starting glargine.
   - monitor on tele
   Diabetes.  Had hypoglycemia during PEA arrest after initation of
   glargine.  In setting of worsening infection, has had increasing
   hyperglycemia
   - follow fingersticks and cover with HISS, which has been titrated up
   - if long acting insulin is needed will start low given recent
   hypoglycemia
   .
   Hypercalcemia: Unclear etiology, but most likely secondary to bone
   turnover from being immobile and poor kidney excretion.   S/p
   pamidronate and Calcitonin.  Ca stable recently.
   - appreciate Endo recs
   - checking thyroid function today
   .
   SMV thrombus.  S/p heparin to coumadin bridging for SMV thrombus likely
   secondary to severe pancreatitis, has had subtherapeutic INR and
   started on heparin gtt yesterday but stopped in the setting of dropped
   hct.
   - would continue to bridge with heparin as long as hct stablized
   - continue coumadin with plan for 6 month course
   - increase coumadin from 1 to 2 mg because of INR 1.9 and flagyl being
   stopped
   .
   Metabolic acidosis.  Likely multifactorial secondary to prior saline
   infusion and seizures.
   - follow bicarb
   Access.  PICC has only one working port.  Will contact PICC team to see
   if can replace PICC today vs. having peripheral access for short
   while.  Would leave PICC in until more permanent access obtained as one
   port is still working.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2131-8-3**] 02:33 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2131-7-20**] 04:06 AM
   18 Gauge - [**2131-7-31**] 12:15 PM
   Prophylaxis:
   DVT: coumadin/ heparin gtt for bridge
   Stress ulcer:  famotidine
   VAP:
   Comments:
   Communication:  Comments: family
   Code status: Full code
   Disposition: ICU for now

2131-08-03 09:59:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   28 yo male with complicated hospital course following alcoholic
   pancreatitis [**5-12**] with pseudocysts post-pacnreatitis, anoxic
   encephalopahty, seizure, VAP
   24 Hour Events:
   2u prbc transfused over last 24h for anemia. Tolerated PSV but not
   trach collar- had same coughing fits and tachypnea as before.
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Ciprofloxacin - [**2131-8-1**] 04:17 AM
   Linezolid - [**2131-8-1**] 10:00 AM
   Metronidazole - [**2131-8-2**] 08:58 AM
   Tobramycin - [**2131-8-2**] 10:00 PM
   Ceftazidime - [**2131-8-3**] 04:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2131-8-3**] 08:00 AM
   Other medications:
   ceftaz, tobramycin, Dilantin, Keppra, Ativan, folate, MVI, Peridex,
   famotidine, albuterol, atrovent, RISS, Reglan, dextromethorphan
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-8-3**] 09:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.4
C (99.4
   HR: 100 (98 - 126) bpm
   BP: 126/66(80) {97/48(65) - 135/71(82)} mmHg
   RR: 28 (24 - 43) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 98.8 kg (admission): 99.5 kg
   Height: 71 Inch
           Total In:
                                                                  2,615 mL
                                                                  1,597 mL
   PO:
           TF:
                                                                    980 mL
                                                                    387 mL
   IVF:
                                                                  1,134 mL
                                                                    470 mL
   Blood products:
                                                                    350 mL
                                                                    350 mL
   Total out:
                                                                  4,010 mL
                                                                  1,335 mL
   Urine:
                                                                  3,710 mL
                                                                  1,335 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,395 mL
                                                                    262 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 480 (419 - 520) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 101
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///15/
   Ve: 8.9 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach site c/d/i
   Cardiovascular: (S1: Normal), (S2: Normal), tachy
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed, much more alert today than previously,
   tracks appropriately w/ eyes, not following commands
   Labs / Radiology
   7.0 g/dL
   698 K/uL
   153 mg/dL
   0.7 mg/dL
   15 mEq/L
   4.2 mEq/L
   9 mg/dL
   105 mEq/L
   129 mEq/L
   22.6 %
   11.5 K/uL
        [image002.jpg]
                             [**2131-7-30**]  04:13 AM
                             [**2131-7-30**]  04:43 PM
                             [**2131-7-31**]  03:19 AM
                             [**2131-8-1**]  04:00 AM
                             [**2131-8-1**]  04:46 PM
                             [**2131-8-2**]  02:53 AM
                             [**2131-8-2**]  04:45 PM
                             [**2131-8-2**]  10:14 PM
                             [**2131-8-3**]  04:15 AM
                             [**2131-8-3**]  05:14 AM
   WBC
   21.4
   31.0
   19.2
   15.8
   13.8
   14.3
   13.0
   12.3
   11.5
   Hct
   23.7
   24.9
   21.9
   22.0
   20.6
   23.9
   23.6
   19.2
   22.6
   Plt
   461
   541
   515
   590
   572
   711
   695
   748
   698
   Cr
   0.7
   0.5
   0.8
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   Glucose
   [**Telephone/Fax (3) 8007**]95
   179
   157
   157
   153
   Other labs: PT / PTT / INR:18.9/49.6/1.7, CK / CKMB /
   Troponin-T:17//0.10, ALT / AST:[**8-17**], Alk Phos / T Bili:117/0.6, Amylase
   / Lipase:56/137, Differential-Neuts:60.0 %, Band:0.0 %, Lymph:21.0 %,
   Mono:4.0 %, Eos:13.0 %, Lactic Acid:1.7 mmol/L, Albumin:2.5 g/dL,
   LDH:163 IU/L, Ca++:8.7 mg/dL, Mg++:2.4 mg/dL, PO4:2.5 mg/dL
   Fluid analysis / Other labs: [**8-3**] Dilantin- 3.5
   Microbiology: no new data- see prior for Pseudomonas positive sputum
   and urine
   Assessment and Plan
   28 yo male with complicated hospital course following alcoholic
   pancreatitis [**5-12**] with pseudocysts post-pacnreatitis, anoxic
   encephalopahty, seizure, VAP
   1. Acute on chronic respiratory failure- Pseudomonas VAP, persistent
   despite tobramycin and ceftazidime
   -On PSV 5/5 and stable, cont trach collar trials
   -Not tolerating trach collar due to coughing fits and tachypnea; will
   ask IP or Thoracics informally about mgmt strategies. For now cont
   lidocaine topical and dextromethorphan
   2. Leukocytosis- likely due to persistent Pseudomonas growth in urine
   and sputum vs seizure activity. His leukocytosis continues to
   defervesce. Given high MIC to Ceftazidine (8), ID remains concerned
   that his current abx coverage will eventually become inadequate to
   treat his Pseudomonas
   -Ceftazidine and Tobramycin for Pseudomonas VAP; per discussion w/ pt's
   brother (a staff dermatologist at [**Hospital1 587**]), rash in [**5-12**] assoc w/ meropenem
   reaction was NOT a drug rash. therefore might consider this with close
   monitoring for inevitable MDR-Pseudomonas in the future
   3. AMS: multifactorial (anoxic enceph., infections, hypercalcemia,
   seizures).Spoke with neuro consult team who attribute seizures 3d ago
   to a known interaction between dilantin and coumadin resulting in
   subtherapeutic dosing.
   -cont Keppra and Dilantin and Ativan
   4. Hyponatremia: hypervolemic, could also reflect recent seizure
   activity.
   -Lasix diuresis today
   -free water restriction
   5. Pancreatitis: Pancreatic enzymes stable. Continue TF as tolerated
   6. Hypercalcemia: stable, follow daily, calcitonin if it conitnues to
   rise
   7. SMV thrombus: on coumadin anticoagulation
   -heparin gtt while subtherapeutic, if Hct stable
   8. Anemia- goal hct > 21
   -check for guaiac stools
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2131-8-3**] 02:33 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2131-7-20**] 04:06 AM
   18 Gauge - [**2131-7-31**] 12:15 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin, and heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   ------ Protected Section ------
   I saw and examined the pt, and was present with the ICU housestaff team
   for the key portions of the services provided. I agree with Dr.
   [**Last Name (STitle) 4052**]
s note, including assessment and plan. 28 yo male admitted
   in [**5-12**] for alcoholic pancreatitis with prolonged hospitalization
   including acute respiratory failure, PEA arrest x 2, anoxic
   encephatlopathy, seizures, hypercalcemia, SMV thrombosis on
   anticoagulation. Appears improved today, based on mental status with
   increased eye tracking. WBC still decreasing, no further seizures since
   repeat fosphrenytoin load earlier this week. Still some concerns that
   the Pseudomonas recovered from recent sputum cultures will become more
   resistant,, but it currently appears to be responding to
   tobramycin/ceftaz. Will try TC again today.
   Pt is critically ill. Total time spent: 30 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1174**] [**Last Name (NamePattern1) **], MD
   on:[**2131-8-3**] 16:40 ------

2131-08-04 06:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -much more alert and interactive today
   -ID continue ceftaz/tobra until [**8-14**] for 2 wk course.
   -given 20mg IV lasix
   -HCT stable
   -TSH/T4 showing hypothyroidism
   -will need to call to thoracics in am/Gangatav who placed trach to see
   if adjustment vs. downsizing will be beneficial, as already tried
   lidocaine/dextromethorphan, as coughing fits when on TCM
   -neuro suggested increasing dilantin to 200mg 4pm and mn, 100mg 8am
   -on TCM and sitting upright in chair, much less coughing
   -started 25mcg of levothyroxine per endo. will need recheck TFTs 2 wks
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Linezolid - [**2131-8-1**] 10:00 AM
   Metronidazole - [**2131-8-2**] 08:58 AM
   Tobramycin - [**2131-8-2**] 10:00 PM
   Ceftazidime - [**2131-8-3**] 08:32 PM
   Infusions:
   Heparin Sodium - 1,400 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2131-8-3**] 10:35 AM
   Famotidine (Pepcid) - [**2131-8-3**] 08:32 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-8-4**] 06:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.1
C (98.7
   HR: 100 (100 - 122) bpm
   BP: 125/64(79) {119/49(66) - 140/70(85)} mmHg
   RR: 25 (22 - 34) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 98.8 kg (admission): 99.5 kg
   Height: 71 Inch
             Total In:
                                                                  2,862 mL
                                                                    312 mL
   PO:
             TF:
                                                                    961 mL
                                                                    139 mL
   IVF:
                                                                  1,011 mL
                                                                    114 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  5,050 mL
                                                                    680 mL
   Urine:
                                                                  5,050 mL
                                                                    680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,188 mL
                                                                   -368 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 515 (471 - 520) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 47
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///16/
   Ve: 14.3 L/min
   Physical Examination
   Gen: opens eyes as we walk in the room
   HEENT: trach present
   CV: tachycardic, no m/r/g
   Abd: soft,improved epigastric guarding, bowel sounds present
   Ext: b/l pitting edema
   Labs / Radiology
   731 K/uL
   8.2 g/dL
   180 mg/dL
   0.6 mg/dL
   16 mEq/L
   3.8 mEq/L
   10 mg/dL
   104 mEq/L
   129 mEq/L
   27.1 %
   11.5 K/uL
        [image002.jpg]
                             [**2131-8-1**]  04:00 AM
                             [**2131-8-1**]  04:46 PM
                             [**2131-8-2**]  02:53 AM
                             [**2131-8-2**]  04:45 PM
                             [**2131-8-2**]  10:14 PM
                             [**2131-8-3**]  04:15 AM
                             [**2131-8-3**]  05:14 AM
                             [**2131-8-3**]  11:43 AM
                             [**2131-8-3**]  04:55 PM
                             [**2131-8-4**]  04:13 AM
   WBC
   19.2
   15.8
   13.8
   14.3
   13.0
   12.3
   11.5
   11.5
   Hct
   21.9
   22.0
   20.6
   23.9
   23.6
   19.2
   22.6
   26.2
   27.8
   27.1
   Plt
   [**Telephone/Fax (2) 8063**]
   698
   731
   Cr
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   0.6
   Glucose
   138
   195
   179
   157
   157
   153
   149
   180
   Other labs: PT / PTT / INR:17.5/56.2/1.6, CK / CKMB /
   Troponin-T:17//0.10, ALT / AST:[**6-18**], Alk Phos / T Bili:126/0.6, Amylase
   / Lipase:56/140, Differential-Neuts:57.3 %, Band:0.0 %, Lymph:24.8 %,
   Mono:4.3 %, Eos:13.1 %, Lactic Acid:1.7 mmol/L, Albumin:2.5 g/dL,
   LDH:163 IU/L, Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 ANEMIA, OTHER
 ELECTROLYTE & FLUID DISORDER, OTHER
 LEUKOCYTOSIS
 ANOXIC BRAIN DAMAGE (ANOXIC ENCEPHALOPATHY, HYPOXIC ISCHEMIC)
 PANCREATITIS, ACUTE
   Necrotizing Pancreatitis
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   .
   28 yo man with h/o recent admission with necrotizing pancreatitis c/b
   pseudocysts, s/p PEA arrest x2 with anoxic brain injury and seizures,
   with ongoing fevers likely secondary to resistant pseudomonas VAP.
   Fever/Leukocytosis:  Most likely secondary to pneumonia as sputum
   growing 2 colonies of pseudomonas.  Now on ceftaz and tobra.  WBC
   improving, and clinically improved.
   - continue tobra (d1 = [**7-23**]) , but reduce frequency to q 48 hours given
   that 36 hour trough was 1.6. Last day [**8-14**]
   - continue ceftaz  (day 1 = [**7-31**]) as double coverage. Last day [**8-14**]
   - cosider meropenem if febrile or unstable; skin blistering occurred in
   the setting of anasarca and occurred predominantly on the legs which is
   atypical for a drug rash; nevertheless, we will reserve [**Last Name (un) **] unless
   absolutely necessary
   - f/u colisitin sensitivies for pseudomonas, though would prefer to
   avoid this as it can cause irreversible renal failure
   - appreciate ID recs
   .
   AMS secondary to Anoxic Brain Injury/Seizures.  Patient has suffered
   two PEA arrests and has anoxic brain injury with seizure activity.  Not
   interactive.  He was previously in has been loaded with phenytoin.  Has
   two witnessed tonic clonic seizures last night.  Prognosis regarding
   mental status is poor.
   - continue keppra 1 g [**Hospital1 **]
   - reloaded dilantin [**8-1**] with one gram, changed dosing to 100mg at 8 am
   and 4 pm, and 200 mg at midnight, level 3.5 this morning; will follow
   up with neuro
   - continue standing ativan
   -per neuron increased dilantin to 200mg [**Hospital1 **] 100mg daily
    .
   Respiratory failure/VAP.  Patient had vigorous cough and has been
   tolerating PS better than TCM.  On coverage for resistant pseudomonas
   vap.  Coughing fits seem to be do to irritation as he is s/p bronch
   without obvious source.  Tolerated trach mask for a few hours yesterday
   and returned to PS o/n
   - continue tobra/ ceftaz
   - continue nebs PRN
   - continue to try trach mask as tolerated
   .
   Hypothyroid-seen on yesterday
s TFTs. Endocrine recommended starting
   levoxyl 25mcg daily with repeat TFTs in 2 wks.
   .
   Anemia.  Likely multifactorial, chronic disease, phlebotomy.  Is slow
   drop, s/p 2 u PRBCs yesterday with appropriate bump (although had one
   hct that was likely spuriously low).
   - cont to monitor hct
   - stable, heparin resumed.
   - guaiac stools
   .
   Hyponatremia.  [**Month (only) 8**] be central SIADH due to anoxic brain injury and
   seizures.  Also may be hypovolemic.
   - continued to have concentrated TFs and abx
   - Na slightly improved with trial of lasix yesterday, can continue
   lasix today
   .
   Tachycardia.  No clear etiology of tachycardia.  Did not respond to
   fentanyl boluses or extra ativan doses.  Did not respond it IVF
   boluses, either.  Seemed to worsen with coughing fits.  Likely
   partially related to fever, and is improving as fever curve is starting
   to decrease.
   - telemetry
   .
   Pancreatitis:  Patient with severe necrotizing pancreatitis earlier in
   course of critical illness with pseudocyst formation.  No plans for
   surgical invention.  CT scan of the abdomen on [**7-25**] shows stable
   pancreatic pseudocysts.  Lipase continues to trend downward.
   - trending pancreatic enzymes
   - continue tube feeds
   Eosinophilia.  Now PMNs have returned to [**Location 201**], eosinophilia has come
   back; may have been secondary to bactrim exposure.
   .
   S/p PEA arrest.  This is felt to be secondary to mucous plugging from
   VAP, continue suctioning as needed.  Additionally, patient was
   hypoglycemic on the floor in setting of recently starting glargine.
   - monitor on tele
   Diabetes.  Had hypoglycemia during PEA arrest after initation of
   glargine.  In setting of worsening infection, has had increasing
   hyperglycemia
   - follow fingersticks and cover with HISS, which has been titrated up
   - if long acting insulin is needed will start low given recent
   hypoglycemia
   .
   Hypercalcemia: Unclear etiology, but most likely secondary to bone
   turnover from being immobile and poor kidney excretion.   S/p
   pamidronate and Calcitonin.  Ca stable recently.
   - appreciate Endo recs
   .
   SMV thrombus.  S/p heparin to coumadin bridging for SMV thrombus likely
   secondary to severe pancreatitis, has had subtherapeutic INR and
   started on heparin gtt yesterday but stopped in the setting of dropped
   hct.
   - would continue to bridge with heparin as long as hct stablized
   - continue coumadin with plan for 6 month course
   - increase coumadin from 1 to 2 mg because of INR 1.9 and flagyl being
   stopped
   .
   Metabolic acidosis.  Likely multifactorial secondary to prior saline
   infusion and seizures.
   - follow bicarb
   Access.  PICC has only one working port through this morning, when
   flushed again.  Continue with current PICC.
   .
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:
   Lines:
   PICC Line - [**2131-7-20**] 04:06 AM
   Prophylaxis:
   DVT: heparin IV
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2131-08-04 09:25:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   28 yo indian male with complicated history- [**2131-5-4**] admission for
   severe necrotizing pancreatitis in the setting of heavy EtOH use. Hosp
   course complicated by seizure and PEA arrest and resultant hypoxic
   encephalopathy. Chronic resp failure s/p trach in [**2131-6-4**]. Prior
   acute pancreatitis w/ pseudocyst formation. Was re-admitted to [**Hospital1 **] from
   rehab in early [**Month (only) 280**] for recurrent seizure activity. Also found to have
   SMV thrombosis in early [**Month (only) 280**]- on heparin gtt. Transferred to the ICU on
   [**7-20**] for a second PEA arrest, presumably due to mucus plug and
   hypoxemia. Initially in ICU course with persistent seizure activity-
   now resolved on Dilantin + Keppra + Ativan. Being covered w/ tobramycin
   and cetazidime (stopped cipro based on recent sensis) for Pseudomonas
   in sputum and in urine.  Mental status is currently withdrawing to
   noxious stimuli, not following commands, moving all 4 but
   nonpurposeful.  Defervescing on ABX regimen. Seized on the night of
   [**7-31**], responded to more Ativan, got re-loaded with Dilantin on [**8-1**].
   Plan is to return to rehab, looks like early next week is reasonable.
   Major issue is one of coughing fits every time he is on trach collar.
   Tolerates PSV 5/5 [**Last Name **] problem. Bronch'd earlier this week with nothing
   in the airways and well-positioned trach w/ minimal tracheal
   irritation. Not sure why this is happening though I suspect some local
   irritation- it is resolved w/ topical lidocaine though we are trying to
   minimize this due to seizure risk.
   24 Hour Events:
   Tolerating TM, but with intermittent coughing from secretions.
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Linezolid - [**2131-8-1**] 10:00 AM
   Metronidazole - [**2131-8-2**] 08:58 AM
   Tobramycin - [**2131-8-2**] 10:00 PM
   Ceftazidime - [**2131-8-3**] 08:32 PM
   Infusions:
   Heparin Sodium - 1,400 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2131-8-3**] 10:35 AM
   Famotidine (Pepcid) - [**2131-8-4**] 07:52 AM
   Other medications:
   Coumadin, dilantin, folate, MVI, chlorhexidine, pepcid, SSI, albuterol,
   atrovent, keppra, ativan, reglan, heparin 1400, synthroid
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-8-4**] 09:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37
C (98.6
   HR: 100 (100 - 122) bpm
   BP: 124/63(79) {121/54(69) - 140/70(85)} mmHg
   RR: 24 (22 - 34) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 98.8 kg (admission): 99.5 kg
   Height: 71 Inch
             Total In:
                                                                  2,861 mL
                                                                    849 mL
   PO:
             TF:
                                                                    961 mL
                                                                    362 mL
   IVF:
                                                                  1,011 mL
                                                                    367 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  5,050 mL
                                                                    880 mL
   Urine:
                                                                  5,050 mL
                                                                    880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,189 mL
                                                                    -31 mL
   Respiratory support
   O2 Delivery Device: Trach mask , Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 360 (360 - 520) mL
   PS : 5 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 47
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///16/
   Ve: 12 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Tender: mid epigastrium, no
   rebound
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement:
   Purposeful, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   731 K/uL
   180 mg/dL
   0.6 mg/dL
   16 mEq/L
   3.8 mEq/L
   10 mg/dL
   104 mEq/L
   129 mEq/L
   27.1 %
   11.5 K/uL
        [image002.jpg]
                             [**2131-8-1**]  04:00 AM
                             [**2131-8-1**]  04:46 PM
                             [**2131-8-2**]  02:53 AM
                             [**2131-8-2**]  04:45 PM
                             [**2131-8-2**]  10:14 PM
                             [**2131-8-3**]  04:15 AM
                             [**2131-8-3**]  05:14 AM
                             [**2131-8-3**]  11:43 AM
                             [**2131-8-3**]  04:55 PM
                             [**2131-8-4**]  04:13 AM
   WBC
   19.2
   15.8
   13.8
   14.3
   13.0
   12.3
   11.5
   11.5
   Hct
   21.9
   22.0
   20.6
   23.9
   23.6
   19.2
   22.6
   26.2
   27.8
   27.1
   Plt
   [**Telephone/Fax (3) 8063**]
   698
   731
   Cr
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   0.6
   Glucose
   138
   195
   179
   157
   157
   153
   149
   180
   Other labs: PT / PTT / INR:17.5/56.2/1.6, CK / CKMB /
   Troponin-T:17//0.10, ALT / AST:[**6-18**], Alk Phos / T Bili:126/0.6, Amylase
   / Lipase:56/140, Differential-Neuts:57.3 %, Band:0.0 %, Lymph:24.8 %,
   Mono:4.3 %, Eos:13.1 %, Lactic Acid:1.7 mmol/L, Albumin:2.5 g/dL,
   LDH:163 IU/L, Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 ANEMIA, OTHER
 ELECTROLYTE & FLUID DISORDER, OTHER
 LEUKOCYTOSIS
 ANOXIC BRAIN DAMAGE (ANOXIC ENCEPHALOPATHY, HYPOXIC ISCHEMIC)
 PANCREATITIS, ACUTE
   Necrotizing Pancreatitis
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   1. Fever, leukocytosis/VAP:
   -cont. ceftaz and tobramycin until [**8-14**]
   -cont. TM
   -avoid mucous plugging since this was thought to precipitate PEA arrest
   in the past
   2. Seizure/AMS:
   -cont. dilantin/keppra
   -thoracics to look at trach
   3. hypothyroid: synthroid
   4. hyponatremia: SIADH
   -fluid restrict, diurese
   5. SMV thrombosis: cont. heparin gtt
   6. nutrition: TF
   7. PPI, heparin gtt
   9. make sure trach is alright, then rehab
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2131-8-4**] 03:18 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2131-7-20**] 04:06 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:
   ------ Protected Section ------
   CRITICAL CARE
   Present for the key portions of the resident
s history and exam. Agree
   substantially with assessment and plan as outlined.  No recent sz
   100.3 ax    124     124/61
   Responsive
   Chest
 few mid insp crackles
   w/o edema
   Remains febrile. Completes course of abx in 10d.  Sz under reasonable
   control on current regime
   Time spent 30 min
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] [**Last Name (NamePattern1) **], MD
   on:[**2131-8-4**] 17:36 ------

2131-08-05 07:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - neuro recommended reloading with IV Fosphenytoin 300 mg IV x4 dose
   because level was 2.7; will recheck level in AM and decide on dosing
   based on that
   - ID had no new recs, continue tobra/ceftaz until [**8-14**]
   - thoracics thinks cough likely related to pneumonia but were willing
   to change trach - will be downsized from size 8 to size 6 at 7:30 in
   the morning by thoracics attending
   - increased coumadin from 2mg to 3mg for low INR, continued on heparin
   gtt while subtherapeutic
   - PT/OT consult placed, not seen today
   - did well on trach mask throughout day today, but then got tachycardic
   and tired, placed on PS 5/5, remained tachy and then was increased to
   [**8-8**] and HR back to around 100
   - mental status as good as it has been, nods head with parents
   History obtained from Patient
   Patient unable to provide history: Encephalopathy, Unresponsive
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Metronidazole - [**2131-8-2**] 08:58 AM
   Tobramycin - [**2131-8-4**] 09:56 PM
   Ceftazidime - [**2131-8-5**] 04:00 AM
   Infusions:
   Heparin Sodium - 1,500 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2131-8-4**] 08:00 PM
   Lorazepam (Ativan) - [**2131-8-5**] 12:00 AM
   Heparin Sodium - [**2131-8-5**] 04:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-8-5**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.1
C (98.7
   HR: 105 (103 - 126) bpm
   BP: 125/72(84) {120/58(76) - 140/83(95)} mmHg
   RR: 18 (18 - 33) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 98.8 kg (admission): 99.5 kg
   Height: 71 Inch
             Total In:
                                                                  2,561 mL
                                                                    721 mL
   PO:
             TF:
                                                                    961 mL
                                                                    200 mL
   IVF:
                                                                  1,270 mL
                                                                    491 mL
   Blood products:
   Total out:
                                                                  2,430 mL
                                                                  1,090 mL
   Urine:
                                                                  2,430 mL
                                                                  1,090 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    131 mL
                                                                   -369 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 560 (358 - 587) mL
   PS : 8 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 49
   PIP: 14 cmH2O
   SpO2: 100%
   ABG: ///16/
   Ve: 14.8 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: No(t) Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed, nods
   Labs / Radiology
   752 K/uL
   8.3 g/dL
   170 mg/dL
   0.6 mg/dL
   16 mEq/L
   4.0 mEq/L
   9 mg/dL
   104 mEq/L
   129 mEq/L
   27.2 %
   11.8 K/uL
        [image002.jpg]
                             [**2131-8-1**]  04:46 PM
                             [**2131-8-2**]  02:53 AM
                             [**2131-8-2**]  04:45 PM
                             [**2131-8-2**]  10:14 PM
                             [**2131-8-3**]  04:15 AM
                             [**2131-8-3**]  05:14 AM
                             [**2131-8-3**]  11:43 AM
                             [**2131-8-3**]  04:55 PM
                             [**2131-8-4**]  04:13 AM
                             [**2131-8-5**]  03:01 AM
   WBC
   15.8
   13.8
   14.3
   13.0
   12.3
   11.5
   11.5
   11.8
   Hct
   22.0
   20.6
   23.9
   23.6
   19.2
   22.6
   26.2
   27.8
   27.1
   27.2
   Plt
   590
   572
   711
   695
   748
   698
   731
   752
   Cr
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   0.6
   0.6
   Glucose
   195
   179
   157
   157
   153
   149
   180
   170
   Other labs: PT / PTT / INR:16.7/46.5/1.5, CK / CKMB /
   Troponin-T:17//0.10, ALT / AST:[**7-20**], Alk Phos / T Bili:125/0.5, Amylase
   / Lipase:56/113, Differential-Neuts:54.0 %, Band:0.0 %, Lymph:18.0 %,
   Mono:5.0 %, Eos:18.0 %, Lactic Acid:1.7 mmol/L, Albumin:2.7 g/dL,
   LDH:196 IU/L, Ca++:9.0 mg/dL, Mg++:1.6 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   28 yo man with h/o recent admission with necrotizing pancreatitis c/b
   pseudocysts, s/p PEA arrest x2 with anoxic brain injury and seizures,
   with ongoing fevers likely secondary to resistant pseudomonas VAP.
   Fever/Leukocytosis:  Most likely secondary to pneumonia as sputum
   growing 2 colonies of pseudomonas.  Now on ceftaz and tobra.  WBC
   improving, and clinically improved.
   - continue tobra (d1 = [**7-23**]) , but reduce frequency to q 48 hours given
   that 36 hour trough was 1.6. Last day [**8-14**]
   - continue ceftaz  (day 1 = [**7-31**]) as double coverage. Last day [**8-14**]
   - cosider meropenem if febrile or unstable; skin blistering occurred in
   the setting of anasarca and occurred predominantly on the legs which is
   atypical for a drug rash; nevertheless, we will reserve [**Last Name (un) **] unless
   absolutely necessary
   - f/u colisitin sensitivies for pseudomonas, though would prefer to
   avoid this as it can cause irreversible renal failure
   - appreciate ID recs
   .
   AMS secondary to Anoxic Brain Injury/Seizures.  Patient has suffered
   two PEA arrests and has anoxic brain injury with seizure activity.  Not
   interactive.  He was previously in has been loaded with phenytoin.  Has
   two witnessed tonic clonic seizures last night.  Prognosis regarding
   mental status is poor.
   - continue keppra 1 g [**Hospital1 **]
   - reloaded dilantin [**8-1**] with one gram, changed dosing to 100mg at 8 am
   and 4 pm, and 200 mg at midnight, level 3.5 this morning; will follow
   up with neuro
   - continue standing ativan
   -per neuron increased dilantin to 200mg [**Hospital1 **] 100mg daily
    .
   Respiratory failure/VAP.  Patient had vigorous cough and has been
   tolerating PS better than TCM.  On coverage for resistant pseudomonas
   vap.  Coughing fits seem to be do to irritation as he is s/p bronch
   without obvious source.  Tolerated trach mask for a few hours yesterday
   and returned to PS o/n
   - continue tobra/ ceftaz
   - continue nebs PRN
   - continue to try trach mask as tolerated
   .
   Hypothyroid-seen on yesterday
s TFTs. Endocrine recommended starting
   levoxyl 25mcg daily with repeat TFTs in 2 wks.
   .
   Anemia.  Likely multifactorial, chronic disease, phlebotomy.  Is slow
   drop, s/p 2 u PRBCs yesterday with appropriate bump (although had one
   hct that was likely spuriously low).
   - cont to monitor hct
   - stable, heparin resumed.
   - guaiac stools
   .
   Hyponatremia.  [**Month (only) 8**] be central SIADH due to anoxic brain injury and
   seizures.  Also may be hypovolemic.
   - continued to have concentrated TFs and abx
   - Na slightly improved with trial of lasix yesterday, can continue
   lasix today
   .
   Tachycardia.  No clear etiology of tachycardia.  Did not respond to
   fentanyl boluses or extra ativan doses.  Did not respond it IVF
   boluses, either.  Seemed to worsen with coughing fits.  Likely
   partially related to fever, and is improving as fever curve is starting
   to decrease.
   - telemetry
   .
   Pancreatitis:  Patient with severe necrotizing pancreatitis earlier in
   course of critical illness with pseudocyst formation.  No plans for
   surgical invention.  CT scan of the abdomen on [**7-25**] shows stable
   pancreatic pseudocysts.  Lipase continues to trend downward.
   - trending pancreatic enzymes
   - continue tube feeds
   Eosinophilia.  Now PMNs have returned to [**Location 201**], eosinophilia has come
   back; may have been secondary to bactrim exposure.
   .
   S/p PEA arrest.  This is felt to be secondary to mucous plugging from
   VAP, continue suctioning as needed.  Additionally, patient was
   hypoglycemic on the floor in setting of recently starting glargine.
   - monitor on tele
   Diabetes.  Had hypoglycemia during PEA arrest after initation of
   glargine.  In setting of worsening infection, has had increasing
   hyperglycemia
   - follow fingersticks and cover with HISS, which has been titrated up
   - if long acting insulin is needed will start low given recent
   hypoglycemia
   .
   Hypercalcemia: Unclear etiology, but most likely secondary to bone
   turnover from being immobile and poor kidney excretion.   S/p
   pamidronate and Calcitonin.  Ca stable recently.
   - appreciate Endo recs
   .
   SMV thrombus.  S/p heparin to coumadin bridging for SMV thrombus likely
   secondary to severe pancreatitis, has had subtherapeutic INR and
   started on heparin gtt yesterday but stopped in the setting of dropped
   hct.
   - would continue to bridge with heparin as long as hct stablized
   - continue coumadin with plan for 6 month course
   - increase coumadin from 1 to 2 mg because of INR 1.9 and flagyl being
   stopped
   .
   Metabolic acidosis.  Likely multifactorial secondary to prior saline
   infusion and seizures.
   - follow bicarb
   Access.  PICC has only one working port through this morning, when
   flushed again.  Continue with current PICC.
   ICU Care
   Nutrition:
   Comments: tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2131-7-20**] 04:06 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2131-08-05 11:02:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   28 y/o m with pancreatitis c/b VAP, anoxic brain injury from PEA arrest
   from mucous plugging, now s/p trach and PEG, with seizure d/o.
   24 Hour Events:
   Thoracics did not feel trach was causing coughing episodes. Downsized
   trach to a 6. Performed bronch with BAL.
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Tobramycin - [**2131-8-4**] 09:56 PM
   Ceftazidime - [**2131-8-5**] 04:00 AM
   Infusions:
   Heparin Sodium - 1,500 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2131-8-5**] 12:00 AM
   Heparin Sodium - [**2131-8-5**] 04:45 AM
   Famotidine (Pepcid) - [**2131-8-5**] 08:38 AM
   Other medications:
   pepcid, chlorhex, SSI, alb/atro, keppra, dilantin, ativan, heparin gtt,
   synthroid, coumadin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-8-5**] 11:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.1
C (98.7
   HR: 114 (103 - 126) bpm
   BP: 113/53(67) {113/50(67) - 140/83(95)} mmHg
   RR: 31 (18 - 33) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 98.8 kg (admission): 99.5 kg
   Height: 71 Inch
             Total In:
                                                                  2,561 mL
                                                                    955 mL
   PO:
             TF:
                                                                    961 mL
                                                                    285 mL
   IVF:
                                                                  1,270 mL
                                                                    610 mL
   Blood products:
   Total out:
                                                                  2,430 mL
                                                                  1,390 mL
   Urine:
                                                                  2,430 mL
                                                                  1,390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    131 mL
                                                                   -435 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 445 (358 - 587) mL
   PS : 10 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 49
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///16/
   Ve: 11.1 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement:
   Purposeful, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   752 K/uL
   170 mg/dL
   0.6 mg/dL
   16 mEq/L
   4.0 mEq/L
   9 mg/dL
   104 mEq/L
   129 mEq/L
   27.2 %
   11.8 K/uL
        [image002.jpg]
                             [**2131-8-1**]  04:46 PM
                             [**2131-8-2**]  02:53 AM
                             [**2131-8-2**]  04:45 PM
                             [**2131-8-2**]  10:14 PM
                             [**2131-8-3**]  04:15 AM
                             [**2131-8-3**]  05:14 AM
                             [**2131-8-3**]  11:43 AM
                             [**2131-8-3**]  04:55 PM
                             [**2131-8-4**]  04:13 AM
                             [**2131-8-5**]  03:01 AM
   WBC
   15.8
   13.8
   14.3
   13.0
   12.3
   11.5
   11.5
   11.8
   Hct
   22.0
   20.6
   23.9
   23.6
   19.2
   22.6
   26.2
   27.8
   27.1
   27.2
   Plt
   590
   572
   711
   695
   748
   698
   731
   752
   Cr
   0.7
   0.7
   0.7
   0.7
   0.7
   0.7
   0.6
   0.6
   Glucose
   195
   179
   157
   157
   153
   149
   180
   170
   Other labs: PT / PTT / INR:16.7/46.5/1.5, CK / CKMB /
   Troponin-T:17//0.10, ALT / AST:[**7-20**], Alk Phos / T Bili:125/0.5, Amylase
   / Lipase:56/113, Differential-Neuts:54.0 %, Band:0.0 %, Lymph:18.0 %,
   Mono:5.0 %, Eos:18.0 %, Lactic Acid:1.7 mmol/L, Albumin:2.7 g/dL,
   LDH:196 IU/L, Ca++:9.0 mg/dL, Mg++:1.6 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 ANEMIA, OTHER
 ELECTROLYTE & FLUID DISORDER, OTHER
 LEUKOCYTOSIS
 ANOXIC BRAIN DAMAGE (ANOXIC ENCEPHALOPATHY, HYPOXIC ISCHEMIC)
 PANCREATITIS, ACUTE
   Necrotizing Pancreatitis
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   Plan:
   1. Resp failure: PSA VAP
   -ceftaz and [**Female First Name (un) **] until [**8-14**]
   -TC during day and PS at night
   -f/u BAL
   2. AMS/anoxic brain injury/seizures:
   -MS improving
   -reload dilantin
   -neuro following
   3. Hypothyroid:
   -cont. levoxyl
   -recheck TFTs in 2 weeks
   4. SIADH:
   -fluid restrict
   5. Tachycardia: Stable, unclear cause
   -No pain currently
   6. Eosinophilia: Possibly due to bactrim exposure
   -follow for evidence of rash
   7. SMV thrombus: Likely [**2-5**] pancreatitis
   -heparin to coumadin
   -6 months anticoag
   8. PICC, PIV
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2131-8-5**] 04:00 AM 40 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2131-7-20**] 04:06 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   ------ Protected Section ------
   MICU Attending Addendum:
   On this day I examined the patient and was present for the key portions
   of the services provided.  I have reviewed Dr [**First Name (STitle) 1516**]
s note above and
   agree with her findings and plan of care.  We have also discussed the
   pt
s case with his father, an internist.  The patient had been on
   trache collar but is now back on the vent with RR28 and VE of 13L/min.
   He often deveiops cough and tachypnea with spontaneous resp.  This
   cough has defied clear understanding
 it seems better on the vent than
   off and it has responded to topical lidocaine instilled via the trache
   into his airway.  It seems not related to airway secretions. GERD
   should not be an issue with his HOB elevated and his being on PPI.
   Bronch today showed no tracheal granulomas around trache and not trauma
   of trachea by tracheostomy tube.
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 712**], MD (30min spent in the care of this critically ill pt)
   ------ Protected Section Addendum Entered By:[**Name (NI) 711**] [**Last Name (NamePattern1) 712**], MD
   on:[**2131-8-5**] 16:22 ------

2131-08-06 07:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - size of trach decreased yesterday
   - Neuro recs.  Got another dose of fosphenytoin 300 mg IV and then
   resumed on prior dilantin dose of 100-200-200.
   - ID is signing off.  Recommends to continue tobra/ceftaz until [**8-14**].  Periodic CBCs while he remains in house.
   -neuro recommending PO and IV dilantin 300mg Q6 for now.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Tobramycin - [**2131-8-4**] 09:56 PM
   Ceftazidime - [**2131-8-6**] 04:00 AM
   Infusions:
   Heparin Sodium - 1,600 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2131-8-5**] 08:00 PM
   Lorazepam (Ativan) - [**2131-8-6**] 06:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-8-6**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.3
C (99.2
   HR: 119 (104 - 125) bpm
   BP: 148/52(79) {97/50(67) - 148/86(89)} mmHg
   RR: 29 (21 - 38) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 98.8 kg (admission): 99.5 kg
   Height: 71 Inch
             Total In:
                                                                  2,264 mL
                                                                    704 mL
   PO:
             TF:
                                                                    817 mL
                                                                    316 mL
   IVF:
                                                                  1,237 mL
                                                                    298 mL
   Blood products:
   Total out:
                                                                  2,270 mL
                                                                    810 mL
   Urine:
                                                                  2,270 mL
                                                                    810 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     -6 mL
                                                                   -106 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 349 (349 - 537) mL
   PS : 10 cmH2O
   RR (Spontaneous): 75
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 118
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///17/
   Ve: 15 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: No(t) Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed, nods
   Labs / Radiology
   859 K/uL
   8.4 g/dL
   145 mg/dL
   0.6 mg/dL
   17 mEq/L
   4.0 mEq/L
   9 mg/dL
   105 mEq/L
   130 mEq/L
   27.1 %
   17.5 K/uL
        [image002.jpg]
                             [**2131-8-2**]  02:53 AM
                             [**2131-8-2**]  04:45 PM
                             [**2131-8-2**]  10:14 PM
                             [**2131-8-3**]  04:15 AM
                             [**2131-8-3**]  05:14 AM
                             [**2131-8-3**]  11:43 AM
                             [**2131-8-3**]  04:55 PM
                             [**2131-8-4**]  04:13 AM
                             [**2131-8-5**]  03:01 AM
                             [**2131-8-6**]  03:53 AM
   WBC
   13.8
   14.3
   13.0
   12.3
   11.5
   11.5
   11.8
   17.5
   Hct
   20.6
   23.9
   23.6
   19.2
   22.6
   26.2
   27.8
   27.1
   27.2
   27.1
   Plt
   572
   711
   695
   748
   698
   731
   752
   859
   Cr
   0.7
   0.7
   0.7
   0.7
   0.7
   0.6
   0.6
   0.6
   Glucose
   179
   157
   157
   153
   149
   180
   170
   145
   Other labs: PT / PTT / INR:17.1/49.1/1.5, CK / CKMB /
   Troponin-T:17//0.10, ALT / AST:[**8-22**], Alk Phos / T Bili:130/0.5, Amylase
   / Lipase:56/112, Differential-Neuts:68.0 %, Band:2.0 %, Lymph:14.0 %,
   Mono:2.0 %, Eos:10.0 %, Lactic Acid:1.7 mmol/L, Albumin:2.7 g/dL,
   LDH:236 IU/L, Ca++:9.3 mg/dL, Mg++:1.6 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 ANEMIA, OTHER
 ELECTROLYTE & FLUID DISORDER, OTHER
 LEUKOCYTOSIS
 ANOXIC BRAIN DAMAGE (ANOXIC ENCEPHALOPATHY, HYPOXIC ISCHEMIC)
 PANCREATITIS, ACUTE
   Necrotizing Pancreatitis
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   .
   28 yo man with h/o recent admission with necrotizing pancreatitis c/b
   pseudocysts, s/p PEA arrest x2 with anoxic brain injury and seizures,
   with ongoing fevers likely secondary to VAP which is overall improving.
   VAP/Respiratory failure:  Sputum growing 2 colonies of pseudomonas in
   addition to ALCALIGENES XYLOSOXIDANS.  Now on ceftaz and tobra with
   fever curve and WBC improving..  WBC improving, and clinically
   improved.  Patient has not tolerated TCM trials due to coughing fits.
   Trach was downsized yesterday to a size 6 tube with hopes of improved
   patient comfort.
   - continue tobra (d1 = [**7-23**]) q 48 hours until [**8-14**]
   - continue ceftaz  (day 1 = [**7-31**]) until [**8-14**]
   - cosider meropenem if febrile or unstable; skin blistering occurred in
   the setting of anasarca and occurred predominantly on the legs which is
   atypical for a drug rash; nevertheless, we will reserve [**Last Name (un) **] unless
   absolutely necessary
   - f/u colisitin sensitivies for pseudomonas, though would prefer to
   avoid this as it can cause irreversible renal failure
   - appreciate ID recs
   -TCM trials as tolerated
   .
   AMS secondary to Anoxic Brain Injury/Seizures.  Patient has suffered
   two PEA arrests and has anoxic brain injury with seizure activity.
   Overall mental status is improving, but prognosis regarding mental
   status is poor.
   - continue keppra 1 g [**Hospital1 **]
   - continue increase dose of dilantin 200-200-100 per neurology as
   dilantin level has been repeatedly subtherapeutic
   - continue standing ativan
   - appreciate neuro recs, now recommending 300mg IV Q6 with [**Hospital1 **] troughs
   and continuing PO for now. Will discuss with neuro re: defined course.
   .
   Hypothyroid.  TFTs consistent with hypothyroidism. Endocrine
   recommended starting levoxyl 25mcg daily with repeat TFTs in 2 wks.
   - continue levothyroxine
   .
   Anemia.  Likely multifactorial, chronic disease, phlebotomy.
   - cont to monitor hct
   - stable, heparin resumed.
   - guaiac stools
   .
   Hyponatremia.  [**Month (only) 8**] be central SIADH due to anoxic brain injury and
   seizures.   Stable.
   - continued to have concentrated TFs and abx
   .
   Tachycardia.  No clear etiology of tachycardia.  Did not respond to
   fentanyl boluses or extra ativan doses.  Did not respond it IVF
   boluses, either.  Seems to worsen with coughing fits.  Likely partially
   related to fever, and is improving as fever curve is starting to
   decrease.
   - telemetry
   .
   Pancreatitis:  Patient with severe necrotizing pancreatitis earlier in
   course of critical illness with pseudocyst formation.  No plans for
   surgical invention.  CT scan of the abdomen on [**7-25**] shows stable
   pancreatic pseudocysts.  Lipase continues to trend downward.
   - trending pancreatic enzymes
   - continue tube feeds
   Eosinophilia.  Now PMNs have returned to [**Location 201**], eosinophilia has come
   back; may have been secondary to bactrim exposure several weeks ago.
   .
   S/p PEA arrest.  This is felt to be secondary to mucous plugging from
   VAP, continue suctioning as needed.  Additionally, patient was
   hypoglycemic on the floor in setting of recently starting glargine.
   - monitor on tele
   Diabetes.  Had hypoglycemia during PEA arrest after initation of
   glargine.  In setting of worsening infection, has had increasing
   hyperglycemia
   - follow fingersticks and cover with HISS, which has been titrated up
   - if long acting insulin is needed will start low given recent
   hypoglycemia
   .
   Hypercalcemia: Unclear etiology, but most likely secondary to bone
   turnover from being immobile and poor kidney excretion.   S/p
   pamidronate and Calcitonin.  Ca stable recently.
   - appreciate Endo recs
   - trend calcium
   .
   SMV thrombus.  Undergoing heparin to coumadin bridging for SMV thrombus
   likely secondary to severe pancreatitis.  INR remains subtherapeutic
   - continue heparing to coumadin briding
   - continue coumadin with plan for 6 month course
   .
   Metabolic acidosis.  Likely multifactorial secondary to prior saline
   infusion and seizures.
   - follow bicarb
   Access.  PICC, PIV
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2131-8-5**] 08:06 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2131-7-20**] 04:06 AM
   Prophylaxis:
   DVT: heparin IV
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2131-08-06 11:25:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   28 yo w/ resp failure following prior PEA arrest x2 and hypoxic
   encephalopathy, s/p trach [**6-12**]. Prior EtOH pancreatitis now w/ large
   pseudocysts. MDR Pseudomonas pneumonia.
   24 Hour Events:
   trach downsized to Portex #6. Neuro recommended another Dilantin load.
   Temp to 100.6 overnight w/ incr WBC ct.
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Tobramycin - [**2131-8-4**] 09:56 PM
   Ceftazidime - [**2131-8-6**] 04:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2131-8-6**] 06:04 AM
   Famotidine (Pepcid) - [**2131-8-6**] 09:11 AM
   Other medications:
   Ceftazidime, tobramycin, Folate, MVI, Peridex, famotidine, RISS,
   Albuterol, Atrovent, Reglan, Ativan, Keppra, Dextromethorphan, Heparin
   gtt, Synthroid, Coumadin, Dilantin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-8-6**] 11:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 111 (104 - 125) bpm
   BP: 122/53(70) {121/52(68) - 148/82(89)} mmHg
   RR: 24 (21 - 38) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 98.8 kg (admission): 99.5 kg
   Height: 71 Inch
             Total In:
                                                                  2,264 mL
                                                                  1,130 mL
   PO:
             TF:
                                                                    817 mL
                                                                    445 mL
   IVF:
                                                                  1,237 mL
                                                                    526 mL
   Blood products:
   Total out:
                                                                  2,270 mL
                                                                  1,130 mL
   Urine:
                                                                  2,270 mL
                                                                  1,130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     -6 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 454 (349 - 537) mL
   PS : 10 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 118
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///17/
   Ve: 12.5 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: trach site c/d/i
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, Tender:
   epigastric and RLQ
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
    859 K/uL
   145 mg/dL
   0.6 mg/dL
   17 mEq/L
   4.0 mEq/L
   9 mg/dL
   105 mEq/L
   130 mEq/L
   27.1 %
   17.5 K/uL
        [image002.jpg]
                             [**2131-8-2**]  04:45 PM
                             [**2131-8-2**]  10:14 PM
                             [**2131-8-3**]  04:15 AM
                             [**2131-8-3**]  05:14 AM
                             [**2131-8-3**]  11:43 AM
                             [**2131-8-3**]  04:55 PM
                             [**2131-8-4**]  04:13 AM
                             [**2131-8-5**]  03:01 AM
                             [**2131-8-6**]  03:53 AM
                             [**2131-8-6**]  10:57 AM
   WBC
   14.3
   13.0
   12.3
   11.5
   11.5
   11.8
   17.5
   17.5
   Hct
   23.9
   23.6
   19.2
   22.6
   26.2
   27.8
   27.1
   27.2
   27.1
   27.1
   Plt
   [**Telephone/Fax (3) 8105**]98
   [**Telephone/Fax (2) 8106**]59
   Cr
   0.7
   0.7
   0.7
   0.7
   0.6
   0.6
   0.6
   Glucose
   157
   157
   153
   149
   180
   170
   145
   Other labs: PT / PTT / INR:17.1/49.1/1.5, CK / CKMB /
   Troponin-T:17//0.10, ALT / AST:[**8-22**], Alk Phos / T Bili:130/0.5, Amylase
   / Lipase:56/112, Differential-Neuts:68.0 %, Band:2.0 %, Lymph:14.0 %,
   Mono:2.0 %, Eos:10.0 %, Lactic Acid:1.7 mmol/L, Albumin:2.7 g/dL,
   LDH:236 IU/L, Ca++:9.3 mg/dL, Mg++:1.6 mg/dL, PO4:3.0 mg/dL
   Imaging: no new imaging
   Microbiology: Pseudomonas and Alcaligenes noted in prior sputum. no new
   culture data
   Assessment and Plan
   28 yo w/ resp failure following prior PEA arrest x2 and hypoxic
   encephalopathy, s/p trach [**6-12**]. Prior EtOH pancreatitis now w/ large
   pseudocysts. MDR Pseudomonas pneumonia.
   Resp failure: s/p trach [**6-12**], downsized to Portex #6 [**2131-8-5**]. On tx for
   MDR PSA VAP
   -ceftaz and [**Female First Name (un) **] until [**8-14**]
   -TC during day and PS at night
   -f/u BAL
   Seizures: related to prior hypoxic injury
   -on Keppra and Ativan
   -reloaded on Dilantin
   Hypothyroidism: cont Levoxyl, repeat TFTs in 2 wks
   SIADH: cont free H20 restriction
   SMV thrombus: Likely [**2-5**] pancreatitis
   -heparin to coumadin
   -6 months anticoag (to end early [**2132-1-4**])
   Pancreatic pseudcysts: clinically stable
   Disposition: stable for rehab planning
   -PT/OT
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2131-8-6**] 08:35 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2131-7-20**] 04:06 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt bridge, plus coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 28M prolonged hospital course over past few
   months with pancreatitis c/b ARF, arrest, hypoxic neurologic injury,
   respiratory failure, recurrent pneumonia. Trach downsized, adjusting
   fosphenytoin per neuro recs.
   Exam notable for Tm 100.6 BP 140/50 HR 100-110 RR 19 with sat 99 on PSV
   [**10-8**]. WD man, eyes track, follows some commands. Trach c/d/i. Coarse BS
   B. RRR s1s2. Soft +BS. 2+ edema. Labs notable for WBC 17K, HCT 27, K+
   4.0, Cr 0.6.
   Agree with plan to manage recurrent pneumonia with ceftaz / tobra. For
   respiratory failure, continue TM trials during the day with PSV
   overnight and as needed. Mental status is slowly improving. For
   seizures, continue fosphenytoin and keppra per neuro recs. Pancreatitis
   is stable, tolerating TFS, no role for drainage at this point. Ongoing
   FW restriction for hyponatremia. DM is well controlled. Hypercalcemia
   is stable. SMV thrombus resolving - will get anticoagulated for six
   months. Monitoring eosinophilia, will recheck [**Last Name (un) **] stim. Above d/w
   mother at bedside. Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 35 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 103**] [**Last Name (NamePattern1) 749**], MD
   on:[**2131-8-6**] 12:59 ------

2131-08-07 07:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**2131-8-6**]
   -neuro recommended adding 300mg IV Q6 fosphenytoin in addition to po
   dosing and drawing troughs prior to each dose.  Almost therapeutic and
   when at rehab can consider loading with 500mg PO and checking levels.
   Goal is [**4-9**] for trough. Check albumins.
   -pt worked with PT, NGT came loose and CXR ordered to reconfirm
   placement.
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Tobramycin - [**2131-8-6**] 10:34 PM
   Ceftazidime - [**2131-8-7**] 04:23 AM
   Infusions:
   Heparin Sodium - 1,500 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2131-8-6**] 08:01 PM
   Lorazepam (Ativan) - [**2131-8-7**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-8-7**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.4
C (99.3
   HR: 105 (102 - 124) bpm
   BP: 115/56(70) {115/48(70) - 143/87(99)} mmHg
   RR: 20 (17 - 32) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 98.8 kg (admission): 99.5 kg
   Height: 71 Inch
             Total In:
                                                                  2,701 mL
                                                                    813 mL
   PO:
             TF:
                                                                    961 mL
                                                                    292 mL
   IVF:
                                                                  1,391 mL
                                                                    390 mL
   Blood products:
   Total out:
                                                                  2,250 mL
                                                                    720 mL
   Urine:
                                                                  2,250 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    451 mL
                                                                     93 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 541 (454 - 590) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 97
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///16/
   Ve: 12.5 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: No(t) Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed, nods
   Labs / Radiology
   853 K/uL
   7.8 g/dL
   239 mg/dL
   0.6 mg/dL
   16 mEq/L
   3.9 mEq/L
   9 mg/dL
   104 mEq/L
   129 mEq/L
   25.5 %
   14.0 K/uL
        [image002.jpg]
                             [**2131-8-2**]  10:14 PM
                             [**2131-8-3**]  04:15 AM
                             [**2131-8-3**]  05:14 AM
                             [**2131-8-3**]  11:43 AM
                             [**2131-8-3**]  04:55 PM
                             [**2131-8-4**]  04:13 AM
                             [**2131-8-5**]  03:01 AM
                             [**2131-8-6**]  03:53 AM
                             [**2131-8-6**]  10:57 AM
                             [**2131-8-7**]  05:32 AM
   WBC
   13.0
   12.3
   11.5
   11.5
   11.8
   17.5
   17.5
   14.0
   Hct
   23.6
   19.2
   22.6
   26.2
   27.8
   27.1
   27.2
   27.1
   27.1
   25.5
   Plt
   695
   748
   698
   [**Telephone/Fax (3) **]
    859
   853
   Cr
   0.7
   0.7
   0.7
   0.6
   0.6
   0.6
   0.6
   Glucose
   157
   153
   149
   180
   170
   145
   239
   Other labs: PT / PTT / INR:17.5/66.6/1.6, CK / CKMB /
   Troponin-T:17//0.10, ALT / AST:[**5-23**], Alk Phos / T Bili:130/0.5, Amylase
   / Lipase:56/136, Differential-Neuts:68.0 %, Band:2.0 %, Lymph:14.0 %,
   Mono:2.0 %, Eos:10.0 %, Lactic Acid:1.7 mmol/L, Albumin:2.9 g/dL,
   LDH:218 IU/L, Ca++:9.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   28 yo man with h/o recent admission with necrotizing pancreatitis c/b
   pseudocysts, s/p PEA arrest x2 with anoxic brain injury and seizures,
   with ongoing fevers likely secondary to VAP which is overall improving.
   VAP/Respiratory failure:  Sputum growing 2 colonies of pseudomonas in
   addition to ALCALIGENES XYLOSOXIDANS.  Now on ceftaz and tobra with
   fever curve and WBC improving..  WBC improving, and clinically
   improved.  Patient has not tolerated TCM trials due to coughing fits.
   Trach was downsized [**8-6**] to a size 6 tube with hopes of improved patient
   comfort.
   - continue tobra (d1 = [**7-23**]) q 48 hours until [**8-14**]
   - continue ceftaz  (day 1 = [**7-31**]) until [**8-14**]
   - cosider meropenem if febrile or unstable; skin blistering occurred in
   the setting of anasarca and occurred predominantly on the legs which is
   atypical for a drug rash; nevertheless, we will reserve [**Last Name (un) **] unless
   absolutely necessary
   - f/u colisitin sensitivies for pseudomonas, though would prefer to
   avoid this as it can cause irreversible renal failure
   - appreciate ID recs
   -TCM trials as tolerated
   .
   AMS secondary to Anoxic Brain Injury/Seizures.  Patient has suffered
   two PEA arrests and has anoxic brain injury with seizure activity.
   Overall mental status is improving, but prognosis regarding mental
   status is poor.
   - continue keppra 1 g [**Hospital1 **]
   - continue increase dose of dilantin 200-200-100
   - continue standing ativan
   - appreciate neuro recs, now recommending 300mg IV Q6 with [**Hospital1 **] troughs
   and continuing PO for now. Will discuss with neuro re: defined course.
   .
   Hypothyroid.  TFTs consistent with hypothyroidism. Endocrine
   recommended starting levoxyl 25mcg daily with repeat TFTs in 2 wks.
   - continue levothyroxine
   .
   Anemia.  Likely multifactorial, chronic disease, phlebotomy.
   - cont to monitor hct
   - stable, heparin resumed.
   .
   Hyponatremia.  [**Month (only) 8**] be central SIADH due to anoxic brain injury and
   seizures.   Stable.
   - continued to have concentrated TFs and abx
   - will [**First Name8 (NamePattern2) **] [**Last Name (un) **] stim test today
   - continue lasix today as total body up
   .
   Tachycardia.  No clear etiology of tachycardia.  Did not respond to
   fentanyl boluses or extra ativan doses.  Did not respond it IVF
   boluses, either.  Seems to worsen with coughing fits.  Likely partially
   related to fever, and is improving as fever curve is starting to
   decrease.
   - telemetry
   .
   Pancreatitis:  Patient with severe necrotizing pancreatitis earlier in
   course of critical illness with pseudocyst formation.  No plans for
   surgical invention.  CT scan of the abdomen on [**7-25**] shows stable
   pancreatic pseudocysts.  Lipase continues to trend downward.
   - trending pancreatic enzymes
   - continue tube feeds
   Eosinophilia.  Likely secondary to bactrim, cont to monitor.
   .
   S/p PEA arrest.  This is felt to be secondary to mucous plugging from
   VAP, continue suctioning as needed.  Additionally, patient was
   hypoglycemic on the floor in setting of recently starting glargine.
   - monitor on tele
   Diabetes.  Had hypoglycemia during PEA arrest after initation of
   glargine.  In setting of worsening infection, has had increasing
   hyperglycemia
   - follow fingersticks and cover with HISS, which has been titrated up
   - if long acting insulin is needed will start low given recent
   hypoglycemia
   .
   Hypercalcemia: Unclear etiology, but most likely secondary to bone
   turnover from being immobile and poor kidney excretion.   S/p
   pamidronate and Calcitonin.  Ca stable recently.
   - appreciate Endo recs
   - trend calcium
   .
   SMV thrombus.  Undergoing heparin to coumadin bridging for SMV thrombus
   likely secondary to severe pancreatitis.  INR remains subtherapeutic
   - depending on if surgery can place a peg, will stop coumadin and
   heparin and transition to lovenox
   - if [**Doctor First Name 91**] will place peg, hold coumadin and cont heparin gtt
   .
   Metabolic acidosis.  Likely multifactorial secondary to prior saline
   infusion and seizures.
   - follow bicarb
   .
   FEN
 has NG tube now for feeds, can transition either to PEG or
   dohboff based on surgery recs.
   Access.  PICC, PIV
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2131-8-6**] 09:04 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2131-7-20**] 04:06 AM
   Prophylaxis:
   DVT: hep gtt
   Stress ulcer: protonix
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: starting to screen for rehab today

2131-08-07 10:14:00 Physician Attending Progress Note
Chief Complaint: pancreatitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   28M with complex medical history, incl pancreatitis complicated by
   cerebral edema, several PEA arrests, now recurrent seizures and
   resistant pseudomonal vap:
   24 Hour Events:
   -
worked with PT
   -TM during the day for 8 hours
   -[**Last Name (un) **] 11.9
   -phenytoin adjusted
   History obtained from [**Hospital 19**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Tobramycin - [**2131-8-6**] 10:34 PM
   Ceftazidime - [**2131-8-7**] 04:23 AM
   Infusions:
   Heparin Sodium - 1,500 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2131-8-7**] 06:00 AM
   Famotidine (Pepcid) - [**2131-8-7**] 09:00 AM
   Other medications:
   ctz, tobra, fa, mvi, chlorhex, famotidine, riss, albuterol/atrovent q6,
   keppra 2g, loraz, reglan, heparin gtt, levothyrox, coumadin, phenytoin,
   fosphen
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue
   Ear, Nose, Throat: No(t) Dry mouth
   Cardiovascular: No(t) Chest pain
   Nutritional Support: Tube feeds
   Endocrine: No(t) Hyperglycemia
   Signs or concerns for abuse : No
   Pain: Unable to answer
   Flowsheet Data as of  [**2131-8-7**] 10:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.9
C (98.4
   HR: 113 (102 - 124) bpm
   BP: 124/65(77) {114/48(70) - 143/87(99)} mmHg
   RR: 26 (17 - 32) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 98.8 kg (admission): 99.5 kg
   Height: 71 Inch
             Total In:
                                                                  2,703 mL
                                                                  1,267 mL
   PO:
             TF:
                                                                    962 mL
                                                                    401 mL
   IVF:
                                                                  1,391 mL
                                                                    607 mL
   Blood products:
   Total out:
                                                                  2,250 mL
                                                                    980 mL
   Urine:
                                                                  2,250 mL
                                                                    980 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    453 mL
                                                                    287 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Trach mask , Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 541 (469 - 590) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 97
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///16/
   Ve: 12.5 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Abdomen: soft, obese, non-tender, mild distended
   Lungs: coarse bs bilaterally
   Heart: tachy, regular, no m
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.8 g/dL
   853 K/uL
   184 mg/dL
   0.6 mg/dL
   16 mEq/L
   3.9 mEq/L
   9 mg/dL
   104 mEq/L
   129 mEq/L
   25.5 %
   14.0 K/uL
        [image002.jpg]
                             [**2131-8-2**]  10:14 PM
                             [**2131-8-3**]  04:15 AM
                             [**2131-8-3**]  05:14 AM
                             [**2131-8-3**]  11:43 AM
                             [**2131-8-3**]  04:55 PM
                             [**2131-8-4**]  04:13 AM
                             [**2131-8-5**]  03:01 AM
                             [**2131-8-6**]  03:53 AM
                             [**2131-8-6**]  10:57 AM
                             [**2131-8-7**]  05:32 AM
   WBC
   13.0
   12.3
   11.5
   11.5
   11.8
   17.5
   17.5
   14.0
   Hct
   23.6
   19.2
   22.6
   26.2
   27.8
   27.1
   27.2
   27.1
   27.1
   25.5
   Plt
   695
   748
   698
   [**Telephone/Fax (3) **]
    859
   853
   Cr
   0.7
   0.7
   0.7
   0.6
   0.6
   0.6
   0.6
   Glucose
   157
   153
   149
   180
   170
   145
   184
   Other labs: PT / PTT / INR:17.5/66.6/1.6, CK / CKMB /
   Troponin-T:17//0.10, ALT / AST:[**5-23**], Alk Phos / T Bili:130/0.5, Amylase
   / Lipase:56/136, Differential-Neuts:68.0 %, Band:2.0 %, Lymph:14.0 %,
   Mono:2.0 %, Eos:10.0 %, Lactic Acid:1.7 mmol/L, Albumin:2.9 g/dL,
   LDH:306 IU/L, Ca++:9.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Imaging: cxr:
   Microbiology: BAL8/2 -- pseudomonas
   Assessment and Plan
   28M with necrotizing pancreatitis, with multiple complications, now
   incl VAP with resistant pseudomonas:
   VAP: wbc down is reassuring
   -id following
   -ceftaz and tobra; abx until [**8-14**]
   resp failure
   -vent at night
   -tm by day
   -consider PMV,
   change in mental status; anoxic brain injury
   -decrease reglan as tolerated
   seizures
   -neuro following
   -multiple aed's, following levels; plan to be aggressive
   pancreatitis, smv thrombosis: lipase stable
   -cont heparin
   -hold coumadin until clarified with surgery whether candidate for PEG
   Dispo: barriers include clarification of PO access, I V access
   -clarify with family, surgery, [**Hospital1 **]
   ICU Care
   Nutrition: tube feeds
   NovaSource Renal (Full) - [**2131-8-7**] 09:21 AM 40 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2131-7-20**] 04:06 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 28M prolonged hospital course over past few
   months with pancreatitis c/b ARF, arrest, hypoxic neurologic injury,
   respiratory failure, recurrent pneumonia. Mental status is slowly
   improving, working with PT.
   Exam notable for Tm 100.6 BP 140/50 HR 110-120 RR 17-32 with sat 99 on
   PSV 10/5. WD man, eyes track, follows some commands. Trach c/d/i.
   Coarse BS B. RRR s1s2. Soft +BS. 2+ edema. Labs notable for WBC 14K,
   HCT 25, K+ 4.0, Cr 0.6, dil 3.5, [**Last Name (un) **] 11.9.
   Agree with plan to manage recurrent pneumonia with ceftaz / tobra, last
   day is [**8-14**]. For respiratory failure, continue TM trials, would like
   him to stay off the vent today / overnight as able. Will evaluate for
   PMV, as trach has been downsized. Mental status is slowly improving.
   For seizures, continue dilantin / fosphenytoin and keppra per neuro
   recs. Pancreatitis is stable, tolerating TFs, no role for drainage at
   this point. He has ongoing need for enteral access, will d/w surgery re
   PEG vs doboff. Ongoing FW restriction for hyponatremia. DM is well
   controlled. Hypercalcemia is stable. SMV thrombus resolving - will get
   anticoagulated for six months, on heparin for now, will hold coumadin
   pending decision on G-tube. Monitoring eosinophilia, will recheck [**Last Name (un) **]
   stim today. Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 35 min

2131-08-08 07:47:00 Physician Resident Progress Note
Chief Complaint: s/p PEA arrest
   24 Hour Events:
   - thoracics consulted, will try to place bedside PEG tomorrow; holding
   coumadin tonight, stopping heparin and TFs at midnight, labs at 3am
   with coags and type and cross for FFP if INR >1.5
   - dilantin level therapeutic at 530pm, called neuro and per their recs,
   stopped IV dilantin, continue to check daily levels and adjust as
   needed per those
   - endo recs suggested starting vit d 50,000u twice weekly for 4 weeks
   and then rechecking level
   - insulin scale was switched from humalog to regular and titrated up
   for mild hyperglycemia
   - Na worsened, urine lytes showed Na of 100, so still likely consistent
   with SIADH, although on lasix so isn't clear
   - had appropriate cortisol stim test, 10 --> 30
   - tolerated trach mask all night
   History obtained from [**Hospital 19**] Medical records
   Patient unable to provide history: Encephalopathy, Unresponsive
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Tobramycin - [**2131-8-6**] 10:34 PM
   Ceftazidime - [**2131-8-8**] 04:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2131-8-7**] 08:00 PM
   Lorazepam (Ativan) - [**2131-8-8**] 06:00 AM
   Other medications:
   Vitmain D
   ISS
   Lasix x 1
   Phenytoin 100-200-200
   Levothyroxine
   Heparin Drip
   Tobra
   Ceftaz
   Tylenol
   Lidocain inh prn
   Robitussin
   Fentanyl prn
   Ativan standing
   Keppra
   Combivent
   Famotidine
   Multivitamin
   folate
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-8-8**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.5
C (97.7
   HR: 110 (105 - 126) bpm
   BP: 127/59(76) {114/57(71) - 139/80(93)} mmHg
   RR: 26 (19 - 28) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 92.1 kg (admission): 99.5 kg
   Height: 71 Inch
             Total In:
                                                                  2,450 mL
                                                                    223 mL
   PO:
             TF:
                                                                    967 mL
   IVF:
                                                                  1,224 mL
                                                                    163 mL
   Blood products:
   Total out:
                                                                  2,605 mL
                                                                    380 mL
   Urine:
                                                                  2,605 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -155 mL
                                                                   -157 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///14/
   Physical Examination
   Gen: trached, minimally responsive
   HEENT: EOMI, o/p clear
   CV: Tachy, no m/r/g
   Pulm: Clear anteriorly
   Abd: soft, NT, ND, bowel sounds present
   Ext: 2+ pitting edema bilaterally
   Labs / Radiology
   858 K/uL
   8.3 g/dL
   147 mg/dL
   0.6 mg/dL
   14 mEq/L
   4.0 mEq/L
   8 mg/dL
   103 mEq/L
   126 mEq/L
   25.4 %
   15.4 K/uL
        [image002.jpg]
                             [**2131-8-3**]  05:14 AM
                             [**2131-8-3**]  11:43 AM
                             [**2131-8-3**]  04:55 PM
                             [**2131-8-4**]  04:13 AM
                             [**2131-8-5**]  03:01 AM
                             [**2131-8-6**]  03:53 AM
                             [**2131-8-6**]  10:57 AM
                             [**2131-8-7**]  05:32 AM
                             [**2131-8-7**]  05:36 PM
                             [**2131-8-8**]  03:25 AM
   WBC
   11.5
   11.5
   11.8
   17.5
   17.5
   14.0
   17.8
   15.4
   Hct
   22.6
   26.2
   27.8
   27.1
   27.2
   27.1
   27.1
   25.5
   26.1
   25.4
   Plt
   698
   731
   752
   [**Telephone/Fax (2) 8146**]58
   Cr
   0.7
   0.6
   0.6
   0.6
   0.6
   0.6
   0.6
   Glucose
   149
   180
   170
   145
   184
   341
   147
   Other labs: PT / PTT / INR:17.0/30.7/1.5, CK / CKMB /
   Troponin-T:17//0.10, ALT / AST:[**5-23**], Alk Phos / T Bili:130/0.5, Amylase
   / Lipase:56/136, Differential-Neuts:64.0 %, Band:1.0 %, Lymph:19.0 %,
   Mono:6.0 %, Eos:7.0 %, Lactic Acid:1.7 mmol/L, Albumin:2.9 g/dL,
   LDH:306 IU/L, Ca++:9.5 mg/dL, Mg++:1.7 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   28 yo man with h/o recent admission with necrotizing pancreatitis c/b
   pseudocysts, s/p PEA arrest x2 with anoxic brain injury and seizures,
   with ongoing fevers likely secondary to VAP which is overall improving.
   VAP/Respiratory failure:  Sputum growing 2 colonies of pseudomonas in
   addition to ALCALIGENES XYLOSOXIDANS.  Now on ceftaz and tobra with
   fever curve and WBC improving..  WBC improving, and clinically
   improved.  Patient has not tolerated TCM trials due to coughing fits.
   Trach was downsized [**8-6**] to a size 6 tube with hopes of improved patient
   comfort.
   - continue tobra (d1 = [**7-23**]) q 48 hours until [**8-14**]
   - continue ceftaz  (day 1 = [**7-31**]) until [**8-14**]
   - cosider meropenem if febrile or unstable; skin blistering occurred in
   the setting of anasarca and occurred predominantly on the legs which is
   atypical for a drug rash; nevertheless, we will reserve [**Last Name (un) **] unless
   absolutely necessary
   - f/u colisitin sensitivies for pseudomonas, though would prefer to
   avoid this as it can cause irreversible renal failure
   - appreciate ID recs
   -TCM trials as tolerated
   .
   AMS secondary to Anoxic Brain Injury/Seizures.  Patient has suffered
   two PEA arrests and has anoxic brain injury with seizure activity.
   Overall mental status is improving, but prognosis regarding mental
   status is poor.
   - continue keppra 1 g [**Hospital1 **]
   - continue increase dose of dilantin 200-200-100
   - continue standing ativan
   - appreciate neuro recs, now recommending 300mg IV Q6 with [**Hospital1 **] troughs
   and continuing PO for now. Will discuss with neuro re: defined course.
   .
   Hypothyroid.  TFTs consistent with hypothyroidism. Endocrine
   recommended starting levoxyl 25mcg daily with repeat TFTs in 2 wks.
   - continue levothyroxine
   .
   Anemia.  Likely multifactorial, chronic disease, phlebotomy.
   - cont to monitor hct
   - stable, heparin resumed.
   .
   Hyponatremia.  [**Month (only) 8**] be central SIADH due to anoxic brain injury and
   seizures.   Stable.
   - continued to have concentrated TFs and abx
   - will [**First Name8 (NamePattern2) **] [**Last Name (un) **] stim test today
   - continue lasix today as total body up
   .
   Tachycardia.  No clear etiology of tachycardia.  Did not respond to
   fentanyl boluses or extra ativan doses.  Did not respond it IVF
   boluses, either.  Seems to worsen with coughing fits.  Likely partially
   related to fever, and is improving as fever curve is starting to
   decrease.
   - telemetry
   .
   Pancreatitis:  Patient with severe necrotizing pancreatitis earlier in
   course of critical illness with pseudocyst formation.  No plans for
   surgical invention.  CT scan of the abdomen on [**7-25**] shows stable
   pancreatic pseudocysts.  Lipase continues to trend downward.
   - trending pancreatic enzymes
   - continue tube feeds
   Eosinophilia.  Likely secondary to bactrim, cont to monitor.
   .
   S/p PEA arrest.  This is felt to be secondary to mucous plugging from
   VAP, continue suctioning as needed.  Additionally, patient was
   hypoglycemic on the floor in setting of recently starting glargine.
   - monitor on tele
   Diabetes.  Had hypoglycemia during PEA arrest after initation of
   glargine.  In setting of worsening infection, has had increasing
   hyperglycemia
   - follow fingersticks and cover with HISS, which has been titrated up
   - if long acting insulin is needed will start low given recent
   hypoglycemia
   .
   Hypercalcemia: Unclear etiology, but most likely secondary to bone
   turnover from being immobile and poor kidney excretion.   S/p
   pamidronate and Calcitonin.  Ca stable recently.
   - appreciate Endo recs
   - trend calcium
   .
   SMV thrombus.  Undergoing heparin to coumadin bridging for SMV thrombus
   likely secondary to severe pancreatitis.  INR remains subtherapeutic
   - depending on if surgery can place a peg, will stop coumadin and
   heparin and transition to lovenox
   - if [**Doctor First Name 91**] will place peg, hold coumadin and cont heparin gtt
   .
   Metabolic acidosis.  Likely multifactorial secondary to prior saline
   infusion and seizures.
   - follow bicarb
   .
   FEN
 has NG tube now for feeds, can transition either to PEG or
   dohboff based on surgery recs.
   Access.  PICC, PIV
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2131-7-20**] 04:06 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2131-08-08 11:01:00 Physician Attending Progress Note
Chief Complaint: anoxic brain injury, hypoxic resp arrest
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   30M with etoh pancreatitis, multiple complications, anoxic brain injury
   and pea arrests:
   24 Hour Events:
   -unable to get bedside peg, plan for open procedure in pm
   -stable, no other events
   -didn't tolerate PMV
   -normal [**Last Name (un) **] stim
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Tobramycin - [**2131-8-6**] 10:34 PM
   Ceftazidime - [**2131-8-8**] 04:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2131-8-8**] 06:00 AM
   Famotidine (Pepcid) - [**2131-8-8**] 08:03 AM
   Midazolam (Versed) - [**2131-8-8**] 09:10 AM
   Fentanyl - [**2131-8-8**] 09:25 AM
   Other medications:
   ctz, tobra, fa, mvi, chlorex, famotidine, riss, alb/atr, keppra, loraz,
   robitussin, heparin gtt held, synthroid, dilantin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: No(t) NPO
   Respiratory: Cough, No(t) Dyspnea, No(t) Tachypnea
   Genitourinary: Foley
   Endocrine: No(t) Hyperglycemia
   Signs or concerns for abuse : No
   Pain: Unable to answer
   Flowsheet Data as of  [**2131-8-8**] 11:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.5
C (97.7
   HR: 123 (105 - 126) bpm
   BP: 118/54(71) {93/54(71) - 139/80(93)} mmHg
   RR: 12 (12 - 33) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 92.1 kg (admission): 99.5 kg
   Height: 71 Inch
             Total In:
                                                                  2,450 mL
                                                                    366 mL
   PO:
             TF:
                                                                    967 mL
   IVF:
                                                                  1,224 mL
                                                                    306 mL
   Blood products:
   Total out:
                                                                  2,605 mL
                                                                    650 mL
   Urine:
                                                                  2,605 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -155 mL
                                                                   -284 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 300 (300 - 300) mL
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 21 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: ///14/
   Ve: 10.7 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Unable to stand
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.3 g/dL
   858 K/uL
   147 mg/dL
   0.6 mg/dL
   14 mEq/L
   4.0 mEq/L
   8 mg/dL
   103 mEq/L
   126 mEq/L
   25.4 %
   15.4 K/uL
        [image002.jpg]
                             [**2131-8-3**]  05:14 AM
                             [**2131-8-3**]  11:43 AM
                             [**2131-8-3**]  04:55 PM
                             [**2131-8-4**]  04:13 AM
                             [**2131-8-5**]  03:01 AM
                             [**2131-8-6**]  03:53 AM
                             [**2131-8-6**]  10:57 AM
                             [**2131-8-7**]  05:32 AM
                             [**2131-8-7**]  05:36 PM
                             [**2131-8-8**]  03:25 AM
   WBC
   11.5
   11.5
   11.8
   17.5
   17.5
   14.0
   17.8
   15.4
   Hct
   22.6
   26.2
   27.8
   27.1
   27.2
   27.1
   27.1
   25.5
   26.1
   25.4
   Plt
   698
   731
   752
   [**Telephone/Fax (2) 8146**]58
   Cr
   0.7
   0.6
   0.6
   0.6
   0.6
   0.6
   0.6
   Glucose
   149
   180
   170
   145
   184
   341
   147
   Other labs: PT / PTT / INR:17.0/30.7/1.5, CK / CKMB /
   Troponin-T:17//0.10, ALT / AST:[**5-23**], Alk Phos / T Bili:130/0.5, Amylase
   / Lipase:56/136, Differential-Neuts:64.0 %, Band:1.0 %, Lymph:19.0 %,
   Mono:6.0 %, Eos:7.0 %, Lactic Acid:1.7 mmol/L, Albumin:2.9 g/dL,
   LDH:306 IU/L, Ca++:9.5 mg/dL, Mg++:1.7 mg/dL, PO4:2.8 mg/dL
   Imaging: no new
   Microbiology: **sputum cx -- ceftaz INTERMED
   Assessment and Plan
   30M with etoh pancreatitis, anoxic brain injury after 2 pea arrests,
   severe seizure disorder now stable on current AED. Latest culture has
   ctz resistance:
   persistent secretions, wbc, tachycardia
   -discuss with ID re abx choice (?dorbapenem); favor switching to a
   carbopenem
   seizure d/o
   -continue current aed, now therapeatic and stable
   anoxic brain injury
   -cont supportive care
   metabolic acidosis
   -check abg when off vent
   -check urine lytes
   hypoNa
   -free water restrictioin
   smv thrombus
   -restart heparin after procedure
   po access
   -awaiting open placement of gtube
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2131-7-20**] 04:06 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt, restart after thrombosis)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2131-08-09 07:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2131-8-8**] 11:04 AM
   .
   - Attempt at bedside PEG was unsuccessful, but a PEG (not open g-tube)
   was placed in the OR without difficulty.  Patient is to use PEG for
   meds only until tomorrow night and then can resume tube feeds.
   - Dr. [**Name (NI) 6420**] (father) is extremely concerned about patient's lack of
   nutrition for 36 hours
   - Neuro recommends:
   *Resume Dilantin 300mg IV Q6 hrs with trough before each dose, with
   goal uncorrected level of [**7-15**] (should correct roughly to [**10-20**] based
   on yesterday's albumin level).  Discontinue boluses and continue PO/NG
   once at goal.
   *increase standing PO/NG Dilantin to 200 TID and continue during period
   of boluses.
   - Na increased when patient was strictly NPO for G-tube placement
   - lovenox started this morning
   -pt
s father very demanding and rude to staff o/n
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Ceftazidime - [**2131-8-9**] 05:16 AM
   Tobramycin - [**2131-8-9**] 06:46 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2131-8-8**] 09:10 AM
   Fentanyl - [**2131-8-8**] 09:25 AM
   Lorazepam (Ativan) - [**2131-8-8**] 12:15 PM
   Famotidine (Pepcid) - [**2131-8-8**] 08:22 PM
   Fosphenytoin - [**2131-8-9**] 05:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to obtain
   Flowsheet Data as of  [**2131-8-9**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.8
C (98.2
   HR: 115 (106 - 126) bpm
   BP: 133/90(98) {93/54(71) - 139/94(105)} mmHg
   RR: 25 (12 - 33) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 92.1 kg (admission): 99.5 kg
   Height: 71 Inch
             Total In:
                                                                    851 mL
                                                                    308 mL
   PO:
             TF:
   IVF:
                                                                    791 mL
                                                                    278 mL
   Blood products:
   Total out:
                                                                  1,875 mL
                                                                    780 mL
   Urine:
                                                                  1,875 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,024 mL
                                                                   -472 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Set): 300 (300 - 300) mL
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 21 cmH2O
   Plateau: 16 cmH2O
   SpO2: 100%
   ABG: 7.28/39/51/16/-7
   Ve: 10.7 L/min
   PaO2 / FiO2: 102
   Physical Examination
   Gen: trached, minimally responsive
   HEENT: EOMI, o/p clear
   CV: Tachy, no m/r/g
   Pulm: Clear anteriorly
   Abd: soft, NT, ND, bowel sounds present
   Ext: 2+ pitting edema bilaterally
   Labs / Radiology
   971 K/uL
   8.6 g/dL
   150 mg/dL
   0.6 mg/dL
   16 mEq/L
   4.2 mEq/L
   6 mg/dL
   106 mEq/L
   131 mEq/L
   28.3 %
   15.0 K/uL
        [image002.jpg]
                             [**2131-8-4**]  04:13 AM
                             [**2131-8-5**]  03:01 AM
                             [**2131-8-6**]  03:53 AM
                             [**2131-8-6**]  10:57 AM
                             [**2131-8-7**]  05:32 AM
                             [**2131-8-7**]  05:36 PM
                             [**2131-8-8**]  03:25 AM
                             [**2131-8-8**]  02:11 PM
                             [**2131-8-8**]  03:44 PM
                             [**2131-8-9**]  02:59 AM
   WBC
   11.5
   11.8
   17.5
   17.5
   14.0
   17.8
   15.4
   15.0
   Hct
   27.1
   27.2
   27.1
   27.1
   25.5
   26.1
   25.4
   28.3
   Plt
   [**Telephone/Fax (3) 8161**]
   858
   971
   Cr
   0.6
   0.6
   0.6
   0.6
   0.6
   0.6
   0.5
   0.6
   TCO2
   19
   Glucose
   180
   170
   145
   184
   [**Telephone/Fax (2) 8162**]50
   Other labs: PT / PTT / INR:16.4/28.6/1.5, CK / CKMB /
   Troponin-T:17//0.10, ALT / AST:[**7-19**], Alk Phos / T Bili:130/0.5, Amylase
   / Lipase:56/136, Differential-Neuts:76.0 %, Band:0.0 %, Lymph:14.0 %,
   Mono:6.0 %, Eos:2.0 %, Lactic Acid:0.8 mmol/L, Albumin:3.1 g/dL,
   LDH:175 IU/L, Ca++:9.6 mg/dL, Mg++:1.7 mg/dL, PO4:3.3 mg/dL
   .
   BAL now showing ceftaz resistant pseudomonas.
   Assessment and Plan
   28 yo man with h/o recent admission with necrotizing pancreatitis c/b
   pseudocysts, s/p PEA arrest x2 with anoxic brain injury and seizures,
   with ongoing fevers likely secondary to VAP which is overall improving.
   VAP/Respiratory failure:  Sputum growing 2 colonies of pseudomonas in
   addition to ALCALIGENES XYLOSOXIDANS.  Now on ceftaz and tobra with
   fever curve and WBC improving.  Has also been tolerating trach [**Last Name (un) 3041**].
   Trach was downsized [**8-6**] to a size 6 tube with hopes of improved patient
   comfort.  Trach secretions now show pseudomonas colonies with
   intermediate ceftaz resistance.
   - continue tobra (d1 = [**7-23**]) q 48 hours until [**8-14**]
   -dc ceftaz as now resistant..
   - cosider meropenem if febrile or unstable; skin blistering occurred in
   the setting of anasarca and occurred predominantly on the legs which is
   atypical for a drug rash; nevertheless, we will reserve [**Last Name (un) **] unless
   absolutely necessary
   - f/u colisitin sensitivies for pseudomonas, though would prefer to
   avoid this as it can cause irreversible renal failure
   -TCM trials as tolerated
   .
   AMS secondary to Anoxic Brain Injury/Seizures.  Patient has suffered
   two PEA arrests and has anoxic brain injury with seizure activity.
   Overall mental status is improving, but prognosis regarding mental
   status is poor.
   - continue keppra 1 g [**Hospital1 **]
   - continue increase dose of dilantin 200-200-200
   - continue standing ativan
   - appreciate neuro recs, IV boluses until at goal.
   .
   Hypothyroid.  TFTs consistent with hypothyroidism. Endocrine
   recommended starting levoxyl 25mcg daily with repeat TFTs in 2 wks.
   - continue levothyroxine
   .
   Anemia.  Likely multifactorial, chronic disease, phlebotomy.
   - cont to monitor hct
   - stable, heparin resumed.
   .
   Hyponatremia.  [**Month (only) 8**] be central SIADH due to anoxic brain injury and
   seizures.   [**Last Name (un) 567**] stim was apporpirate so not likely to be due to
   adrenal insufficiency.
   - continued to have concentrated TFs and abx
   -improved yesterday with NPO status.
   .
   Tachycardia.  No clear etiology of tachycardia.  Did not respond to
   fentanyl boluses or extra ativan doses.  Did not respond it IVF
   boluses, either.  Seems to worsen with coughing fits.  Likely partially
   related to fever, and is improving as fever curve is starting to
   decrease.
   - telemetry
   .
   Pancreatitis:  Patient with severe necrotizing pancreatitis earlier in
   course of critical illness with pseudocyst formation.  No plans for
   surgical invention.  CT scan of the abdomen on [**7-25**] shows stable
   pancreatic pseudocysts.  Lipase continues to trend downward.
   - trending pancreatic enzymes
   - continue tube feeds
   Eosinophilia.  Likely secondary to bactrim, cont to monitor.
   .
   S/p PEA arrest.  This is felt to be secondary to mucous plugging from
   VAP, continue suctioning as needed.  Additionally, patient was
   hypoglycemic on the floor in setting of recently starting glargine.
   - monitor on tele
   Diabetes.  Had hypoglycemia during PEA arrest after initation of
   glargine.  In setting of worsening infection, has had increasing
   hyperglycemia
   - follow fingersticks and cover with RISS, which has been titrated up
   - if long acting insulin is needed will start low given recent
   hypoglycemia
   .
   Hypercalcemia: Unclear etiology, but most likely secondary to bone
   turnover from being immobile and poor kidney excretion.   S/p
   pamidronate and Calcitonin.  Ca stable recently.
   - appreciate Endo recs
   - trend calcium
   .
   SMV thrombus.  Undergoing heparin to coumadin bridging for SMV thrombus
   likely secondary to severe pancreatitis.  INR remains subtherapeutic
   - lovenox to coumadin briding after G-tube placement
   .
   Metabolic acidosis.  Unclear etiology, but stable.  Possibly related to
   respiratory status.
   - follow bicarb
   - check VBG
   .
   FEN
 s/p PEG placement.
   Access.  PICC, PIV
   ICU Care
   Nutrition: will likely resume TF
s today pending [**Doctor First Name 91**] recs.
   Glycemic Control:
   Lines:
   PICC Line - [**2131-7-20**] 04:06 AM
   Prophylaxis:
   DVT: lovenox to coumadin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: family
   Code status: Full code
   Disposition:ICU to rehab

2131-08-09 11:22:00 Physician Attending Progress Note
Chief Complaint: pea arrest
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   28M with etoh pancreatitis, anoxic brain injury after multiple pea
   arrests, now improving slowly:
   24 Hour Events:
   -persistent tachycardia
   -s/p peg placement in OR
   -dilantin increased
   -lovenox restarted
   -discussed with ID, no change in abx
   History obtained from Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Ceftazidime - [**2131-8-9**] 05:16 AM
   Tobramycin - [**2131-8-9**] 06:46 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2131-8-8**] 12:15 PM
   Famotidine (Pepcid) - [**2131-8-9**] 08:00 AM
   Enoxaparin (Lovenox) - [**2131-8-9**] 10:00 AM
   Fosphenytoin - [**2131-8-9**] 10:00 AM
   Other medications:
   ctz, mvi, cagluc, famotidine, riss, atr/alb, sqh, ativan, fosfen,
   tobra, lvx, synthroid, robissin, vitd
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Cardiovascular: No(t) Chest pain
   Nutritional Support: NPO, Parenteral nutrition
   Respiratory: Cough, No(t) Dyspnea, No(t) Tachypnea
   Gastrointestinal: No(t) Abdominal pain, Nausea
   Genitourinary: Foley
   Endocrine: No(t) Hyperglycemia
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2131-8-9**] 11:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.8
C (98.2
   HR: 116 (106 - 124) bpm
   BP: 112/59(72) {112/59(72) - 143/94(105)} mmHg
   RR: 26 (20 - 29) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 92.1 kg (admission): 99.5 kg
   Height: 71 Inch
             Total In:
                                                                    851 mL
                                                                    550 mL
   PO:
             TF:
   IVF:
                                                                    791 mL
                                                                    460 mL
   Blood products:
   Total out:
                                                                  1,875 mL
                                                                  1,435 mL
   Urine:
                                                                  1,875 mL
                                                                  1,235 mL
   NG:
   200 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,024 mL
                                                                   -885 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   FiO2: 50%
   SpO2: 100%
   ABG: 7.28/39/51/16/-7
   PaO2 / FiO2: 102
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), tachy
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   coarse bibasilar bs
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: No(t) Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, more awake
   Labs / Radiology
   8.6 g/dL
   971 K/uL
   150 mg/dL
   0.6 mg/dL
   16 mEq/L
   4.2 mEq/L
   6 mg/dL
   106 mEq/L
   131 mEq/L
   28.3 %
   15.0 K/uL
         [image002.jpg]
                             [**2131-8-4**]  04:13 AM
                             [**2131-8-5**]  03:01 AM
                             [**2131-8-6**]  03:53 AM
                             [**2131-8-6**]  10:57 AM
                             [**2131-8-7**]  05:32 AM
                             [**2131-8-7**]  05:36 PM
                             [**2131-8-8**]  03:25 AM
                             [**2131-8-8**]  02:11 PM
                             [**2131-8-8**]  03:44 PM
                             [**2131-8-9**]  02:59 AM
   WBC
   11.5
   11.8
   17.5
   17.5
   14.0
   17.8
   15.4
   15.0
   Hct
   27.1
   27.2
   27.1
   27.1
   25.5
   26.1
   25.4
   28.3
   Plt
   [**Telephone/Fax (2) 8161**]
   858
   971
   Cr
   0.6
   0.6
   0.6
   0.6
   0.6
   0.6
   0.5
   0.6
   TCO2
   19
   Glucose
   180
   170
   145
   184
   [**Telephone/Fax (2) 8162**]50
   Other labs: PT / PTT / INR:16.4/28.6/1.5, CK / CKMB /
   Troponin-T:17//0.10, ALT / AST:[**7-19**], Alk Phos / T Bili:130/0.5, Amylase
   / Lipase:56/136, Differential-Neuts:76.0 %, Band:0.0 %, Lymph:14.0 %,
   Mono:6.0 %, Eos:2.0 %, Lactic Acid:0.8 mmol/L, Albumin:3.1 g/dL,
   LDH:175 IU/L, Ca++:9.6 mg/dL, Mg++:1.7 mg/dL, PO4:3.3 mg/dL
   Imaging: cxr: ?new left base opacity
   Microbiology: sputum cx: ctz-resistant pseudomonas
   Assessment and Plan
   28M with etoh pancreatitis, anoxic brain injury after multiple pea
   arrests, now improving slowly, awaiting rehab once PEG stable and
   working:
   anoxic brain injury and seizure disorder
   -cont aed's per neuro
   -stable, ?improving
   pneumonia, mucous
   -cont tobra until [**8-14**]
   -d/c ceftaz
   -carbopenem if worsens, watching for allergic reaction
   peg
   -start using tonight
   pancreatitis
   -ntd
   metabolic acidosis
   -check urine lytes for urine gap
   smv thrombus
   -lovenox to coumadin bridge
   ICU Care
   Nutrition: start feeds tonight
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2131-7-20**] 04:06 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU ; possible rehab tomorrow
   Total time spent: 35 minutes
   Patient is critically ill

2131-08-10 07:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**2131-8-9**]
   -BAL pseudomonas now officially resistant to ceftaz
   -still on dilantin
   -discharge planning
   -mother wanted pt to be on prozac, but deferred in inpt setting given
   dilantin etc.
   -dc'd IV dilantin as pt currently therapeutic
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Tobramycin - [**2131-8-9**] 06:46 AM
   Ceftazidime - [**2131-8-10**] 04:19 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2131-8-9**] 08:59 PM
   Famotidine (Pepcid) - [**2131-8-9**] 10:00 PM
   Fosphenytoin - [**2131-8-9**] 10:34 PM
   Lorazepam (Ativan) - [**2131-8-10**] 06:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-8-10**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.4
C (97.6
   HR: 107 (97 - 124) bpm
   BP: 123/70(83) {102/49(62) - 143/80(89)} mmHg
   RR: 21 (20 - 28) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 92.1 kg (admission): 99.5 kg
   Height: 71 Inch
             Total In:
                                                                  1,078 mL
                                                                    321 mL
   PO:
             TF:
                                                                     68 mL
                                                                    166 mL
   IVF:
                                                                    840 mL
                                                                    125 mL
   Blood products:
   Total out:
                                                                  2,495 mL
                                                                    570 mL
   Urine:
                                                                  2,095 mL
                                                                    570 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
                                                                    200 mL
   Balance:
                                                                 -1,417 mL
                                                                   -249 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///16/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   942 K/uL
   8.5 g/dL
   128 mg/dL
   0.6 mg/dL
   16 mEq/L
   3.5 mEq/L
   5 mg/dL
   107 mEq/L
   130 mEq/L
   27.5 %
   12.8 K/uL
        [image002.jpg]
                             [**2131-8-5**]  03:01 AM
                             [**2131-8-6**]  03:53 AM
                             [**2131-8-6**]  10:57 AM
                             [**2131-8-7**]  05:32 AM
                             [**2131-8-7**]  05:36 PM
                             [**2131-8-8**]  03:25 AM
                             [**2131-8-8**]  02:11 PM
                             [**2131-8-8**]  03:44 PM
                             [**2131-8-9**]  02:59 AM
                             [**2131-8-10**]  03:13 AM
   WBC
   11.8
   17.5
   17.5
   14.0
   17.8
   15.4
   15.0
   12.8
   Hct
   27.2
   27.1
   27.1
   25.5
   26.1
   25.4
   28.3
   27.5
   Plt
   752
   859
    859
   853
   886
   858
   971
   942
   Cr
   0.6
   0.6
   0.6
   0.6
   0.6
   0.5
   0.6
   0.6
   TCO2
   19
   Glucose
   170
   145
   184
   [**Telephone/Fax (3) **]
   150
   128
   Other labs: PT / PTT / INR:19.1/42.6/1.7, CK / CKMB /
   Troponin-T:17//0.10, ALT / AST:[**7-17**], Alk Phos / T Bili:132/0.5, Amylase
   / Lipase:56/94, Differential-Neuts:52.0 %, Band:2.0 %, Lymph:29.0 %,
   Mono:6.0 %, Eos:8.0 %, Lactic Acid:0.8 mmol/L, Albumin:3.1 g/dL,
   LDH:175 IU/L, Ca++:9.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   28 yo man with h/o recent admission with necrotizing pancreatitis c/b
   pseudocysts, s/p PEA arrest x2 with anoxic brain injury and seizures,
   with ongoing fevers likely secondary to VAP which is overall improving.
   VAP/Respiratory failure:  Sputum growing 2 colonies of pseudomonas in
   addition to ALCALIGENES XYLOSOXIDANS.  Now on ceftaz and tobra with
   fever curve and WBC improving.  Has also been tolerating trach [**Last Name (un) 3041**].
   Trach was downsized [**8-6**] to a size 6 tube with hopes of improved patient
   comfort.  Trach secretions now show pseudomonas colonies with
   intermediate ceftaz resistance.
   - continue tobra (d1 = [**7-23**]) q 48 hours until [**8-14**]
   -dc ceftaz as now resistant..
   - cosider meropenem if febrile or unstable; skin blistering occurred in
   the setting of anasarca and occurred predominantly on the legs which is
   atypical for a drug rash; nevertheless, we will reserve [**Last Name (un) **] unless
   absolutely necessary
   - f/u colisitin sensitivies for pseudomonas, though would prefer to
   avoid this as it can cause irreversible renal failure
   -TCM trials as tolerated
   .
   AMS secondary to Anoxic Brain Injury/Seizures.  Patient has suffered
   two PEA arrests and has anoxic brain injury with seizure activity.
   Overall mental status is improving, but prognosis regarding mental
   status is poor.
   - continue keppra 1 g [**Hospital1 **]
   - continue increase dose of dilantin 200-200-200
   - continue standing ativan
   - appreciate neuro recs, IV boluses until at goal.
   .
   Hypothyroid.  TFTs consistent with hypothyroidism. Endocrine
   recommended starting levoxyl 25mcg daily with repeat TFTs in 2 wks.
   - continue levothyroxine
   .
   Anemia.  Likely multifactorial, chronic disease, phlebotomy.
   - cont to monitor hct
   - stable, heparin resumed.
   .
   Hyponatremia.  [**Month (only) 8**] be central SIADH due to anoxic brain injury and
   seizures.   [**Last Name (un) 567**] stim was apporpirate so not likely to be due to
   adrenal insufficiency.
   - continued to have concentrated TFs and abx
   -improved yesterday with NPO status.
   .
   Tachycardia.  No clear etiology of tachycardia.  Did not respond to
   fentanyl boluses or extra ativan doses.  Did not respond it IVF
   boluses, either.  Seems to worsen with coughing fits.  Likely partially
   related to fever, and is improving as fever curve is starting to
   decrease.
   - telemetry
   .
   Pancreatitis:  Patient with severe necrotizing pancreatitis earlier in
   course of critical illness with pseudocyst formation.  No plans for
   surgical invention.  CT scan of the abdomen on [**7-25**] shows stable
   pancreatic pseudocysts.  Lipase continues to trend downward.
   - trending pancreatic enzymes
   - continue tube feeds
   Eosinophilia.  Likely secondary to bactrim, cont to monitor.
   .
   S/p PEA arrest.  This is felt to be secondary to mucous plugging from
   VAP, continue suctioning as needed.  Additionally, patient was
   hypoglycemic on the floor in setting of recently starting glargine.
   - monitor on tele
   Diabetes.  Had hypoglycemia during PEA arrest after initation of
   glargine.  In setting of worsening infection, has had increasing
   hyperglycemia
   - follow fingersticks and cover with RISS, which has been titrated up
   - if long acting insulin is needed will start low given recent
   hypoglycemia
   .
   Hypercalcemia: Unclear etiology, but most likely secondary to bone
   turnover from being immobile and poor kidney excretion.   S/p
   pamidronate and Calcitonin.  Ca stable recently.
   - appreciate Endo recs
   - trend calcium
   .
   SMV thrombus.  Undergoing heparin to coumadin bridging for SMV thrombus
   likely secondary to severe pancreatitis.  INR remains subtherapeutic
   - lovenox to coumadin briding after G-tube placement
   .
   Metabolic acidosis.  Unclear etiology, but stable.  Possibly related to
   respiratory status.
   - follow bicarb
   - check VBG
   .
   FEN
 s/p PEG placement.
   Access.  PICC, PIV
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2131-8-9**] 07:30 PM 25 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2131-7-20**] 04:06 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2131-08-10 11:59:00 Physician Attending Progress Note
Chief Complaint: anoxic brain injury, pea arrest
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   28M with etoh pancreatitis, s/p several pea arrests and anoxic brain
   injury, severe seizure disorder, now improving slowly, ready for rehab
   today
   24 Hour Events:
   -fio2 down
   -started tube feeds, tolerating
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Meropenem
   skin blisters a
   Last dose of Antibiotics:
   Tobramycin - [**2131-8-9**] 06:46 AM
   Ceftazidime - [**2131-8-10**] 04:19 AM
   Infusions:
   Other ICU medications:
   Fosphenytoin - [**2131-8-9**] 10:34 PM
   Lorazepam (Ativan) - [**2131-8-10**] 06:19 AM
   Famotidine (Pepcid) - [**2131-8-10**] 08:00 AM
   Enoxaparin (Lovenox) - [**2131-8-10**] 08:01 AM
   Other medications:
   mvi, keppra, ativan, dilantin, robitussin,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Nutritional Support: Tube feeds
   Respiratory: No(t) Dyspnea, No(t) Tachypnea
   Genitourinary: Foley
   Neurologic: No(t) Seizure
   Signs or concerns for abuse
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2131-8-10**] 11:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.2
C (97.1
   HR: 110 (97 - 122) bpm
   BP: 115/58(24) {102/49(24) - 127/80(90)} mmHg
   RR: 21 (20 - 28) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 90.3 kg (admission): 99.5 kg
   Height: 71 Inch
             Total In:
                                                                  1,078 mL
                                                                    707 mL
   PO:
             TF:
                                                                     68 mL
                                                                    301 mL
   IVF:
                                                                    840 mL
                                                                    315 mL
   Blood products:
   Total out:
                                                                  2,495 mL
                                                                    850 mL
   Urine:
                                                                  2,095 mL
                                                                    850 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
                                                                    200 mL
   Balance:
                                                                 -1,417 mL
                                                                   -143 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///16/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : bases)
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   942 K/uL
   128 mg/dL
   0.6 mg/dL
   16 mEq/L
   3.5 mEq/L
   5 mg/dL
   107 mEq/L
   130 mEq/L
   27.5 %
   12.8 K/uL
        [image002.jpg]
                             [**2131-8-5**]  03:01 AM
                             [**2131-8-6**]  03:53 AM
                             [**2131-8-6**]  10:57 AM
                             [**2131-8-7**]  05:32 AM
                             [**2131-8-7**]  05:36 PM
                             [**2131-8-8**]  03:25 AM
                             [**2131-8-8**]  02:11 PM
                             [**2131-8-8**]  03:44 PM
                             [**2131-8-9**]  02:59 AM
                             [**2131-8-10**]  03:13 AM
   WBC
   11.8
   17.5
   17.5
   14.0
   17.8
   15.4
   15.0
   12.8
   Hct
   27.2
   27.1
   27.1
   25.5
   26.1
   25.4
   28.3
   27.5
   Plt
   752
   859
    859
   853
   886
   858
   971
   942
   Cr
   0.6
   0.6
   0.6
   0.6
   0.6
   0.5
   0.6
   0.6
   TCO2
   19
   Glucose
   170
   145
   184
   [**Telephone/Fax (3) **]
   150
   128
   Other labs: PT / PTT / INR:19.1/42.6/1.7, CK / CKMB /
   Troponin-T:17//0.10, ALT / AST:[**7-17**], Alk Phos / T Bili:132/0.5, Amylase
   / Lipase:56/94, Differential-Neuts:52.0 %, Band:2.0 %, Lymph:29.0 %,
   Mono:6.0 %, Eos:8.0 %, Lactic Acid:0.8 mmol/L, Albumin:3.1 g/dL,
   LDH:175 IU/L, Ca++:9.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Imaging: no new
   Assessment and Plan
   28M with etoh pancreatitis, s/p several pea arrests and anoxic brain
   injury, severe seizure disorder, now improving slowly, ready for rehab
   today:
   pna: stable, much improved
   -cont ceftaz and tobra until [**8-14**]
   delta ms [**First Name (Titles) **] [**Last Name (Titles) 8173**], anoxic brain injury
   -cont current meds; good levels
   smv thrombus
   -cont lovenox; no coumadin because couldn't control levels
   dispo: to rebab today
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2131-8-9**] 07:30 PM 35 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2131-7-20**] 04:06 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 35 minutes